2164-09-16 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2164-9-15**] 02:28 PM
   .
   -Pt responded to few doses flumazenil yesterday. His secretions are
   able to be cleared without many doses of flumazenil.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-16**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-9-16**] 04:00 AM
   Diltiazem - [**2164-9-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-16**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.5
   HR: 96 (88 - 113) bpm
   BP: 143/109(117) {126/83(93) - 156/111(121)} mmHg
   RR: 38 (28 - 45) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,975 mL
                                                                    850 mL
   PO:
             TF:
   IVF:
                                                                  1,350 mL
                                                                    850 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    550 mL
   Urine:
                                                                    700 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,025 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.42/44/58/25/3 (hypoxemia)
   PaO2 / FiO2: 116
   Physical Examination
   General: somnolent and minimally arousable, able to follow some simple
   commands. Pt with + gag and good cough when following instructions.
   HEENT: Pupils 1mm but reactive to light, sclera anicteric, MMM
   Neck: Supple, no LAD
   Lungs: difficult to assess given pt
s upper airway sounds
   CV: Irregularly irregular and tachy to 100's, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   316 K/uL
   13.1 g/dL
   112 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   15 mg/dL
   106 mEq/L
   142 mEq/L
   39.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2164-9-15**]  02:43 PM
                             [**2164-9-16**]  03:58 AM
   WBC
   8.7
   Hct
   39.2
   Plt
   316
   Cr
   0.8
   TCO2
   30
   Glucose
   112
   Other labs: ALT / AST:24/40, Alk Phos / T Bili:65/1.2,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:327 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   .
   Coags: PT 15.1/ PTT 27.8 / INR 1.3
   .
   CXR [**2164-9-16**]: Infiltrate in posterior segment of RLL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   .
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Distress: Hypoxemic respiratory distress with ABG
   7.42/44/58/30.  Pt unable to clear secreations in the setting of
   lethargy from prior valium. He was given Flumazenil and mental status
   improved somewhat. NSG able to clear secreations without flumazenil
   doses. Pt secreations likely from aspiration pna and sinusitis. No
   evidence of volume overload on exam.  Pt with fever to 102. He is being
   treated with Zosyn. CT head negative for acute process.
   -U tox to ensure we are treating high benzodiazepine level and not
   missing other substances
   - cont Zosyn for aspiration PNA
   -Place NG tube for IV medications
   - keep patient NPO given aspiration risk
   - Flumazenil 0.2mg prn for lethargy and inability to clear secreations
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - monitor mental status closely
   - cont to trend WBC and fever curve
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Was controlled on PO dilt, but unable to take PO, now NPO.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - cont dilt 10mg IV q6 to maintain HR <100 and can titrate up freq.
   Will hold off on dilt drip for now. Avoiding BB given h/o cocaine abuse
   in the past, not the best long term medication
   -Increase IV dilt dose if unable to place NGT
   -NG tube for PO dilt as pt was previously rate controlled on this.
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: [**Name (NI) 8198**] pt has been somnolent for the last
   3 days on the floors. He did receive >400mg valium in the ICU during
   his stay. CT-head was negative. His mental status improves with
   flumazenil so likely BZD is causing his lethargy. No evidence of
   menengitis.
   -U tox as above
   - flumazenil as above
   - cont to monitor
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Currently
   lethargic from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   20 Gauge - [**2164-9-15**] 05:24 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: patient when arousable
   Code status: Full code
   Disposition: ICU

2164-09-16 10:18:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, aspiration pneumonia, afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continued on IV diltiazem every 4 hours; heart rate 115-120
   now. Antibiotics continued; afebrile
   Given flumazenil with some improvement in mental status.
   24 Hour Events:
 PICC LINE - START [**2164-9-15**] 02:28 PM
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-16**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-9-16**] 04:00 AM
   Diltiazem - [**2164-9-16**] 08:21 AM
   Other medications:
   Thiamine, folate, ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-16**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 117 (88 - 119) bpm
   BP: 147/100(109) {126/83(93) - 160/111(121)} mmHg
   RR: 37 (28 - 45) insp/min
   SpO2: 93%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
             Total In:
                                                                  1,978 mL
                                                                  1,351 mL
   PO:
             TF:
   IVF:
                                                                  1,353 mL
                                                                  1,351 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    550 mL
   Urine:
                                                                    700 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,028 mL
                                                                    801 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.42/44/58/25/3
   PaO2 / FiO2: 83
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Heart sounds largely obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : coarse, No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , Rhonchorous: Diffuse upper airway
   sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent edema
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.1 g/dL
   316 K/uL
   112 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   15 mg/dL
   106 mEq/L
   142 mEq/L
   39.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2164-9-15**]  02:43 PM
                             [**2164-9-16**]  03:58 AM
   WBC
   8.7
   Hct
   39.2
   Plt
   316
   Cr
   0.8
   TCO2
   30
   Glucose
   112
   Other labs: PT / PTT / INR:15.1/27.8/1.3, ALT / AST:24/40, Alk Phos / T
   Bili:65/1.2, Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %,
   Eos:1.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:327 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: low lung volumes, infiltrate at right base, probably
   posterior-basal segment of RLL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ASPIRATION PNEUMONIA
   ALTERED MENTAL STATUS
   =========================
   Patient responds somewhat to Flumazenil; would like to check toxic
   screen to see if he has received anything else surreptitiously.  Head
   CT negative.
   Remains tachycardic in afib. Will try to place NG tube to allow for
   oral diltiazem, which controlled rate previously.
   CXR suggests aspiration pneumonia. Continues on antibiotics. Afebrile.
   WBC normal.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   20 Gauge - [**2164-9-15**] 05:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not indicated
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-09-17 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**9-16**]
   -NG placed and diltiazem changed to po via NG and added metoprolol 12.5
   tid with better A fib HR control 100s-110s
   - started TFs via NG
   - Urine and serum positive for benzos
   - recultured for temp spike
   - intubated this AM on AC (Vt 550, RR 15, PEEP 10)
   - bronchoscopy this AM showed no plugging
   - central line placed in left IJ
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2164-9-16**] 12:12 PM
   Heparin Sodium (Prophylaxis) - [**2164-9-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-17**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.4
C (97.6
   HR: 115 (93 - 119) bpm
   BP: 145/98(110) {122/78(91) - 167/120(125)} mmHg
   RR: 32 (16 - 43) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,147 mL
                                                                    337 mL
   PO:
             TF:
             69 mL
   IVF:
                                                                  1,887 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    300 mL
   Urine:
                                                                  1,350 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    797 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: 7.46/40/95.[**Numeric Identifier 252**]/29/4
   PaO2 / FiO2: 95
   Physical Examination
   General: no gag, no cought when being suctiioned.
   HEENT: Pupils reactive, sclera anicteric, MMM
   Neck: Supple, no LAD
   Lungs: difficult to assess given pt
s upper airway sounds
   CV: Irregularly irregular and tachy to 100's, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   330 K/uL
   13.6 g/dL
   111 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   16 mg/dL
   107 mEq/L
   147 mEq/L
   39.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2164-9-15**]  02:43 PM
                             [**2164-9-16**]  03:58 AM
                             [**2164-9-16**]  05:50 PM
                             [**2164-9-17**]  04:50 AM
   WBC
   8.7
   9.9
   Hct
   39.2
   39.5
   Plt
   316
   330
   Cr
   0.8
   0.7
   TCO2
   30
   29
   Glucose
   112
   111
   Other labs: PT / PTT / INR:15.3/25.9/1.3, ALT / AST:24/40, Alk Phos / T
   Bili:65/1.2, Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %,
   Eos:1.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:286 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   Sputum culture
 contaminated
   BCx, Ucx, MRSA screen
 pending
   CXR
 improvement of RLL infiltrate
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Intubated this AM for desaturation, no gag
   reflex, copious secretion that could not be cleared.  Flumazenil did
   not help.  Currently on AC, Vt 550, RR 15, PEEP 10.  Pt secreations
   likely from aspiration pna and sinusitis. No evidence of volume
   overload on exam.  Serum and urine tox positive for benzos.  Patient is
   drawing large minute ventilation but not saturating well, very
   concerned for PE
   - cont Zosyn for aspiration PNA
   - CTA to assess for PE
   - heparin drip
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - propofol and fentanyl for sedation, avoid benzos
   - VAP bundle
   - cont to trend WBC and fever curve
   .
   # Hypotension
 likely in setting of likely PE.  Other possible causes
   can be due to being intubated with a PEEP of 10, being aggressively
   bagged prior to intubation, sedation
   - CTA to assess for PE
   .
   # Aspiration pneumonia
 patient had thick secretions that were unable
   to be suctioned and loss of gag and cough reflex
   - continue zosyn
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - continue dilt given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: [**Name (NI) 8198**] pt has been somnolent for the last
   3 days on the floors. He did receive >400mg valium in the ICU during
   his stay. CT-head was negative. His mental status improves with
   flumazenil so likely BZD is causing his lethargy. No evidence of
   menengitis.
   - U tox as above
   - cont to monitor
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Currently
   lethargic from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   ICU Care
   Nutrition: Tube feeding - Nutren Pulmonary (Full) - [**2164-9-17**] 12:00 AM
   10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: patient when arousable
   Code status: Full code
   Disposition: ICU

2164-09-17 11:45:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, acute respiratory failure, afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Heart rate better controlled after initiation of diltiazem via NG tube.
   Continued to have problems managing secretions during the night and
   became increasingly hypoxemic which led to intubation. Patient's
   hypoxemia persisted despite intubation and he became hypotensive (had
   received propofol for intubation). We did an emergent bronchoscopy and
   aspirated small amounts of moderately thick secretions from the RLL and
   LLL; no discrete mucus plugs. Oxygenation has slowly improved since
   bronchoscopy. Central line placed following bronchoscopy.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2164-9-16**] 12:12 PM
   Heparin Sodium (Prophylaxis) - [**2164-9-17**] 06:00 AM
   Propofol - [**2164-9-17**] 08:30 AM
   Fentanyl - [**2164-9-17**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-17**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 145 (93 - 145) bpm
   BP: 119/86(93) {74/50(56) - 167/120(126)} mmHg
   RR: 31 (13 - 43) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 14 (13 - 14)mmHg
   Total In:
                                                                  2,147 mL
                                                                  1,472 mL
   PO:
   TF:
                                                                     75 mL
   IVF:
                                                                  1,887 mL
                                                                  1,207 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                  3,380 mL
   Urine:
                                                                  1,350 mL
                                                                  3,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    797 mL
                                                                 -1,908 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 31 cmH2O
   SpO2: 99%
   ABG: 7.36/48/81.[**Numeric Identifier **]/29/0
   Ve: 17.9 L/min
   PaO2 / FiO2: 82
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.6 g/dL
   330 K/uL
   111 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   16 mg/dL
   107 mEq/L
   147 mEq/L
   39.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2164-9-15**]  02:43 PM
                             [**2164-9-16**]  03:58 AM
                             [**2164-9-16**]  05:50 PM
                             [**2164-9-17**]  04:50 AM
                             [**2164-9-17**]  09:58 AM
   WBC
   8.7
   9.9
   Hct
   39.2
   39.5
   Plt
   316
   330
   Cr
   0.8
   0.7
   TCO2
   30
   29
   28
   Glucose
   112
   111
   Other labs: PT / PTT / INR:15.3/25.9/1.3, ALT / AST:24/40, Alk Phos / T
   Bili:65/1.2, Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %,
   Eos:1.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:286 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: post intubation, increased streaky infiltrate RLL.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   HYPOTENSION
   ASPIRATION PNEUMONIA
   ======================
   Patient continues to have tachypnea that cannot be alleviated despite
   multiple different ventilatory strategies. Needs at least 60% oxygen
   and seems to have considerable dead space with high ventilation
   requirements. With a CXR that shows relatively little parenchymal
   change, our biggest concern is acute pulmonary embolism.
   Anticoagulation is being started and we will obtain an emergent CTA.
   Hypotension likely related to reduced intravascular volume (CVP is low
   and there are significant swings in CVP with respiration) and possible
   contribution of autoPEEP (rapid respiratory rate; difficult to measure
   because he is recruiting expiratory muscles). Obstruction from PE also
   may be contributing to this problem.  Giving fluids. Started on low
   dose Propofol to try to reduce resp rate.
   On antibiotics for aspiration pneumonia.
   Mental status has remained altered; benzos still present in serum.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 90 minutes
   Patient is critically ill

2164-09-18 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2164-9-17**] 08:30 AM
 INVASIVE VENTILATION - START [**2164-9-17**] 08:30 AM
 INVASIVE VENTILATION - STOP [**2164-9-17**] 08:32 AM
 BRONCHOSCOPY - At [**2164-9-17**] 09:00 AM
 MULTI LUMEN - START [**2164-9-17**] 09:56 AM
 TRANSTHORACIC ECHO - At [**2164-9-17**] 03:07 PM
 ARTERIAL LINE - START [**2164-9-17**] 07:00 PM
   - intubated in AM
   - bilateral PE found on CT chest and bilateral DVT found on LENI,
   started on tPa
   - had episode of bleeding on tPa, tPa stopped, ENT consulted - packed
   pt's bleed, will check on it in a day or two.  treat as foreign object,
   pt already on zosyn
   - tPa restarted and completed, on heparin now
   - bcx - GPC in pairs in clusters - started vanco
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-18**] 03:47 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-18**] 03:47 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Propofol - [**2164-9-17**] 08:30 AM
   Fentanyl - [**2164-9-17**] 10:00 AM
   Heparin Sodium - [**2164-9-17**] 12:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-18**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 101 (94 - 145) bpm
   BP: 110/68(82) {88/55(-13) - 134/85(99)} mmHg
   RR: 29 (13 - 38) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.2 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 3 (3 - 14)mmHg
   Total In:
                                                                  9,234 mL
                                                                    600 mL
   PO:
   TF:
                                                                     89 mL
                                                                     96 mL
   IVF:
                                                                  8,955 mL
                                                                    504 mL
   Blood products:
   Total out:
                                                                  4,630 mL
                                                                    550 mL
   Urine:
                                                                  4,630 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,604 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 95%
   ABG: 7.48/27/64/20/-1
   Ve: 9.7 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General: intubated, sedated
   HEENT: Pupils reactive, sclera anicteric, MMM
   Neck: Supple, no LAD
   Lungs: bibasilar crackles, difficult to assess
   CV: Irregularly irregular and tachy to 100's, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   321 K/uL
   11.9 g/dL
   110 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.3 mEq/L
   15 mg/dL
   115 mEq/L
   148 mEq/L
   34.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2164-9-16**]  05:50 PM
                             [**2164-9-17**]  04:50 AM
                             [**2164-9-17**]  09:58 AM
                             [**2164-9-17**]  12:04 PM
                             [**2164-9-17**]  02:38 PM
                             [**2164-9-17**]  03:38 PM
                             [**2164-9-17**]  06:49 PM
                             [**2164-9-17**]  10:16 PM
                             [**2164-9-17**]  11:51 PM
                             [**2164-9-18**]  05:28 AM
   WBC
   9.9
   12.4
   Hct
   39.5
   33.5
   35.4
   36.7
   34.8
   Plt
   330
   321
   Cr
   0.7
   0.6
   TropT
   0.01
   TCO2
   29
   28
   26
   18
   21
   Glucose
   111
   110
   Other labs: PT / PTT / INR:16.9/100.1/1.5, CK / CKMB /
   Troponin-T://0.01, ALT / AST:24/40, Alk Phos / T Bili:65/1.2,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:286 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   .
   Echo ([**9-17**]) - LVEF >55%, right ventricular cavity is moderately dilated
   with severe global free wall hypokinesis, consistent with PE
   .
   Bcx ([**9-17**])
 gram positive cocci in pairs and clusters
   CXR
 b/l pleural effusions
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Found to have b/l PE, s/p tPa treatment, now on
   heparin drip.  Currently intubated and sedated.  Will try pt on trial
   of PS at 15/5 as patient saturated well on AC.  Pt
s secretions likely
   from aspiration pna and sinusitis. CXR showed b/l pleural effusions,
   likely due to large volumes of fluids pt received yesterday.
   - cont Zosyn for aspiration PNA
   - heparin drip
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - propofol and fentanyl for sedation, avoid benzos
   - VAP bundle
   - cont to trend WBC and fever curve
   .
   # Hypotension
 likely in setting of likely PE.  SBPs have been stable
   overnight in 100-110s.  Other possible causes can be due to being
   intubated with a PEEP of 10, being aggressively bagged prior to
   intubation, sedation
   - continue to monitor BP
   .
   # Bleeding
 pt had bleeding from anterior pharyngeal area during tPa
   treatment.  Bleeding likely secondary to trauma sustained during
   aggressive suctioning prior to intubation.  ENT was consulted to help
   control bleed since patient would likely need heparin drip after the
   tPa for the PE.  ENT packed patient
s nose, said would follow up in 2
   days to reassess.  In the meantime patient is safe to receive heparin.
   - packing is considered foreign object, need to cover for staph and
   strep.  Pt is already on zosyn which should provide adequate coverage.
   .
   # Aspiration pneumonia
 patient had thick secretions that were unable
   to be suctioned and loss of gag and cough reflex prior to intubation,
   aspiration pneumonia is a consideration.
   - continue zosyn
   - CXR
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - continue dilt given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Unable to assess right now as patient is
   sedated.  [**Name (NI) 8198**] pt has been somnolent for the last 3 days on the
   floors. He did receive >400mg valium in the ICU during his stay.
   CT-head was negative.
   - will taper down sedation in order to assess mental status time to
   time
   - cont to monitor
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Currently
   lethargic from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-17**] 10:37 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2164-09-18 09:16:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypotension, pulmonary
   embolism, hypernatremia, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Blood culture reported positive for gram positive cocci. Vanco started.
   Hemodynamics and gas exchange somewhat improved following thrombolysis.
   Now down to 50% supplemental oxygen. On heparin.
   Echocardiogram yesterday showed hypokinetic RV.
   Bleeding from nasopharynx controlled with packing.
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2164-9-17**] 08:30 AM
 INVASIVE VENTILATION - START [**2164-9-17**] 08:30 AM
 INVASIVE VENTILATION - STOP [**2164-9-17**] 08:32 AM
 BRONCHOSCOPY - At [**2164-9-17**] 09:00 AM
 MULTI LUMEN - START [**2164-9-17**] 09:56 AM
 TRANSTHORACIC ECHO - At [**2164-9-17**] 03:07 PM
 ARTERIAL LINE - START [**2164-9-17**] 07:00 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-18**] 03:47 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-18**] 03:47 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Fentanyl - [**2164-9-17**] 10:00 AM
   Heparin Sodium - [**2164-9-17**] 12:25 PM
   Other medications:
   Thiamine, folic acid, ASA, diltiazem, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-18**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 101 (94 - 145) bpm
   BP: 110/68(82) {88/55(-13) - 134/85(99)} mmHg
   RR: 29 (24 - 37) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.2 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 3 (3 - 14)mmHg
   Total In:
                                                                  9,234 mL
                                                                    658 mL
   PO:
   TF:
                                                                     89 mL
                                                                    120 mL
   IVF:
                                                                  8,955 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                  4,630 mL
                                                                    550 mL
   Urine:
                                                                  4,630 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,604 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 96%
   ABG: 7.48/27/64/20/-1
   Ve: 16.6 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube, Nasal packing
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Diminished: At bases bilaterally)
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   321 K/uL
   110 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.3 mEq/L
   15 mg/dL
   115 mEq/L
   148 mEq/L
   34.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2164-9-16**]  05:50 PM
                             [**2164-9-17**]  04:50 AM
                             [**2164-9-17**]  09:58 AM
                             [**2164-9-17**]  12:04 PM
                             [**2164-9-17**]  02:38 PM
                             [**2164-9-17**]  03:38 PM
                             [**2164-9-17**]  06:49 PM
                             [**2164-9-17**]  10:16 PM
                             [**2164-9-17**]  11:51 PM
                             [**2164-9-18**]  05:28 AM
   WBC
   9.9
   12.4
   Hct
   39.5
   33.5
   35.4
   36.7
   34.8
   Plt
   330
   321
   Cr
   0.7
   0.6
   TropT
   0.01
   TCO2
   29
   28
   26
   18
   21
   Glucose
   111
   110
   Other labs: PT / PTT / INR:16.9/100.1/1.5, CK / CKMB /
   Troponin-T://0.01, ALT / AST:24/40, Alk Phos / T Bili:65/1.2,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:286 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR: bilateral pleural effusions; possibly some atelectasis at
   bases
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ACIDOSIS
   ===================
   Gas exchange improving. We reduced FIO2 to 0.4 on rounds and switched
   patient to pressure control. Continues to show a primary respiratory
   alkalosis, probably due to the PE and volume overload.  Would begin
   diuresis; aim for negative fluid balance of [**2-9**].5 L.
   Continue calcium blockers and beta blockers for Afib and rate control.
   Patient with nongap acidosis, probably related to fluid resuscitation
   with NS.
   Unable to assess mental status on propofol. Continuing sedation until
   nasal packing removed.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-17**] 10:37 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-09-19 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2164-9-18**] 03:00 PM
   .
   -on heparin drip for PE's with PTT approx 70.
   .
   -Put out 600cc to first dose of lasix 20mg; second 20mg dose given
   [**2185**].
   -SBP decreased to 70s-80s with second lasix dose. Pressures also seem
   sensitive to propofol (held b/c of low BP-pt not requiring sedation,
   unable to get fentanyl/versed due to benzo OD). Given back 2L NS even
   though still fluid positive with stable SBPs 110s-120s and lactate
   2.6--> 1.4
   .
   Vent changes: AC 500x 20 with FiO2 50% and PEEP 10: ABG 7.49/30/130/23
   --> decreased to AC 550x20 with FiO2 40% PEEP 10 --> ABG: 7.48/32/86/25
   and 7.43/37/121/25.
   -PEEP decreased to 5 this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-18**] 08:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-19**] 03:56 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2164-9-18**] 09:00 PM
   Fentanyl - [**2164-9-18**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-19**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.4
C (99.4
   HR: 95 (95 - 125) bpm
   BP: 110/74(87) {86/55(65) - 143/89(108)} mmHg
   RR: 28 (14 - 38) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.7 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 6 (3 - 15)mmHg
   Total In:
                                                                  4,826 mL
                                                                    864 mL
   PO:
   TF:
                                                                    703 mL
                                                                    378 mL
   IVF:
                                                                  3,738 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    275 mL
   Urine:
                                                                  2,080 mL
                                                                    275 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  2,721 mL
                                                                    589 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 452 (452 - 1,047) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.43/37/121/22/0
   Ve: 14.5 L/min
   PaO2 / FiO2: 303
   97% on AC 550x20 with FiO2 40% PEEP 10
   Physical Examination
   General: intubated, sedated
   HEENT: L pupil 3mm, R pupil 2mm; reactive, sclera anicteric
   Neck: Supple, no LAD
   Lungs: bibasilar crackles, difficult to assess
   CV: Irregularly irregular and tachycardic, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2-3+ pitting edema; no
   leg edema
   Labs / Radiology
   345 K/uL
   11.4 g/dL
   135 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   17 mg/dL
   116 mEq/L
   147 mEq/L
   33.8 %
   11.2 K/uL
        [image002.jpg]
                             [**2164-9-18**]  05:28 AM
                             [**2164-9-18**]  10:19 AM
                             [**2164-9-18**]  12:36 PM
                             [**2164-9-18**]  03:06 PM
                             [**2164-9-18**]  06:19 PM
                             [**2164-9-18**]  06:20 PM
                             [**2164-9-18**]  09:15 PM
                             [**2164-9-18**]  11:44 PM
                             [**2164-9-19**]  12:03 AM
                             [**2164-9-19**]  04:29 AM
   WBC
   12.4
   10.3
   11.2
   Hct
   34.8
   33.1
   32.5
   33.8
   Plt
   [**Telephone/Fax (3) 8252**]
   Cr
   0.6
   0.8
   0.8
   0.6
   TCO2
   24
   25
   23
   25
   25
   Glucose
   110
   128
   128
   135
   Other labs: PT / PTT / INR:14.5/58.4/1.3, CK / CKMB /
   Troponin-T://0.01, ALT / AST:24/40, Alk Phos / T Bili:65/1.2,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:256 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   .
   BCx [**2164-9-17**]-  GPC in pairs/clusters
 speciation pending
   .
   BCx  [**9-15**], [**9-16**], [**9-18**]
 NGTD
   .
   UCx
 NGTD
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   .
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and sedated. Found to have
   b/l PE, s/p tPa treatment, now on heparin drip.  Pt currently being
   treated for suspected aspiration PNA. [**Month (only) 8**] also be fluid overloaded but
   given PE
s, pt is preload dependent and blood pressure dropped with
   Lasix
   - Hold diuresis for today
   - cont Zosyn for aspiration PNA
   - heparin drip for PE
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - try to wean propofol to better assess pt
s mental status and avoid
   over sedation; avoid versed as pt may still have benzo overdose
   although last valium dose was [**9-10**].
   - sputum cx
   - cont to trend WBC and fever curve
   .
   # Hypotension
 likely in setting of likely PE. Pt had episodes of
   Hypotension following Lasix and received fluid with subsequent stable
   SBPs.  Pt with GPC positive BCx so may be element of sepsis. Other
   possible causes can be due to being intubated with a PEEP of 10.
   -assess BP on PEEP 5
   - continue vanco for GPC bacteremia pending speciation
   - continue to monitor BP
   .
   # Bleeding
 Hct stable with no new episodes of bleeding. Pt had
   bleeding from anterior pharyngeal area during tPa treatment.  Bleeding
   likely secondary to trauma sustained during aggressive suctioning prior
   to intubation.  Patient is safe to receive heparin.
   -ENT to re-evaluate pt today
 will f/u with them.
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - continue diltiazem given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Unable to assess right now as patient is
   sedated.  Reportedly pt has been somnolent throughout floor stay. He
   did receive >400mg valium in the ICU during his stay with last dose
   [**9-10**]. CT-head was negative.
   - wean propofol as tolerated to try to assess mental status time to
   time
   -Blood tox to evaluate if benzo
s are still present in blood
   - cont to monitor
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Currently
   lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
 change to PO as pt has OG tube
   - Social work following
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-17**] 10:37 PM 20 mL/hour
   Glycemic Control:  none
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen Left IJ - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: none, currently
   Code status: Full code
   Disposition: ICU:

2164-09-19 09:45:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pulmonary embolism,
   encephalopathy, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Blood pressure dropped yesterday, requiring IV fluids. Temp up to 102
   degrees at that time. Sedation decreased.
   O2 sats good on FIO2 40%. Minute ventilation improved this AM with less
   hyperventilation.
   24 Hour Events:
 FEVER - 102.0
F - [**2164-9-18**] 03:00 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-19**] 03:56 AM
   Vancomycin - [**2164-9-19**] 08:03 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2164-9-18**] 09:00 PM
   Fentanyl - [**2164-9-18**] 09:45 PM
   Pantoprazole (Protonix) - [**2164-9-19**] 08:03 AM
   Other medications:
   Thiamine, colace, diltiazem, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-19**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38
C (100.4
   HR: 116 (95 - 125) bpm
   BP: 136/88(104) {86/55(65) - 143/89(108)} mmHg
   RR: 33 (14 - 38) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.7 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 12 (3 - 15)mmHg
   Total In:
                                                                  4,826 mL
                                                                  1,221 mL
   PO:
   TF:
                                                                    703 mL
                                                                    472 mL
   IVF:
                                                                  3,738 mL
                                                                    589 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    475 mL
   Urine:
                                                                  2,080 mL
                                                                    475 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  2,721 mL
                                                                    746 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 452 (452 - 452) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.43/37/121/22/0
   Ve: 14.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   345 K/uL
   135 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   17 mg/dL
   116 mEq/L
   147 mEq/L
   33.8 %
   11.2 K/uL
        [image002.jpg]
                             [**2164-9-18**]  05:28 AM
                             [**2164-9-18**]  10:19 AM
                             [**2164-9-18**]  12:36 PM
                             [**2164-9-18**]  03:06 PM
                             [**2164-9-18**]  06:19 PM
                             [**2164-9-18**]  06:20 PM
                             [**2164-9-18**]  09:15 PM
                             [**2164-9-18**]  11:44 PM
                             [**2164-9-19**]  12:03 AM
                             [**2164-9-19**]  04:29 AM
   WBC
   12.4
   10.3
   11.2
   Hct
   34.8
   33.1
   32.5
   33.8
   Plt
   [**Telephone/Fax (3) 8252**]
   Cr
   0.6
   0.8
   0.8
   0.6
   TCO2
   24
   25
   23
   25
   25
   Glucose
   110
   128
   128
   135
   Other labs: PT / PTT / INR:14.5/58.4/1.3, CK / CKMB /
   Troponin-T://0.01, ALT / AST:24/40, Alk Phos / T Bili:65/1.2,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:256 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   HYPOTENSION
   FEVER
   ==================
   PEEP reduced to 5 cm H2O; O2 sats holding for now. Continue on 40%
   oxygen. Would like to drop sedation today.
   Hypotension yesterday may have related to sedation and/or ongoing
   pre-load dependence.
   Ongoing fever of unclear etiology. PE may cause fever; we suspect he
   had aspiration pneumonia as well, which is being treated with
   antibiotics. One blood culture positive for gram positive cooci.
   Patient on vanco. Subsequent cultures have been negative.
   Heart rate in 110-120 range in Afib.
   Recheck tox screen for benzodiazepines.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-19**] 05:36 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-09-20 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2164-9-19**] 08:00 PM
   - blood cx [**9-17**] coag neg staph ([**2-12**]) but continuing vanc until tomorrow
   given his poor status
   - desat down to 80s around noon -> increased FiO2 to 100 and PEEP 10
   with gas changing from 7.42/40/101/27 to 7.5/33/240/27, rate still 20
   and PEEP 12
   - had increased RR to 30s but maintained good sats around 3, RR down
   - plan for repeat CTA tomorrow given desats and episodes of
   hyperventilation
   - urine and serum benzos still positive
   - finally reached family contact, sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]; ICU
   consent filled out and signed over the phone
   - put on oncology electrolyte sliding scales
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-19**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-20**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-9-19**] 08:03 AM
   Heparin Sodium - [**2164-9-19**] 12:39 PM
   Fentanyl - [**2164-9-19**] 02:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-20**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.4
C (101.1
   HR: 94 (91 - 123) bpm
   BP: 113/72(86) {99/64(76) - 136/88(104)} mmHg
   RR: 27 (18 - 37) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.7 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 9 (6 - 15)mmHg
   Total In:
                                                                  3,253 mL
                                                                    907 mL
   PO:
   TF:
                                                                  1,314 mL
                                                                    416 mL
   IVF:
                                                                  1,489 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  1,335 mL
                                                                    368 mL
   Urine:
                                                                  1,335 mL
                                                                    368 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,918 mL
                                                                    539 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/34/94.[**Numeric Identifier 299**]/24/2
   Ve: 15.8 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General: intubated, sedated
   HEENT: L pupil 3mm, R pupil 2mm; reactive, sclera anicteric
   Neck: Supple, no LAD
   Lungs: bibasilar crackles, difficult to assess
   CV: Irregularly irregular and tachycardic, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2-3+ pitting edema; no
   leg edema
   Labs / Radiology
   354 K/uL
   10.6 g/dL
   120 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.3 mEq/L
   17 mg/dL
   114 mEq/L
   146 mEq/L
   32.6 %
   10.9 K/uL
        [image002.jpg]
                             [**2164-9-18**]  06:20 PM
                             [**2164-9-18**]  09:15 PM
                             [**2164-9-18**]  11:44 PM
                             [**2164-9-19**]  12:03 AM
                             [**2164-9-19**]  04:29 AM
                             [**2164-9-19**]  12:49 PM
                             [**2164-9-19**]  02:18 PM
                             [**2164-9-19**]  06:39 PM
                             [**2164-9-20**]  05:32 AM
                             [**2164-9-20**]  06:02 AM
   WBC
   10.3
   11.2
   10.9
   10.9
   Hct
   32.5
   33.8
   31.5
   32.6
   Plt
   329
   345
   362
   354
   Cr
   0.8
   0.8
   0.6
   0.6
   0.6
   TCO2
   25
   25
   27
   27
   27
   Glucose
   128
   128
   135
   123
   120
   Other labs: PT / PTT / INR:14.2/66.6/1.2, CK / CKMB /
   Troponin-T://0.01, ALT / AST:24/40, Alk Phos / T Bili:65/1.2,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:256 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.4 mg/dL
   UCx
 negative
   Sputum
 gram stain negative
   Blood Cx ([**9-17**])
 coag neg staph ([**2-12**])
   CXR
 right midlung atalectasis, right pleural effusion unchanged
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and sedated. Found to have
   b/l PE, s/p tPa treatment, now on heparin drip.  Pt currently being
   treated for suspected aspiration PNA. [**Month (only) 8**] also be fluid overloaded but
   given PE
s, pt is preload dependent and blood pressure dropped with
   Lasix
   - Hold diuresis for today
   - cont Zosyn for aspiration PNA
   - heparin drip for PE
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - try to wean propofol to better assess pt
s mental status and avoid
   over sedation; avoid versed as pt may still have benzo overdose
   although last valium dose was [**9-10**].
   - sputum cx
   - cont to trend WBC and fever curve
   .
   # Hypotension
 likely in setting of likely PE. Pt had episodes of
   Hypotension following Lasix and received fluid with subsequent stable
   SBPs.  Pt with GPC positive BCx so may be element of sepsis. Other
   possible causes can be due to being intubated with a PEEP of 10.
   -assess BP on PEEP 5
   - continue vanco for GPC bacteremia pending speciation
   - continue to monitor BP
   .
   # Bleeding
 Hct stable with no new episodes of bleeding. Pt had
   bleeding from anterior pharyngeal area during tPa treatment.  Bleeding
   likely secondary to trauma sustained during aggressive suctioning prior
   to intubation.  Patient is safe to receive heparin.
   -ENT to re-evaluate pt today
 will f/u with them.
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - continue diltiazem given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Unable to assess right now as patient is
   sedated.  Reportedly pt has been somnolent throughout floor stay. He
   did receive >400mg valium in the ICU during his stay with last dose
   [**9-10**]. CT-head was negative.
   - wean propofol as tolerated to try to assess mental status time to
   time
   -Blood tox to evaluate if benzo
s are still present in blood
   - cont to monitor
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Currently
   lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
 change to PO as pt has OG tube
   - Social work following
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-19**] 10:52 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU

2164-09-20 11:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pulmonary embolism, altered
   mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Problems with oxygenation intermittently through the day yesterday.
   Temp up to 101.4 last night. One PEEP=12 this morning.
   24 Hour Events:
 FEVER - 101.4
F - [**2164-9-19**] 08:00 PM
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-20**] 04:00 AM
   Vancomycin - [**2164-9-20**] 08:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Heparin Sodium - [**2164-9-19**] 12:39 PM
   Fentanyl - [**2164-9-19**] 02:36 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-20**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.4
C (101.1
   HR: 116 (91 - 123) bpm
   BP: 131/88(101) {99/64(76) - 133/88(103)} mmHg
   RR: 30 (18 - 37) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.7 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 13 (7 - 15)mmHg
   Total In:
                                                                  3,258 mL
                                                                  1,675 mL
   PO:
   TF:
                                                                  1,314 mL
                                                                    681 mL
   IVF:
                                                                  1,493 mL
                                                                    694 mL
   Blood products:
   Total out:
                                                                  1,335 mL
                                                                    593 mL
   Urine:
                                                                  1,335 mL
                                                                    593 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,923 mL
                                                                  1,082 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/34/94.[**Numeric Identifier 299**]/24/2
   Ve: 10 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Not able to assess, Movement:
   Purposeful, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   354 K/uL
   120 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.3 mEq/L
   17 mg/dL
   114 mEq/L
   146 mEq/L
   32.6 %
   10.9 K/uL
        [image002.jpg]
                             [**2164-9-18**]  06:20 PM
                             [**2164-9-18**]  09:15 PM
                             [**2164-9-18**]  11:44 PM
                             [**2164-9-19**]  12:03 AM
                             [**2164-9-19**]  04:29 AM
                             [**2164-9-19**]  12:49 PM
                             [**2164-9-19**]  02:18 PM
                             [**2164-9-19**]  06:39 PM
                             [**2164-9-20**]  05:32 AM
                             [**2164-9-20**]  06:02 AM
   WBC
   10.3
   11.2
   10.9
   10.9
   Hct
   32.5
   33.8
   31.5
   32.6
   Plt
   329
   345
   362
   354
   Cr
   0.8
   0.8
   0.6
   0.6
   0.6
   TCO2
   25
   25
   27
   27
   27
   Glucose
   128
   128
   135
   123
   120
   Other labs: PT / PTT / INR:14.2/66.6/1.2, CK / CKMB /
   Troponin-T://0.01, ALT / AST:24/40, Alk Phos / T Bili:65/1.2,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:256 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.4 mg/dL
   Fluid analysis / Other labs: Toxic screen still positive for benzos.
   Imaging: CXR: small bilateral pleural effusions and basilar atelectasis
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ASPIRATION PNEUMONIA
   FEVER
   ANEMIA
   ====================
   Patient continues to have episodes of hypoxemia, temporally associated
   with drops in PEEP. Not clear why he should be PEEP sensitive at this
   point. His CXR has not been impressive for parenchymal abnormalities.
   We will obtain a Chest CT today to assess the parenchyma more closely.
   If there is not a significant alveolar process, will consider a bronch
   to remove mucus plugs. If bronch is unimpressive for secretions,
   consider repeat LENI's; he may be throwing additional emboli if clot
   still present.
   Hct stable. No evidence of significant bleeding. Continues on heparin.
   Heart rate reasonably controlled on heparin.
   Mental status may be a bit better today; opens his eyes to command. Try
   to wean sedation today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-20**] 07:11 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-09-21 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2164-9-20**] 08:59 AM
   via PICC
 URINE CULTURE - At [**2164-9-20**] 08:59 AM
 BRONCHOSCOPY - At [**2164-9-20**] 02:00 PM
 BAL FLUID CULTURE - At [**2164-9-20**] 02:49 PM
 FEVER - 102.0
F - [**2164-9-20**] 08:00 AM
   .
   - Bronched today, BAL done in RUL/anterior segment.  Moderately thick
   mucus in L mainstem bronchus, otherwise airways clear.
   - desaturated after bronchoscopy to low 80s, placed on FiO2 of 100%,
   now down to 50%. No changes to vent settings overnight.
   .
   - suctioned ~100cc of bloody material, ENT re-consulted to evaluate for
   restarting of nasopharyngeal bleeding after packing, did not return
   call.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-20**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-21**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2164-9-20**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-21**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.1
C (100.6
   HR: 81 (81 - 123) bpm
   BP: 101/65(79) {100/61(74) - 140/88(106)} mmHg
   RR: 28 (18 - 40) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.7 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 7 (7 - 14)mmHg
   Total In:
                                                                  3,599 mL
                                                                  1,329 mL
   PO:
   TF:
                                                                  1,230 mL
                                                                    445 mL
   IVF:
                                                                  1,869 mL
                                                                    784 mL
   Blood products:
   Total out:
                                                                  1,113 mL
                                                                    305 mL
   Urine:
                                                                  1,113 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,486 mL
                                                                  1,024 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.46/35/86/24/1 (respiratory alkalosis)
   Ve: 16.8 L/min
   PaO2 / FiO2: 172
   Satting 95% at 550 x 20 with FiO2 50% and PEEP 10 with ABG above
   Physical Examination
   General: intubated, sedated
   HEENT: L pupil 3mm, R pupil 2mm; reactive, sclera anicteric
   Neck: Supple, no LAD
   Lungs: bibasilar crackles, difficult to assess
   CV: Irregularly irregular and tachycardic, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2-3+ pitting edema; no
   leg edema
   Labs / Radiology
   349 K/uL
   10.4 g/dL
   120 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   15 mg/dL
   111 mEq/L
   144 mEq/L
   29.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2164-9-19**]  12:03 AM
                             [**2164-9-19**]  04:29 AM
                             [**2164-9-19**]  12:49 PM
                             [**2164-9-19**]  02:18 PM
                             [**2164-9-19**]  06:39 PM
                             [**2164-9-20**]  05:32 AM
                             [**2164-9-20**]  06:02 AM
                             [**2164-9-20**]  05:08 PM
                             [**2164-9-20**]  05:16 PM
                             [**2164-9-21**]  05:56 AM
   WBC
   11.2
   10.9
   10.9
   10.9
   Hct
   33.8
   31.5
   32.6
   29.4
   Plt
   [**Telephone/Fax (3) 8281**]49
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   25
   27
   27
   27
   26
   Glucose
   135
   123
   120
   112
   120
   Other labs: PT / PTT / INR:14.0/75.3/1.2, CK / CKMB /
   Troponin-T://0.01, ALT / AST:24/40, Alk Phos / T Bili:65/1.2,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:256 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   .
   CXR [**2164-9-21**]: pending
   .
   CT Chest w and w/o contrast: pending
   .
   [**9-20**] Rapid respiratory viral screen and culture: pending
   .
   [**9-20**] BAL: 1+ PMNs, no microorganisms seen,
   .
   [**9-17**] BCx
 coag negative staph, sensitivities pending
   .
   [**9-18**], [**9-20**] BCx
 NGTD
   .
   [**9-19**] Sputum cx
 NGTD
   .
   [**9-18**] UCx
 NGTD
   Assessment and Plan
 EPISTAXIS (NOSEBLEED)
PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   .
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and sedated, maintained on
   AC with no changes to vent last night.  Found to have b/l PE on CTA,
   s/p tPa treatment, now on heparin drip.  Pt is also currently being
   treated for suspected aspiration PNA.  Also on the differential is
   volume overload.
   -
   - Hold diuresis today  for hypotension
   - cont Zosyn for aspiration PNA
   - heparin drip for PE
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - try to wean sedation to better assess pt
s mental status and avoid
   over sedation; avoid versed as pt may still have benzo overdose even
   though last valium dose was [**9-10**].
   - f/u sputum cx
   - cont to trend WBC and fever curve
   .
   # Fever
 pt with continued fever despite negative cultures. [**Month (only) 8**] be due
   to aspiration PNA.
   -continue zosyn
   -LFTs to evaluate for possible ICU cholecystits
   -f/u cultures
   -tylenol
   .
   # Hypotension
 BP stable 100s-140s overnight. Likely in setting of PE.
   Pt had episodes of Hypotension following Lasix and received fluid with
   subsequent stable SBPs.  GPCs in [**9-17**] culture most likely contamination
   so sepsis unlikely.  Other possible causes can be due to being
   intubated with a PEEP of 10.
   - d/c vanco
   - continue to monitor BP
   .
   # Bleeding
 Hct stable slightly decreased and 100cc blood suctuned
   yesterday. Had scant amount of bleeding from nose last night per NSG
   notes. ENT re-consulted but did not hear back. Pt had bleeding from
   anterior pharyngeal area during tPa treatment.  Bleeding likely
   secondary to trauma sustained during aggressive suctioning prior to
   intubation.  Patient is safe to receive heparin.
   -continue to monitor Hct
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - continue diltiazem given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Unable to assess right now as patient is
   sedated.  Reportedly pt has been somnolent throughout floor stay. He
   did receive >400mg valium in the ICU during his stay with last dose
   [**9-10**]. CT-head was negative.
   - try to wean sedation to better assess pt
s mental status, hopefully
   decrease agitation
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Currently
   lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-20**] 11:46 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
 supposed to
   come today
   Code status: Full code
   Disposition : ICU

2164-09-21 11:30:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pulmonary embolism, altered
   mental status, DVT, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Results from bronch still pending. Had desats post bronchoscopy. On 50%
   oxygen overnight.
   Having moderate bleeding from nose.
   Has been hemodynamically stable.
   24 Hour Events:
 BLOOD CULTURED - At [**2164-9-20**] 08:59 AM
   via PICC
 URINE CULTURE - At [**2164-9-20**] 08:59 AM
 BRONCHOSCOPY - At [**2164-9-20**] 02:00 PM
 BAL FLUID CULTURE - At [**2164-9-20**] 02:49 PM
 FEVER - 102.0
F - [**2164-9-20**] 08:00 AM
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-21**] 04:00 AM
   Vancomycin - [**2164-9-21**] 07:50 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2164-9-20**] 03:30 PM
   Other medications:
   protonix, diltiazem, thiamine, folic acid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-21**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 117 (81 - 123) bpm
   BP: 146/95(113) {100/61(74) - 146/95(113)} mmHg
   RR: 27 (18 - 40) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.7 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 8 (7 - 14)mmHg
   Total In:
                                                                  3,599 mL
                                                                  1,930 mL
   PO:
   TF:
                                                                  1,231 mL
                                                                    663 mL
   IVF:
                                                                  1,869 mL
                                                                  1,067 mL
   Blood products:
   Total out:
                                                                  1,113 mL
                                                                    505 mL
   Urine:
                                                                  1,113 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,486 mL
                                                                  1,425 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/35/86/24/1
   Ve: 16.8 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Intubated and sedated. Chest diffusely rhonchorous. Very soft heart
   sounds, largely obscured by breath sounds.  1+ edema bilaterally.
   Labs / Radiology
   10.4 g/dL
   349 K/uL
   120 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   15 mg/dL
   111 mEq/L
   144 mEq/L
   29.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2164-9-19**]  12:03 AM
                             [**2164-9-19**]  04:29 AM
                             [**2164-9-19**]  12:49 PM
                             [**2164-9-19**]  02:18 PM
                             [**2164-9-19**]  06:39 PM
                             [**2164-9-20**]  05:32 AM
                             [**2164-9-20**]  06:02 AM
                             [**2164-9-20**]  05:08 PM
                             [**2164-9-20**]  05:16 PM
                             [**2164-9-21**]  05:56 AM
   WBC
   11.2
   10.9
   10.9
   10.9
   Hct
   33.8
   31.5
   32.6
   29.4
   Plt
   [**Telephone/Fax (3) 8281**]49
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   25
   27
   27
   27
   26
   Glucose
   135
   123
   120
   112
   120
   Other labs: PT / PTT / INR:14.0/75.3/1.2, CK / CKMB /
   Troponin-T://0.01, ALT / AST:24/40, Alk Phos / T Bili:65/1.2,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:256 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: streaky bibailar infiltrates/atelectasis. Low lung
   volumes. No major change from prior film.
   Assessment and Plan
 EPISTAXIS (NOSEBLEED)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ANEMIA
   =====================
   Oxygenation a bit worse following BAL/bronchoscopy. FIO2 now down to
   40% today; PEEP reduced to 8. Propofol turned off to reassess his
   mental status and his ability provide his own respiratory needs.
   Clinically, it appears that the clot has been very slow to clear
   despite TPA. Would consider checking anti-thrombin III level.
   Hct is drifing down. Not at transfusion threshold.
   Continues to be febrile. Recheck LFTs for possible acalculous
   cholecystitis. Awaiting PCP results from BAL.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-21**] 08:03 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2164-09-21 14:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2164-9-20**] 08:59 AM
   via PICC
 URINE CULTURE - At [**2164-9-20**] 08:59 AM
 BRONCHOSCOPY - At [**2164-9-20**] 02:00 PM
 BAL FLUID CULTURE - At [**2164-9-20**] 02:49 PM
 FEVER - 102.0
F - [**2164-9-20**] 08:00 AM.
   .
   - Bronched yesterday BAL done in RUL/anterior segment.  Moderately
   thick mucus in L mainstem bronchus, otherwise airways clear.
   - desaturated after bronchoscopy to low 80s, placed on FiO2 of 100%,
   now down to 50%. No changes to vent overnight.
   .
   - suctioned ~100cc of bloody material, ENT called to evaluate for
   restart of nasopharyngeal bleeding after packing, did not answer us
   back.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-21**] 07:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-21**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2164-9-21**] 12:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-21**] 02:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 81 (81 - 123) bpm
   BP: 146/93(111) {100/61(74) - 159/100(120)} mmHg
   RR: 23 (21 - 40) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.7 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 12 (7 - 12)mmHg
   Total In:
                                                                  3,599 mL
                                                                  2,423 mL
   PO:
   TF:
                                                                  1,231 mL
                                                                    856 mL
   IVF:
                                                                  1,869 mL
                                                                  1,317 mL
   Blood products:
   Total out:
                                                                  1,113 mL
                                                                    700 mL
   Urine:
                                                                  1,113 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,486 mL
                                                                  1,723 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/35/86/24/1
   Ve: 16.8 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General: intubated, sedated
   HEENT: L pupil 3mm, R pupil 2mm; blood clotting in L nostril
   Neck: Supple, no LAD
   Lungs: apices clear, bibasilar crackles, difficult to assess
   CV: Irregularly irregular and tachycardic, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 1+ pulses; arms with 2-3+ pitting edema; 1+
   foot edema
   Labs / Radiology
   349 K/uL
   10.4 g/dL
   120 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   15 mg/dL
   111 mEq/L
   144 mEq/L
   29.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2164-9-19**]  12:03 AM
                             [**2164-9-19**]  04:29 AM
                             [**2164-9-19**]  12:49 PM
                             [**2164-9-19**]  02:18 PM
                             [**2164-9-19**]  06:39 PM
                             [**2164-9-20**]  05:32 AM
                             [**2164-9-20**]  06:02 AM
                             [**2164-9-20**]  05:08 PM
                             [**2164-9-20**]  05:16 PM
                             [**2164-9-21**]  05:56 AM
   WBC
   11.2
   10.9
   10.9
   10.9
   Hct
   33.8
   31.5
   32.6
   29.4
   Plt
   [**Telephone/Fax (3) 8281**]49
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   25
   27
   27
   27
   26
   Glucose
   135
   123
   120
   112
   120
   Other labs: PT / PTT / INR:14.0/75.3/1.2, CK / CKMB /
   Troponin-T://0.01, ALT / AST:24/40, Alk Phos / T Bili:65/1.2,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:256 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   .
   CXR [**2164-9-21**]: persistent bibasilar infiltrates
   .
   CT Chest w/ and w/o contrast:  improvement of large b/l pulm emboli
   with resolution of main branch emboli and decreased right heart strain.
   Slight decrease in size of right pleural effusion with overlying
   atelectasis and new consolidation is noted with new L pleural effusion
   and consolidation and new ground-glass opacity and consolidation in
   lingular segment. RML consolidation is stable.
   .
   [**2164-9-20**]: Rapid respiratory viral screen and culture: pending
   .
   [**2164-9-20**]: BAL 1+ PMNs, no microorganisms seen, no fungus isolated,
   cultures and PCP [**Name Initial (PRE) 1612**]
   .
   [**2164-9-17**] BCx
 coag negative staph, sensitivities pending
   .
   [**9-18**], [**9-20**] BCx
 NGTD
   .
   [**9-19**] sputum cx
 NGTD
   .
   [**9-18**] Ucx - NGTD
   Assessment and Plan
 EPISTAXIS (NOSEBLEED)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   .
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and sedated, maintained on
   AC with no changes to vent last night.  Found to have b/l PE on CTA,
   s/p tPa treatment, now on heparin drip.  Pt is also currently being
   treated for suspected aspiration PNA.  Also on the differential is
   volume overload.   FiO2 decreased today to 40% and PEEP to 8.
   - Hold diuresis today  for hypotension
   - cont Zosyn for aspiration PNA
   - heparin drip for PE
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - try to wean sedation to better assess pt
s mental status and avoid
   over sedation; avoid versed as pt may still have benzo overdose even
   though last valium dose was [**9-10**].
   - f/u sputum cx
   - cont to trend WBC and fever curve
   -HIV status: will call PCP to determine if it has been discussed
   .
   # Fever
 pt with continued fever despite negative cultures. [**Month (only) 8**] be due
   to aspiration PNA or PCP.
   [**Name10 (NameIs) 427**] zosyn
   -LFTs to evaluate for acalculous cholecystitis
   -f/u cultures
   -tylenol for fever
   .
   # Hypotension
BP stable 100s-140s. Likely in setting of PE. Pt had
   episodes of hypotension following Lasix and received fluid with
   subsequent stable SBPs.  GPCs in [**9-17**] culture most likely contamination
   so sepsis less likely. Other possible causes can be due to being
   intubated with a PEEP of 10.
   - d/c vancomycin
   - continue to monitor BP
   .
   # Bleeding
 Hct slightly decreased and 100cc blood suctioned
   yesterday. Continues to have oozing from nose. Pt had bleeding from
   anterior pharyngeal area during tPa treatment.  Bleeding likely
   secondary to trauma sustained during aggressive suctioning prior to
   intubation.  Patient is safe to receive heparin. Clot has been slow to
   clear
   -Anti-thrombin III sent
   -ENT re-consulted
   -Monitor Hct
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - continue diltiazem given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Unable to assess right now as patient is
   sedated.  Reportedly pt has been somnolent throughout floor stay. He
   did receive >400mg valium in the ICU during his stay with last dose
   [**9-10**]. CT-head was negative.
   - try to wean sedation to better assess pt
s mental status, hopefully
   decrease agitation
   - benzos still positive in blood and urine
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Currently
   lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
 change to PO as pt has OG tube
   - Social work following
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-21**] 08:03 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU

2164-09-22 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2164-9-21**] 11:08 PM
 FEVER - 102.1
F - [**2164-9-21**] 11:00 PM
   -ENT saw L middle turbinate bleed - they packed it. If rebleeds, give 3
   sprays afrin b/l and hold pressure 15 min. If continues to bleed, call
   ENT.
   -FiO2 40% and PEEP 8: no ABG
   -@ 1721: AC 550 x 20 with FiO2 50% and PEEP: 5 - ABG: 7.51/34/112/28
   -Pt became very tachypneic (RR 40s) on CPAP/PS of [**1-12**] - put back on
   AC.
   -0300: Pt had desat to 87% on AC 550x20 with FiO2 40% and PEEP 5
   (increased sedation with no effect, ABG:7.45/39/59/28, CXR unchanged,
   exam unchanged, much secretions removed) --> increased to FiO2 100%
   with SaO2 100%.
   -Increased HR and BP --> Lasix 10mg IV at 1500: +1.7L at 2300 --> 10mg
   IV lasix -->
   -Episode of bloody urine - abd exam benign. No increased bleeding from
   nose. PTT 65, Hct 30.8 (stable); Pt apparently had episode earlier in
   afternoon (housestaff unaware). Most likely from clot released.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-21**] 07:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-22**] 03:27 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2164-9-21**] 12:20 PM
   Furosemide (Lasix) - [**2164-9-21**] 11:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-22**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.2
C (99
   HR: 111 (83 - 117) bpm
   BP: 126/69(89) {106/68(82) - 159/104(123)} mmHg
   RR: 21 (20 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 5 (3 - 13)mmHg
   Total In:
                                                                  3,801 mL
                                                                  1,020 mL
   PO:
   TF:
                                                                  1,444 mL
                                                                    433 mL
   IVF:
                                                                  1,747 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                  1,180 mL
   Urine:
                                                                  2,050 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,751 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 182 (182 - 182) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated, No Spon Resp
   PIP: 22 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/37/84.[**Numeric Identifier 117**]/25/3
   Ve: 10.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General: intubated, sedated
   HEENT: L pupil 3mm, R pupil 2mm; blood clotting in L nostril
   Neck: Supple, no LAD
   Lungs: apices clear, bibasilar crackles, difficult to assess
   CV: Irregularly irregular and tachycardic, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 1+ pulses; arms with 2-3+ pitting edema; 1+
   foot edema
   Labs / Radiology
   354 K/uL
   10.5 g/dL
   118 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   14 mg/dL
   108 mEq/L
   141 mEq/L
   30.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2164-9-20**]  05:08 PM
                             [**2164-9-20**]  05:16 PM
                             [**2164-9-21**]  05:56 AM
                             [**2164-9-21**]  05:12 PM
                             [**2164-9-21**]  05:30 PM
                             [**2164-9-21**]  07:14 PM
                             [**2164-9-21**]  10:31 PM
                             [**2164-9-22**]  02:42 AM
                             [**2164-9-22**]  04:00 AM
                             [**2164-9-22**]  04:52 AM
   WBC
   10.9
   12.1
   10.1
   Hct
   29.4
   31.0
   30.8
   29.9
   30.5
   Plt
   349
   380
   354
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   26
   28
   28
   28
   Glucose
   112
   120
   113
   118
   Other labs: PT / PTT / INR:14.2/75.9/1.2, CK / CKMB /
   Troponin-T://0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   .
   Antithrom pending
   [**2164-9-20**]: Rapid respiratory viral screen negative; culture: pending
   .
   [**2164-9-20**]: BAL 1+ PMNs, no microorganisms seen, no fungus isolated, PCP
   negative, and cultures pending
   .
   [**2164-9-17**] BCx
 coag negative staph, sensitivities pending
   .
   [**9-18**], [**9-20**] BCx
 NGTD
   .
[**9-19**] sputum cx
 OROPHARYNGEAL FLORA ABSENT.
      STAPH AUREUS COAG +.    SPARSE GROWTH.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   .
   [**9-18**] Ucx
 negative
   .
   CXR: persistent bibasilar infiltrates
   Assessment and Plan
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and sedated, maintained on
   AC with no changes to vent last night.  Found to have b/l PE on CTA,
   s/p tPa treatment, now on heparin drip.  Pt is also currently being
   treated for suspected aspiration PNA.  Also on the differential is
   volume overload.   FiO2 decreased today to 40% and PEEP to 8.
   - Hold diuresis today  for hypotension
   - cont Zosyn for aspiration PNA
   - heparin drip for PE
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - try to wean sedation to better assess pt
s mental status and avoid
   over sedation; avoid versed as pt may still have benzo overdose even
   though last valium dose was [**9-10**].
   - f/u sputum cx
   - cont to trend WBC and fever curve
   -HIV status: will call PCP to determine if it has been discussed
   .
   # Fever
 pt with continued fever despite negative cultures. [**Month (only) 8**] be due
   to aspiration PNA or PCP.
   [**Name10 (NameIs) 427**] zosyn
   -LFTs to evaluate for acalculous cholecystitis
   -f/u cultures
   -tylenol for fever
   .
   # Hypotension
BP stable 100s-140s. Likely in setting of PE. Pt had
   episodes of hypotension following Lasix and received fluid with
   subsequent stable SBPs.  GPCs in [**9-17**] culture most likely contamination
   so sepsis less likely. Other possible causes can be due to being
   intubated with a PEEP of 10.
   - d/c vancomycin
   - continue to monitor BP
   .
   # Bleeding
 Hct slightly decreased and 100cc blood suctioned
   yesterday. Continues to have oozing from nose. Pt had bleeding from
   anterior pharyngeal area during tPa treatment.  Bleeding likely
   secondary to trauma sustained during aggressive suctioning prior to
   intubation.  Patient is safe to receive heparin. Clot has been slow to
   clear
   -Anti-thrombin III sent
   -ENT re-consulted
   -Monitor Hct
   -f/u Anti thrombin III (ordered given pt slow to clear clot)
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - continue diltiazem given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Unable to assess right now as patient is
   sedated.  Reportedly pt has been somnolent throughout floor stay. He
   did receive >400mg valium in the ICU during his stay with last dose
   [**9-10**]. CT-head was negative.
   - try to wean sedation to better assess pt
s mental status, hopefully
   decrease agitation
   - benzos still positive in blood and urine
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Currently
   lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
 change to PO as pt has OG tube
   - Social work following
   -if [**First Name8 (NamePattern2) 294**] [**Last Name (NamePattern1) 2141**] is pageable on [**9-22**], ask him about discussion re: HIV
   status.
   -ICU consent at 9am when sister comes
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-21**] 11:08 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU for now

2164-09-22 11:15:00 Physician Attending Progress Note
Chief Complaint: f/u pulmonary embolism
   HPI:
   58M admitted w/ etoh withdrawl, hospital course complicated by
   development of b/l PE and hemodynamic compromise, now s/p
   thrombolysis.
   24 Hour Events:
 URINE CULTURE - At [**2164-9-21**] 11:08 PM
 FEVER - 102.1
F - [**2164-9-21**] 11:00 PM
   Developed acute hypoxia in the setting of movment.  PEEP of 5 at that
   time.  Responded to inc PEEP and transient inc in FiO2.
   Thick secretions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-21**] 07:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-22**] 03:27 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2164-9-21**] 12:20 PM
   Furosemide (Lasix) - [**2164-9-21**] 11:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-22**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38
C (100.4
   HR: 113 (83 - 115) bpm
   BP: 130/81(97) {106/68(82) - 159/104(123)} mmHg
   RR: 21 (20 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 5 (3 - 13)mmHg
   Total In:
                                                                  3,801 mL
                                                                  1,214 mL
   PO:
   TF:
                                                                  1,444 mL
                                                                    448 mL
   IVF:
                                                                  1,747 mL
                                                                    666 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                  1,400 mL
   Urine:
                                                                  2,050 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,751 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 182 (182 - 182) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated, No Spon Resp
   PIP: 21 cmH2O
   Plateau: 12 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.48/37/84.[**Numeric Identifier 117**]/25/3
   Ve: 10.7 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Intubated, currently doesn
t respond to voice.
   OP clear
   Regular S1,S2.  No m/r/g.
   b/l anterior rhonchi
   +bs. Soft. ND.
   1+ LE edema.
   Labs / Radiology
   10.5 g/dL
   354 K/uL
   118 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   14 mg/dL
   108 mEq/L
   141 mEq/L
   30.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2164-9-20**]  05:08 PM
                             [**2164-9-20**]  05:16 PM
                             [**2164-9-21**]  05:56 AM
                             [**2164-9-21**]  05:12 PM
                             [**2164-9-21**]  05:30 PM
                             [**2164-9-21**]  07:14 PM
                             [**2164-9-21**]  10:31 PM
                             [**2164-9-22**]  02:42 AM
                             [**2164-9-22**]  04:00 AM
                             [**2164-9-22**]  04:52 AM
   WBC
   10.9
   12.1
   10.1
   Hct
   29.4
   31.0
   30.8
   29.9
   30.5
   Plt
   349
   380
   354
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   26
   28
   28
   28
   Glucose
   112
   120
   113
   118
   Other labs: PT / PTT / INR:14.2/75.9/1.2, CK / CKMB /
   Troponin-T://0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Respiratory failure
 didn
t tolerate pressure support last night but
   extremely PEEP sensitive by history.  Will plan to lighten sedation and
   transition to pressure support 15 and PEEP of 10.
   Fever- BAL negative from [**9-20**].  Sputum staph aureus (MSSA) and gram neg
   but both covered.   However fever curve not trending down.   Bili nl so
   acalculous cholecystitis less likely.  Will check CKs to evaluate for
   propofol infusion syndrome.
   Epistaxis- Appreciate ENT input.  Now w/ posterior nasal packing
   Hematuria- Likely [**3-12**] ongoing heparin infusion.  Check urine sediment
   to eval for evidence of embolic dz.
   Atrial fibrillation - ? if related to PE given present on admission
   (vs. alcohol).  Rate control.
   Delerium-  Previously had been delirious on floor, plan to awake and
   evaluate today.
   ICU Care
   Nutrition: Tube feeds.
   Glycemic Control:  ISS
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: Bundle
   Comments:  ICU wake up.
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 minutes, patient is critically ill

2164-09-22 15:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -@ 1721: AC 550 x 20 with FiO2 50% and PEEP: 5 - ABG: 7.51/34/112/28
   -Pt became very tachypneic (RR 40s) on CPAP/PS of [**1-12**] - put back on
   AC.
   -0300: Pt had desat to 87% on AC 550x20 with FiO2 40% and PEEP 5
   (increased sedation with no effect, ABG:7.45/39/59/28, CXR unchanged,
   exam unchanged, much secretions removed) --> increased to FiO2 100%
   with SaO2 100%.
   -Increased HR and BP --> Lasix 10mg IV at 1500: +1.7L at 2300 --> 10mg
   IV lasix
   -Episode of bloody urine - abd exam benign. No increased bleeding from
   nose. PTT 65, Hct 30.8 (stable); Pt apparently had episode earlier in
   afternoon (housestaff unaware). Most likely from clot released.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-21**] 07:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-22**] 03:27 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2164-9-21**] 12:20 PM
   Furosemide (Lasix) - [**2164-9-21**] 11:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-22**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.2
C (99
   HR: 111 (83 - 117) bpm
   BP: 126/69(89) {106/68(82) - 159/104(123)} mmHg
   RR: 21 (20 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 5 (3 - 13)mmHg
   Total In:
                                                                  3,801 mL
                                                                  1,020 mL
   PO:
   TF:
                                                                  1,444 mL
                                                                    433 mL
   IVF:
                                                                  1,747 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                  1,180 mL
   Urine:
                                                                  2,050 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,751 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 182 (182 - 182) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated, No Spon Resp
   PIP: 22 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/37/84.[**Numeric Identifier 117**]/25/3
   Ve: 10.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General: intubated, sedated
   HEENT: pupils equal and 2mm; nares packed
   Lungs: apices clear, bibasilar crackles, difficult to assess
   CV: Irregularly irregular and tachycardic, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 1+ pulses; arms with 2-3+ pitting edema; 1+
   foot edema
   Labs / Radiology
   354 K/uL
   10.5 g/dL
   118 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   14 mg/dL
   108 mEq/L
   141 mEq/L
   30.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2164-9-20**]  05:08 PM
                             [**2164-9-20**]  05:16 PM
                             [**2164-9-21**]  05:56 AM
                             [**2164-9-21**]  05:12 PM
                             [**2164-9-21**]  05:30 PM
                             [**2164-9-21**]  07:14 PM
                             [**2164-9-21**]  10:31 PM
                             [**2164-9-22**]  02:42 AM
                             [**2164-9-22**]  04:00 AM
                             [**2164-9-22**]  04:52 AM
   WBC
   10.9
   12.1
   10.1
   Hct
   29.4
   31.0
   30.8
   29.9
   30.5
   Plt
   349
   380
   354
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   26
   28
   28
   28
   Glucose
   112
   120
   113
   118
   Other labs: PT / PTT / INR:14.2/75.9/1.2, CK / CKMB /
   Troponin-T://0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   .
   Antithrom pending
   [**2164-9-20**]: Rapid respiratory viral screen negative; culture: pending
   .
   [**2164-9-20**]: BAL 1+ PMNs, no microorganisms seen, no fungus isolated, PCP
   negative, and cultures pending
   .
   [**2164-9-17**] BCx
 coag negative staph, sensitivities pending
   .
   [**9-18**], [**9-20**] BCx
 NGTD
   .
   [**9-19**] sputum cx
 sparse growth MSSA and Klebsiella both pan-sensitive
   .
   [**9-18**] Ucx
 negative
   .
   CXR: persistent bibasilar infiltrates
   Assessment and Plan
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and sedated, maintained on
   AC after tachypnea to 40s on CPAP 12/5 trial yesterday.  Found to have
   b/l PE on CTA, s/p tPa treatment, now on heparin drip.  Pt is also
   currently being treated for suspected aspiration PNA with sputum cx
   showing sparse MSSA and Klebsiella.  Also on the differential is volume
   overload.   Plan to wean to CPAP/PS 15/10 today to see how he does.
   - cont Zosyn for aspiration PNA
   - heparin drip for PE
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - try to wean sedation to better assess pt
s mental status and avoid
   over sedation; avoid versed as pt may still have benzo overdose even
   though last valium dose was [**9-10**].
   - cont to trend WBC and fever curve
   -HIV status: PCP emailed to determine if it has been discussed
   .
   # Fever
 Pt with continued fever despite negative cultures except
   sparse growth MSSA and Klebsiella in sputum. No signs of acalculous
   chole on LFTs.  [**Month (only) 8**] be due to aspiration PNA or PCP.  [**Name10 (NameIs) **] on the
   differential is propofol infusion syndrome.
   -continue zosyn
   -f/u cultures
   -check CK to eval for propofol infusion syndrome
   -tylenol for fever
   .
   # Hypotension
Improved.  BP stable 100s-140s. Likely in setting of PE.
   Pt had episodes of hypotension following Lasix and received fluid with
   subsequent stable SBPs.  GPCs in [**9-17**] culture most likely contamination
   so sepsis less likely. Other possible causes can be due to being
   intubated with a PEEP of 10.
   - d/c vancomycin
   - continue to monitor BP
   .
   # Bleeding
 Hct slightly decreased likely secondary to hematuria and
   nose bleeds. Continues to have oozing from nose. Pt had bleeding from
   anterior pharyngeal area during tPa treatment.  Bleeding likely
   secondary to trauma sustained during aggressive suctioning prior to
   intubation. Clot has been slow to clear.  Now with hematuria.
   -ENT saw L middle turbinate bleed - they packed it. If rebleeds, give 3
   sprays afrin b/l and hold pressure 15 min. If continues to bleed, call
   ENT.
   - check U/A for sediment to eval for kidney thrombi
   -Monitor Hct
   -f/u Anti thrombin III (ordered given pt slow to clear clot)
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - continue diltiazem given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Unable to assess right now as patient is
   sedated.  Reportedly pt has been somnolent throughout floor stay. He
   did receive >400mg valium in the ICU during his stay with last dose
   [**9-10**]. CT-head was negative.
   - try to wean sedation to better assess pt
s mental status, hopefully
   decrease agitation
   - benzos still positive in blood and urine
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
 change to PO as pt has OG tube
   - Social work following
   .
   # Dispo:  ICU for now.  Will wake up and perform neuro exam today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-21**] 11:08 PM 60 mL/hour
   Glycemic Control:  monitoring
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU for now

2164-09-23 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2164-9-22**] 11:00 AM
   -lasix gtt started for diuresis goal UOP>100
   -around noon failed CPAP/PS 15/10 trial with tachypnea up to 40s
   -6pm desat to low/mid 90s and marginally responded to recruitment
   maneuvers with vent changes: PEEP 5 ->10 with same 550x20, 0.4 then
   PEEP -> 12
   - afternoon CXR as he was actively coughing and feared he moved tube
   but still in good position
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-21**] 07:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-23**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Heparin Sodium - 1,650 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2164-9-22**] 05:45 PM
   Heparin Sodium - [**2164-9-22**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-23**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 104 (86 - 122) bpm
   BP: 134/79(97) {103/63(76) - 156/99(121)} mmHg
   RR: 21 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 12 (12 - 14)mmHg
   Total In:
                                                                  3,019 mL
                                                                    974 mL
   PO:
   TF:
                                                                  1,441 mL
                                                                    427 mL
   IVF:
                                                                  1,238 mL
                                                                    417 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                  1,130 mL
   Urine:
                                                                  3,770 mL
                                                                  1,120 mL
   NG:
                                                                     10 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -761 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.53/32/74/26/4
   Ve: 13.3 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General: intubated, sedated
   HEENT: pupils equal and 2mm; nares packed
   Lungs: apices clear, bibasilar crackles, difficult to assess
   CV: Irregularly irregular and tachycardic, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 1+ pulses; arms with 2-3+ pitting edema; 1+
   foot edema
   Labs / Radiology
   369 K/uL
   10.1 g/dL
   120 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   29.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2164-9-21**]  10:31 PM
                             [**2164-9-22**]  02:42 AM
                             [**2164-9-22**]  04:00 AM
                             [**2164-9-22**]  04:52 AM
                             [**2164-9-22**]  12:05 PM
                             [**2164-9-22**]  05:32 PM
                             [**2164-9-22**]  09:45 PM
                             [**2164-9-22**]  10:16 PM
                             [**2164-9-22**]  10:54 PM
                             [**2164-9-23**]  05:17 AM
   WBC
   10.1
   9.9
   Hct
   29.9
   30.5
   31.6
   30.6
   29.0
   Plt
   354
   369
   Cr
   0.5
   0.6
   0.5
   TCO2
   28
   28
   27
   28
   Glucose
   118
   122
   120
   Other labs: PT / PTT / INR:13.9/86.1/1.2, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
BAL
 resp culture: no growth, legionella negative, PCP negative, no fungus isol
ated
BCx, UCx
 pending
   CXR - RLL atelectasis, bilateral pleural effusions, no interval changes
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 EPISTAXIS (NOSEBLEED)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and sedated, maintained on
   AC after tachypnea to 40s on CPAP 12/5 trial yesterday.  Found to have
   b/l PE on CTA, s/p tPa treatment, now on heparin drip.  Pt is also
   currently being treated for suspected aspiration PNA with sputum cx
   showing sparse MSSA and Klebsiella.  Also on the differential is volume
   overload.   Plan to wean to CPAP/PS 15/10 today to see how he does.
   - cont Zosyn for aspiration PNA
   - heparin drip for PE
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - try to wean sedation to better assess pt
s mental status and avoid
   over sedation; avoid versed as pt may still have benzo overdose even
   though last valium dose was [**9-10**].
   - cont to trend WBC and fever curve
   -HIV status: PCP emailed to determine if it has been discussed
   .
   # Fever
 Pt with continued fever despite negative cultures except
   sparse growth MSSA and Klebsiella in sputum. No signs of acalculous
   chole on LFTs.  [**Month (only) 8**] be due to aspiration PNA or PCP.  [**Name10 (NameIs) **] on the
   differential is propofol infusion syndrome.
   -continue zosyn
   -f/u cultures
   -check CK to eval for propofol infusion syndrome
   -tylenol for fever
   .
   # Hypotension
Improved.  BP stable 100s-140s. Likely in setting of PE.
   Pt had episodes of hypotension following Lasix and received fluid with
   subsequent stable SBPs.  GPCs in [**9-17**] culture most likely contamination
   so sepsis less likely. Other possible causes can be due to being
   intubated with a PEEP of 10.
   - d/c vancomycin
   - continue to monitor BP
   .
   # Bleeding
 Hct slightly decreased likely secondary to hematuria and
   nose bleeds. Continues to have oozing from nose. Pt had bleeding from
   anterior pharyngeal area during tPa treatment.  Bleeding likely
   secondary to trauma sustained during aggressive suctioning prior to
   intubation. Clot has been slow to clear.  Now with hematuria.
   -ENT saw L middle turbinate bleed - they packed it. If rebleeds, give 3
   sprays afrin b/l and hold pressure 15 min. If continues to bleed, call
   ENT.
   - check U/A for sediment to eval for kidney thrombi
   -Monitor Hct
   -f/u Anti thrombin III (ordered given pt slow to clear clot)
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - continue diltiazem given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Unable to assess right now as patient is
   sedated.  Reportedly pt has been somnolent throughout floor stay. He
   did receive >400mg valium in the ICU during his stay with last dose
   [**9-10**]. CT-head was negative.
   - try to wean sedation to better assess pt
s mental status, hopefully
   decrease agitation
   - benzos still positive in blood and urine
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
 change to PO as pt has OG tube
   - Social work following
   .
   # Dispo:  ICU for now.  Will wake up and perform neuro exam today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-21**] 11:08 PM 60 mL/hour
   Glycemic Control:  monitoring
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU for now

2164-09-23 11:39:00 Physician Attending Progress Note
Chief Complaint: f/u PE
   HPI:
   58M admitted with alcohol w/d, hospital course c/b b/l PE s/p
   fibrinolysis.
   24 Hour Events:
 FEVER - 101.4
F - [**2164-9-22**] 11:00 AM
   Didn't tolerate PS due to tachypnea.
   Started on lasix gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-21**] 07:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-23**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Heparin Sodium - 1,650 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2164-9-22**] 05:45 PM
   Heparin Sodium - [**2164-9-22**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-23**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.9
C (100.2
   HR: 77 (77 - 122) bpm
   BP: 115/78(89) {103/63(76) - 142/88(106)} mmHg
   RR: 25 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  3,019 mL
                                                                  1,551 mL
   PO:
   TF:
                                                                  1,441 mL
                                                                    675 mL
   IVF:
                                                                  1,238 mL
                                                                    656 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                  2,020 mL
   Urine:
                                                                  3,770 mL
                                                                  2,010 mL
   NG:
                                                                     10 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -761 mL
                                                                   -469 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.52/37/107/26/7
   Ve: 12.7 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Gen: Intubated, currently doesn
t respond to voice.
   HEENT: OP clear
   Cards: Regular S1,S2.  No m/r/g.
   Lungs: b/l anterior rhonchi
   Abd: +bs. Soft. ND.
   Ext: 1+ LE edema.   No clubbing/cyanosis
   Neuro: Off sedation, tracks, does not follow commands.  Moves all
   extremities.
   Labs / Radiology
   10.1 g/dL
   369 K/uL
   120 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   29.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2164-9-22**]  02:42 AM
                             [**2164-9-22**]  04:00 AM
                             [**2164-9-22**]  04:52 AM
                             [**2164-9-22**]  12:05 PM
                             [**2164-9-22**]  05:32 PM
                             [**2164-9-22**]  09:45 PM
                             [**2164-9-22**]  10:16 PM
                             [**2164-9-22**]  10:54 PM
                             [**2164-9-23**]  05:17 AM
                             [**2164-9-23**]  10:24 AM
   WBC
   10.1
   9.9
   Hct
   30.5
   31.6
   30.6
   29.0
   Plt
   354
   369
   Cr
   0.5
   0.6
   0.5
   TCO2
   28
   28
   27
   28
   31
   Glucose
   118
   122
   120
   Other labs: PT / PTT / INR:13.9/86.1/1.2, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Respiratory failure
 didn
t tolerate pressure support last night but
   extremely PEEP sensitive by history.  Plan to wake up today.  Now on
   slightly higher PEEP of 12 which we will try to decrease 10.    Try to
   cont diuresis (gently given prior RV dysfxn before lysis).  Trial of
   pressure support.
   Fever- BAL negative from [**9-20**].  Sputum staph aureus (MSSA) and gram neg
   but both covered.  Continues to be febrile but without clear source.
   Bili nl so acalculous cholecystitis less likely.  CKs neg, bp stable,
   nl renal fxn so propofol infusion syndrome unlikely.    Completed 8
   days for presumed VAP.  Will d/c antibiotics.
   Epistaxis- Appreciate ENT input.  Now w/ posterior nasal packing
   Hematuria- Likely [**3-12**] ongoing heparin infusion.
   Atrial fibrillation - ? if related to PE given present on admission
   (vs. alcohol).  Rate controlled.
   Altered mental status-  Continues to be minimally responsive off
   sedation.  Likely [**3-12**] clearing benzodiazepienes.  Will plan to continue
   daily wake up.  Check head CT given lytics and slow to wake
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 EPISTAXIS (NOSEBLEED)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2164-9-23**] 06:17 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: PPI
   VAP: Bundle
   Communication:  family updated yesterday
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2164-09-24 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Goal to wean down off PEEP of 12.  Tolerated CPAP/PS at 12/10 all day
   yesterday and overnight.
   .
   - While off propofol, pt was compliant with neuro exam, followed
   commands --> deferred on getting head CT
   .
   -          goal fluid balance -1 L yesterday: pt was -900cc yesterday
   .
   Per PCP, [**Name10 (NameIs) **] was HIV negative in [**2160**]. No tests since then.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-9-21**] 07:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-23**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Furosemide (Lasix) - 4 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-24**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100.1
   HR: 82 (77 - 117) bpm
   BP: 140/86(104) {109/73(87) - 142/97(111)} mmHg
   RR: 22 (8 - 28) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94 kg (admission): 84.9 kg
   Height: 70 Inch
             Total In:
                                                                  3,015 mL
                                                                    765 mL
   PO:
             TF:
                                                                  1,445 mL
                                                                    407 mL
   IVF:
                                                                  1,240 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                    740 mL
   Urine:
                                                                  3,900 mL
                                                                    740 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -895 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (0 - 550) mL
   Vt (Spontaneous): 657 (543 - 893) mL
   PC : 0 cmH2O
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Agitated
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.53/37/133/29/8 (metabolic alkalosis)
   Ve: 8.7 L/min
   PaO2 / FiO2: 332
   99% on PS at 12/10 with ABG above.
   Physical Examination
   General: intubated, sedated, slightly opens eyes to voice, did not
   follow commands.
   HEENT: pupils equal and 2mm; nares packed
   Lungs: apices clear, bibasilar crackles, difficult to assess
   CV: Irregularly irregular, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2+ pitting edema; trace
   foot edema
   Labs / Radiology
   427 K/uL
   10.6 g/dL
   115 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.9 mEq/L
   13 mg/dL
   96 mEq/L
   134 mEq/L
   30.3 %
   12.0 K/uL
        [image002.jpg]
                             [**2164-9-22**]  09:45 PM
                             [**2164-9-22**]  10:16 PM
                             [**2164-9-22**]  10:54 PM
                             [**2164-9-23**]  05:17 AM
                             [**2164-9-23**]  10:24 AM
                             [**2164-9-23**]  01:59 PM
                             [**2164-9-23**]  05:27 PM
                             [**2164-9-23**]  05:30 PM
                             [**2164-9-23**]  11:00 PM
                             [**2164-9-24**]  04:03 AM
   WBC
   9.9
   12.0
   Hct
   30.6
   29.0
   30.3
   Plt
   369
   427
   Cr
   0.6
   0.5
   0.6
   0.6
   TCO2
   28
   31
   30
   32
   32
   Glucose
   122
   120
   122
   115
   Other labs: PT / PTT / INR:13.4/57.1/1.1, Lactic Acid:1.4 mmol/L,
   Mg++:2.2 mg/dL,
   .
   CXR [**2164-9-24**]: [**Last Name (un) 8320**]
s sign: collapse of lung distal to embolus
   .
   Anti-thrombin III
 pending
   .
   [**9-21**] and [**9-22**] UCx: No growth
   [**9-24**] UCx: pending
   [**9-20**], [**9-21**] BCx: NGTD
   [**9-20**] Respiratory culture: no growth
   8/11BCx: no growth
   .
   ECHO [**9-24**]: The left atrium is normal in size. The left ventricular
   cavity size is normal. Regional left ventricular wall motion is normal.
   Overall left ventricular systolic function is normal (LVEF>55%). The
   right ventricular cavity is moderately dilated with severe global free
   wall hypokinesis. There is abnormal septal motion/position consistent
   with right ventricular pressure/volume overload. There is no aortic
   valve stenosis. No aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. Trivial mitral regurgitation is seen.
   The tricuspid valve leaflets are mildly thickened. Tricuspid
   regurgitation is present but cannot be quantified. There is a small
   pericardial effusion. Echocardiographic signs of tamponade may be
   absent in the presence of elevated right sided pressures. There is
   significant, accentuated respiratory variation in mitral/tricuspid
   valve inflows, consistent with impaired ventricular filling.
   .
   Compared with the prior study (images reviewed) of [**2164-9-17**], a small
   pericardial effusion is now seen. This is located anterior to the right
   ventricle. There is respiratory variation in the mitral inflow,
   suggesting impaired LV filling. However, this could be due to the
   dilated, hypokinetic RV. There is no evidence of RA or RV collapse,
   however echo signs of tamponade may be absent when the RA and RV
   pressures are elevated.
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 EPISTAXIS (NOSEBLEED)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and slightly sedated.  Did
   well on CPAP/PS [**1-17**]
 decreased to [**11-12**] today during rounds.  Found
   to have b/l PE on CTA, s/p tPa treatment, now on heparin drip.  Pt
   completed vanc/zosyn abx course for aspiration PNA.  Also on the
   differential is volume overload.
   - wean PEEP as tolerated with SBT
 barriers to weaning include
   muscle weakness from prolonged period on vent (may need spring/rest SBT
   trials prior to extubation), inability to clear secretions depending on
   mental status, fluid overload.
   - heparin drip for PE
   -diurese 1L negative; do not diurese too much as pt has limited RV
   function
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - try to wean propofol  to better assess pt
s mental status; avoid
   versed as pt may still have benzo overdose even though last valium dose
   was [**9-10**].
   .
   # RV dysfunction
 Pt noted to have RV dilation with severe global free
   wall hypokinesis.
   -If BP decreases, do not give fluids as this can cause RV to dilate
   further and impair what function is there.
   -If BP decreases, will need to start dobuatine or milronone.
   -Cardiology consulted
   -Gently diurese
 no more than 1L negative today
   .
   # Fever
 Pt with continued fever despite negative cultures except
   sparse growth MSSA and Klebsiella in sputum. No signs of acalculous
   chole on LFTs.  Antibiotics course for aspiration PNA completed. Also
   on the differential is propofol infusion syndrome.
   -f/u cultures
   -tylenol for fever
   .
   # Bleeding
 Hct stable although pt has hematuria and nose bleeds. Nose
   now packed. Pt had bleeding from anterior pharyngeal area during tPa
   treatment.  Bleeding likely secondary to trauma sustained during
   aggressive suctioning prior to intubation.  Hematuria persists
   attributed to trauma from prior foley administration. Clot has been
   slow to clear.
   -ENT saw L middle turbinate bleed - they packed it. If rebleeds, give 3
   sprays afrin b/l and hold pressure 15 min. If continues to bleed, call
   ENT.
   - check U/A for sediment to eval for kidney thrombi
   -Monitor Hct
   -f/u Anti thrombin III
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control
   was in NSR overnight, with A-flutter on telemetry this AM. CHADS-2
   score of zero.  Would benefit from ASA for long-term thromboembolic
   ppx, but will hold off in acute setting.
   - continue diltiazem given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Pt more alert off sedation. Unable to
   assess right now as patient is sedated.  He did receive >400mg valium
   in the ICU during his stay with last dose 8/3. CT-head was negative.
   - try to wean propofol to better assess pt
s mental status, hopefully
   decrease agitation
   - U-tox today to determine if benzos still present.
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
 change to PO as pt has OG tube
   - Social work following
   .
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-21**] 11:08 PM 60 mL/hour
   Glycemic Control:  monitoring
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   22 Gauge - [**2164-9-17**] 12:00 PM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU

2164-09-24 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains sedated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-23**] 12:00 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Propofol - 20 mcg/Kg/min
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-9-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-9-24**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37
C (98.6
   HR: 86 (79 - 117) bpm
   BP: 108/73(85) {108/73(85) - 142/97(111)} mmHg
   RR: 10 (8 - 25) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 90 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 10 (10 - 11)mmHg
   Total In:
                                                                  3,015 mL
                                                                  1,351 mL
   PO:
   TF:
                                                                  1,445 mL
                                                                    703 mL
   IVF:
                                                                  1,240 mL
                                                                    478 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                  1,420 mL
   Urine:
                                                                  3,900 mL
                                                                  1,420 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -895 mL
                                                                    -69 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (0 - 550) mL
   Vt (Spontaneous): 716 (543 - 893) mL
   PC : 0 cmH2O
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 11
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Agitated
   PIP: 23 cmH2O
   SpO2: 99%
   ABG: 7.53/37/133/29/8
   Ve: 7.7 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   427 K/uL
   115 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.9 mEq/L
   13 mg/dL
   96 mEq/L
   134 mEq/L
   30.3 %
   12.0 K/uL
        [image002.jpg]
                             [**2164-9-22**]  09:45 PM
                             [**2164-9-22**]  10:16 PM
                             [**2164-9-22**]  10:54 PM
                             [**2164-9-23**]  05:17 AM
                             [**2164-9-23**]  10:24 AM
                             [**2164-9-23**]  01:59 PM
                             [**2164-9-23**]  05:27 PM
                             [**2164-9-23**]  05:30 PM
                             [**2164-9-23**]  11:00 PM
                             [**2164-9-24**]  04:03 AM
   WBC
   9.9
   12.0
   Hct
   30.6
   29.0
   30.3
   Plt
   369
   427
   Cr
   0.6
   0.5
   0.6
   0.6
   TCO2
   28
   31
   30
   32
   32
   Glucose
   122
   120
   122
   115
   Other labs: PT / PTT / INR:13.4/57.1/1.1, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Multifactorial, including sedation,
   volume-overload, perhaps component of pulmonary embolism/atalectasis.
   Somewhat PEEP sensitive,may be related to volume expansion.  Plan to
   wake up today, continue diuresis (gently given prior RV dysfxn before
   lysis).  Trial of pressure support.
   FEVER -- improved.  Completed iv antibiotics for pneumonia (MSSA and
   GNR).  Continues to be febrile but without clear source.    Bili nl so
   acalculous cholecystitis less likely.  CKs neg, bp stable, nl renal fxn
   so propofol infusion syndrome unlikely.    Completed 8 days for
   presumed VAP.  Will d/c antibiotics.
   EPISTAXIS -- Appreciate ENT input.  Now w/ posterior nasal packing
   maintain.
   HEMATURIA -- likely Foley trauma in setting of heparin infusion.
   A-FIB -- possibly related to PE given present on admission (vs.
   alcohol).  Rate currently controlled.
   ALETERED MENTAL STATUS --   Attributable to slow clearance of
   benzodiazepienes.  Will plan to use propofol and continue daily wake
   up.  Monitor benzidiazepine periodically to monitor  clearance.
   ETOH AbUSE -- now out of risk for acute withdrawal.  Social service.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-24**] 06:39 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-09-25 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2164-9-24**] 08:51 AM
 EKG - At [**2164-9-24**] 05:09 PM
   .
   -Echo shows pericardial effusion, severe RV dilatation and hypokinesis.
   Cards consulted.
   -CARDS: Goal would be to redistribute tissue fluid overload with
   ongoing diuresis without significantly decreasing his CVP, as he
   likely needs high-normal right-sided filling pressures to
   maintain his cardiac output in face of submassive pulmonary
   emboli.  If hypotensive and CVP in a reasonable range, DO NOT GIVE
   FLUIDS. Would repeat ECHO (to rule out tamponade given small effusion)
   and (assuming negative) consider positive inotropes (dobutamine
   or dopamine would be reasonable choices) in hopes of augmenting
   RV contractility.
   .
   -Vent: CPAP/PS: [**1-12**] with FiO2 40% at 2200. --> 15/5 b/c he was
   tachypneic on [**1-12**] --> switched to AC (550 x 16 at 50% and PEEP 10) and
   suctioned off lots of secretions (AC 7.50/41/66/33) --> Pt more
   comfortable.
   .
   -Currently on AC 550x 14 at 40% and PEEP 5. RR this AM was 40. RSBI not
   tried.
 Pt did not tolerate CPAP/PS [**11-17**] and is now back on AC.
   .
   -Goal diuresis: -1L. At 2300, he was -1.5L. Lasix drip decreased to
   1mg/hr to maintain normal UOP but not dry him out given need to
   maintain adequate preload. CVP this AM around 5 (goal [**6-16**]) --> lasix
   stopped.
   .
   -UA shows UTI: started cipro 500mg PO q12h (day 1=[**2164-9-25**]); foley
   changed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-23**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-9-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-25**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 93 (79 - 138) bpm
   BP: 103/62(77) {96/58(71) - 132/90(104)} mmHg
   RR: 23 (9 - 38) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 88.3 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 5 (5 - 11)mmHg
   Total In:
                                                                  2,739 mL
                                                                    951 mL
   PO:
   TF:
                                                                  1,450 mL
                                                                    447 mL
   IVF:
                                                                    989 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                    815 mL
   Urine:
                                                                  4,090 mL
                                                                    815 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,361 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 705 (364 - 846) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.51/37/121/29 (?respiratory and metabolic alkalosis)
   Ve: 11.6 L/min
   PaO2 / FiO2: 303
   99% on AC with 550 x 14 with FiO2 40% and PEEP 5 and ABG above
   Physical Examination
   General: intubated, alert and responsive
   HEENT: pupils equal and 2mm; L nare packed
   Lungs: apices clear, bibasilar crackles, difficult to assess
   CV: Irregularly irregular, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2+ pitting edema; trace
   foot edema
   GU: foley with blood in urine
   Neuro: Able to follow commands
 squeeze fingers, plantar flex ([**6-12**])
   and wiggle toes
   Labs / Radiology
   416 K/uL
   10.3 g/dL
   118 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.0 mEq/L
   13 mg/dL
   97 mEq/L
   135 mEq/L
   29.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2164-9-23**]  10:24 AM
                             [**2164-9-23**]  01:59 PM
                             [**2164-9-23**]  05:27 PM
                             [**2164-9-23**]  05:30 PM
                             [**2164-9-23**]  11:00 PM
                             [**2164-9-24**]  04:03 AM
                             [**2164-9-24**]  02:54 PM
                             [**2164-9-25**]  01:22 AM
                             [**2164-9-25**]  02:16 AM
                             [**2164-9-25**]  03:05 AM
   WBC
   12.0
   10.2
   Hct
   30.3
   29.4
   Plt
   427
   416
   Cr
   0.6
   0.6
   0.6
   TCO2
   31
   30
   32
   32
   33
   33
   31
   Glucose
   122
   115
   118
   Other labs: PT / PTT / INR:13.3/65.2/1.1,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   .
   Anti-thrombin III
 pending
   .
   [**9-21**] and [**9-22**] UCx: No growth
   [**9-24**] UCx: pending
   [**9-20**], [**9-21**] BCx: NGTD
   [**9-20**] Respiratory culture: no growth
   8/11BCx: no growth
   [**9-24**] Utox: positive for benzos
   [**9-24**] UA: positive for UTI
[**9-19**] Sputum Cx
SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |          KLEBSIELLA PNEUMONIAE
                             |          |
AMPICILLIN/SULBACTAM--                4 S
CEFAZOLIN-------------              <=4 S
CEFEPIME--------------              <=1 S
CEFTAZIDIME-----------              <=1 S
CEFTRIAXONE-----------              <=1 S
CEFUROXIME------------                2 S
CIPROFLOXACIN---------           <=0.25 S
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S      <=1 S
LEVOFLOXACIN----------<=0.12 S
MEROPENEM-------------           <=0.25 S
OXACILLIN-------------   0.5 S
PIPERACILLIN/TAZO-----              <=4 S
TOBRAMYCIN------------              <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S      <=1 S
   .
   CXR: [**2164-9-25**]: My read - increased haziness at bases bilaterally which
   may represent fluid vs atelectasis vs infiltrate
   ETT in place, R PICC is now in axillary vein, L IJ in place.
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 EPISTAXIS (NOSEBLEED)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   .
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and more alert. Pt did well
   on CPAP/PS yesterday but then became suddenly hypoxic and was noted to
   have increased secretions yesterday. He still has difficultly clearing
   secretions and tends to derecruit. This may be due to fluid,
   atelectasis or secretions.  Found to have b/l PE on CTA, s/p tPa
   treatment, now on heparin drip.  Pt completed vanc/zosyn abx course for
   aspiration PNA but may have new VAP (see below). Also pt is still
   volume overloaded on exam.
   - wean PEEP as tolerated with SBT
 barriers to weaning include
   muscle weakness from prolonged period on vent (may need spring/rest SBT
   trials prior to extubation), inability to clear secretions depending on
   mental status, fluid overload.
   - heparin drip for PE
   -diurese with lasix drip titrated to goal CVP 5-9. Do not diurese too
   much as pt has limited RV function. Goal -1L today.
   - frequent suctioning and pulmonary toliets
   - close monitoring for respiratory status with goal O2 >93%.
   - try to wean propofol  to better assess pt
s mental status; avoid
   versed as pt may still have benzo overdose even though last valium dose
   was [**9-10**].
   .
   # RV dysfunction
 Pt noted to have RV dilation with severe global free
   wall hypokinesis.
   -If BP decreases, call Cardiology for stat ECHO to evaluate for
   potential tamponade. Do not give fluids as this can cause RV to dilate
   further and impair what function is there.  Will need to start
   dobuatine or milronone.
   -Appreciate cardiology recs
 will follow up
   -Gently diurese
 keep CVP 5-9.
   .
   # Fever
 Pt with continued fever. Last sputum cultures demonstrated
   MSSA and pan sensitive Klebsiella in sputum. No signs of acalculous
   chole on LFTs.  Antibiotics course for aspiration PNA completed, but pt
   may have developed new VAP given prolonged period on ventilator. Also
   on the differential is propofol infusion syndrome.
   -Will hold on abx pending culture results
   -Send new sputum cx
   -f/u cultures
   -tylenol for fever
   .
   # Bleeding
 Hct stable although pt has hematuria and nose bleeds. Nose
   now packed. Pt had bleeding from anterior pharyngeal area during tPa
   treatment.  Bleeding likely secondary to trauma sustained during
   aggressive suctioning prior to intubation.  Hematuria persists
   attributed to trauma from prior foley administration. Clot has been
   slow to clear.
   -ENT saw L middle turbinate bleed - they packed it. If rebleeds, give 3
   sprays afrin b/l and hold pressure 15 min. If continues to bleed, call
   ENT.
   - check U/A for sediment to eval for kidney thrombi
 if unable to add
   on to yesterday
s urine, resend urine with override.
   -Monitor Hct
   -f/u Anti thrombin III
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on
   admission. Placed back on dilt PO and metoprolol with good control
   was in NSR overnight, with A-flutter with HR to 140s on telemetry this
   AM. HR decreased after diltiazem dose. CHADS-2 score of zero.  Would
   benefit from ASA for long-term thromboembolic ppx, but will hold off in
   acute setting.
   - continue diltiazem given through NG
   - continue metoprolol 12.5 tid
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Pt more alert off sedation. Unable to
   assess right now as patient is sedated.  He did receive >400mg valium
   in the ICU during his stay with last dose 8/3. CT-head was negative.
   - try to wean propofol to better assess pt
s mental status
   - U-tox in a few days to determine if benzos still in system.
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
 change to PO as pt has OG tube
   - Social work following
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-21**] 11:08 PM 60 mL/hour
   Glycemic Control:  monitoring
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
 Now in Midline position. Will remove
   and send tip for culture.
   Multi Lumen Left IJ - [**2164-9-17**] 09:56 AM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
 will call
   today to update her.
   Code status: Full code
   Disposition: ICU

2164-09-25 10:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Poor tolerance to SBT yesterday.  Remains on AC mode.
   Cardiac echo revealed marked RV dilitation and dysfunction.
   Plan to continue net diuresis, hoping to off-load RV.
   More awake this AM, interactive.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-23**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-9-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-9-25**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (98.9
   HR: 93 (86 - 138) bpm
   BP: 104/67(81) {96/58(71) - 132/79(95)} mmHg
   RR: 16 (9 - 38) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 88.3 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 12 (5 - 12)mmHg
   Total In:
                                                                  2,739 mL
                                                                  1,270 mL
   PO:
   TF:
                                                                  1,450 mL
                                                                    622 mL
   IVF:
                                                                    989 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                  1,015 mL
   Urine:
                                                                  4,090 mL
                                                                  1,015 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,361 mL
                                                                    255 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 671 (364 - 846) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/37/121/29/6
   Ve: 8.4 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Paralyzed,
   Tone: Normal
   Labs / Radiology
   10.3 g/dL
   416 K/uL
   118 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.0 mEq/L
   13 mg/dL
   97 mEq/L
   135 mEq/L
   29.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2164-9-23**]  10:24 AM
                             [**2164-9-23**]  01:59 PM
                             [**2164-9-23**]  05:27 PM
                             [**2164-9-23**]  05:30 PM
                             [**2164-9-23**]  11:00 PM
                             [**2164-9-24**]  04:03 AM
                             [**2164-9-24**]  02:54 PM
                             [**2164-9-25**]  01:22 AM
                             [**2164-9-25**]  02:16 AM
                             [**2164-9-25**]  03:05 AM
   WBC
   12.0
   10.2
   Hct
   30.3
   29.4
   Plt
   427
   416
   Cr
   0.6
   0.6
   0.6
   TCO2
   31
   30
   32
   32
   33
   33
   31
   Glucose
   122
   115
   118
   Other labs: PT / PTT / INR:13.3/65.2/1.1, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Multifactorial, including sedation,
   volume-overload, perhaps component of pulmonary embolism/atalectasis.
   Somewhat PEEP sensitive,may be related to volume expansion.  Plan to
   wake up today, continue diuresis (gently given prior RV dysfxn before
   lysis).  Trial of pressure support, hope to work towards extubation.
   THROMBOEMBOLIC DISEASE
 s/p lysis for severe clot burden, with some
   response.  Unclear as to whether there is component of chronicity to to
   pulmonary emboli.
   RV DYSFUNCTION
 Severe; attributed to pulmonary emboli, right outflow
   obstruction.  Severe dysfunction.  No echo evidence for resolution or
   recovery of RV function.  Uncertain as to nature of chronicity (ex.
   Chronic thromboembolic disease, chronic thromboembolic pulmonary
   hypertension).
   FEVER -- improved.  Completed iv antibiotics for pneumonia (MSSA and
   GNR) --> completed 8 days for presumed VAP.  Monitor off antibiotics.
   EPISTAXIS -- Appreciate ENT input.  Now w/ posterior nasal packing
   maintain.
   HEMATURIA -- likely Foley trauma in setting of heparin infusion.
   A-FIB -- possibly related to PE given present on admission (vs.
   alcohol).  Rate currently controlled.
   ALETERED MENTAL STATUS --   Improved today, suspect slow clearance of
   benzodiazepines.  Monitor benzidiazepine periodically to monitor
   clearance.
   ETOH AbUSE -- now out of risk for acute withdrawal.  Social service.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-25**] 07:20 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2164-9-15**] 02:28 PM
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Arterial Line - [**2164-9-17**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-09-26 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2164-9-25**] 01:00 PM
 ARTERIAL LINE - STOP [**2164-9-25**] 10:00 PM
   .
   - goal diuresis -1 L (CVP 5-9).
   .
   - A line looked infected: sent blood cx, tip for cx, IV vanc started
   empirically
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-23**] 12:00 PM
   Ciprofloxacin - [**2164-9-25**] 10:00 PM
   Vancomycin - [**2164-9-25**] 10:30 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Propofol - 10 mcg/Kg/min
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-9-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-26**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 100 (75 - 114) bpm
   BP: 122/86(94) {95/60(22) - 139/89(95)} mmHg
   RR: 24 (11 - 37) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.3 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 6 (3 - 14)mmHg
   Total In:
                                                                  3,035 mL
                                                                    947 mL
   PO:
   TF:
                                                                  1,443 mL
                                                                    453 mL
   IVF:
                                                                  1,072 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                  3,485 mL
                                                                  1,035 mL
   Urine:
                                                                  3,455 mL
                                                                  1,010 mL
   NG:
                                                                     30 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -450 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 640 (303 - 671) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.51/39/95 /28/6 (metabolic alkalosis)
   Ve: 7.9 L/min
   PaO2 / FiO2: 238
   97% on CPAP/PS [**11-17**] with ABG above
   Physical Examination
   General: intubated, alert and responsive, trying to talk
   HEENT: pupils 2mm/equal, L nare packed, MMM
   Lungs: apices clear, bibasilar crackles, difficult to assess
   CV: Irregularly irregular, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2+ pitting edema, no leg
   edema
   GU: foley with blood in urine
   Neuro: Able to follow commands
 squeeze fingers ([**5-13**]), plantar flex
   ([**5-13**]) and wiggle toes b/l
   Labs / Radiology
   445 K/uL
   9.4 g/dL
   104 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   10 mg/dL
   101 mEq/L
   138 mEq/L
   28.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2164-9-23**]  05:30 PM
                             [**2164-9-23**]  11:00 PM
                             [**2164-9-24**]  04:03 AM
                             [**2164-9-24**]  02:54 PM
                             [**2164-9-25**]  01:22 AM
                             [**2164-9-25**]  02:16 AM
                             [**2164-9-25**]  03:05 AM
                             [**2164-9-25**]  05:33 PM
                             [**2164-9-25**]  05:35 PM
                             [**2164-9-26**]  04:59 AM
   WBC
   12.0
   10.2
   9.0
   Hct
   30.3
   29.4
   28.1
   Plt
   427
   416
   445
   Cr
   0.6
   0.6
   0.4
   0.4
   TCO2
   32
   32
   33
   33
   31
   32
   Glucose
   115
   118
   104
   Other labs: PT / PTT / INR:13.6/62.2/1.2,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   .
   Anti-thrombin III
 pending
   .
   [**9-24**] Urine sediment
 only showed mucous, no casts mentioned
   [**9-24**] UCx: no growth (corresponds to dirty UA on [**9-24**], currently
   receiving cipro)
   [**9-20**], [**9-21**], [**9-25**] BCx: NGTD
   [**9-25**] A-line Catheter tip
 pending
   [**9-25**] PICC catheter tip - pending
   [**9-25**] Sputum
 cx pending
   [**12-2**] PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.IN CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   .
   CXR [**2164-9-26**]: No change from [**9-25**].  Bibasilar opacification c/w
   atelectasis and layering small pleural effusions. No evidence of
   vascular congestion or acute pneumonia.
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 EPISTAXIS (NOSEBLEED)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   .
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and more alert. Pt changed
   to CPAP/PS [**11-17**] yesterday and continued on this overnight. Found to
   have b/l PE on CTA, s/p tPa treatment, now on heparin drip.  Pt
   completed vanc/zosyn abx course for aspiration PNA but may have new VAP
   (see below). Also pt is still volume overloaded on exam.
   - wean to PEEP 5- in past, pt has not been able to tolerate this and
   becomes tachypneic, most likely due to increased
   secretions/intermittent plugging. Barriers to weaning include muscle
   weakness from prolonged period on vent (may need spring/rest SBT trials
   prior to extubation), inability to clear secretions, fluid overload.
   - Consult IP regarding tracheostomy given prolonged ventilator course.
   Have discussed this with patient
   - heparin drip for PE
 PTT continues to be therapeutic
   - diurese with lasix drip titrated to goal CVP 5-9. Do not diurese too
   much as pt has limited RV function. Goal negative 500cc -1L today.
   - frequent suctioning and pulmonary toliets
   -If pt becomes tachypneic, suction secretions and increase PEEP instead
   of increasing sedation as pt does not appear to be agitated on vent.
   - attempt to keep propofol off and control pain with fentanyl; avoiding
   versed as pt may still have benzo overdose even though last valium dose
   was [**9-10**].
   .
   # RV dysfunction
 Pt noted to have RV dilation with severe global free
   wall hypokinesis due to Right heart strain due to PE.
   -If BP decreases (MAP<60), call Cardiology for stat ECHO to evaluate
   for potential tamponade. Do not give fluids as this can cause RV to
   dilate further and impair what function is there.  Will need to start
   dobuatine or milronone.
   -Appreciate cardiology recs
 will follow up
   -Gently diurese
 keep CVP 5-9.
   .
   # Fever and [**Name (NI) 8344**] Pt now afebrile and Leukocytosis resolved.
   Sputum cultures 8/12 demonstrated MSSA and pan sensitive Klebsiella. UA
   suggested UTI but Ucx demonstrated no growth. PICC and A-line tips sent
   for culture and vanco empirically started. Antibiotics course for
   aspiration PNA completed, but pt may have developed new VAP given
   prolonged period on ventilator. New sputum cx demonstrates GPC and GNR
   which may be residual from prior infection or new VAP.
   -D/c cipro as Ucx negative
   -Continue vancomycin pending PICC and A-line cultures and speciation of
   sputum cultures
   -f/u cultures
   -tylenol for fever
   .
   # Alkalosis:  Pt with metabolic alkalosis and with resolving
   respiratory alkalosis, although he does become tachypneic when PEEP
   decreased to 5, perhaps due to intermitting mucous plugging as above.
   Metabolic alkalosis most likely due to contraction alkalosis as we are
   actively diuresing him, and he is not vomiting, not receiving bicarb,
   and is receiving TFs so OG not to suction.
   -Give KCl as we will continue diuresis
   -Follow ABGs
   .
   # Bleeding
 Hct slowly decreasing although nose now packed and
   hematuria resolving. Pt had bleeding from anterior pharyngeal area
   during tPa treatment.  Bleeding likely secondary to trauma sustained
   during aggressive suctioning prior to intubation.  Hematuria improving
 attributed to trauma from prior foley administration. UA negative for
   red cell casts suggestive of kidney emboli. Clot has been slow to
   clear.
   -ENT saw L middle turbinate bleed - they packed it. If rebleeds, give 3
   sprays afrin b/l and hold pressure 15 min. If continues to bleed, call
   ENT.
   -Monitor Hct
   -f/u Anti thrombin III
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on admission
   and episodes of A flutter at night with HR 75-114. Pt on  diltizaem PO
   and metoprolol although heart rate still increases to 120s-140s.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - If in A-flutter and HR>120, give diltiazem 5mg IV PRN for better rate
   control given that pt already has severe heart strain.
   - continue diltiazem 90 mg PO QID given through NG
   - continue metoprolol 12.5 TID
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Pt more alert off sedation. Unable to
   assess right now as patient is sedated.  He did receive >400mg valium
   in the ICU during his stay with last dose 8/3. CT-head was negative.
   - Attempt to turn off propofol and use fentanyl boluses
   - U-tox in [**3-13**] days to determine if benzos still in system.
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-25**] 11:54 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen Left IJ - [**2164-9-17**] 09:56 AM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Communication:  sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
 will call today to
   update her.
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   IP will see patient today for possible tracheostomy. Pt is aware. Do
   not bridge to coumadin until trach completed.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1588**] [**Last Name (NamePattern1) 8328**], MD
   on:[**2164-9-26**] 12:30 ------

2164-09-26 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Tolerating IPS mode.
   More alert.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-9-23**] 12:00 PM
   Ciprofloxacin - [**2164-9-25**] 10:00 PM
   Vancomycin - [**2164-9-25**] 10:30 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Heparin Sodium - 1,800 units/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-9-26**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 105 (75 - 106) bpm
   BP: 119/95(100) {95/60(22) - 132/95(100)} mmHg
   RR: 27 (11 - 37) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.3 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 8 (3 - 14)mmHg
   Total In:
                                                                  3,036 mL
                                                                  1,325 mL
   PO:
   TF:
                                                                  1,443 mL
                                                                    647 mL
   IVF:
                                                                  1,072 mL
                                                                    478 mL
   Blood products:
   Total out:
                                                                  3,485 mL
                                                                  1,395 mL
   Urine:
                                                                  3,455 mL
                                                                  1,370 mL
   NG:
                                                                     30 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -449 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 651 (303 - 651) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.51/39/95.[**Numeric Identifier 252**]/28/6
   Ve: 12.1 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube, nasal packing in place
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   445 K/uL
   104 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   10 mg/dL
   101 mEq/L
   138 mEq/L
   28.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2164-9-23**]  05:30 PM
                             [**2164-9-23**]  11:00 PM
                             [**2164-9-24**]  04:03 AM
                             [**2164-9-24**]  02:54 PM
                             [**2164-9-25**]  01:22 AM
                             [**2164-9-25**]  02:16 AM
                             [**2164-9-25**]  03:05 AM
                             [**2164-9-25**]  05:33 PM
                             [**2164-9-25**]  05:35 PM
                             [**2164-9-26**]  04:59 AM
   WBC
   12.0
   10.2
   9.0
   Hct
   30.3
   29.4
   28.1
   Plt
   427
   416
   445
   Cr
   0.6
   0.6
   0.4
   0.4
   TCO2
   32
   32
   33
   33
   31
   32
   Glucose
   115
   118
   104
   Other labs: PT / PTT / INR:13.6/62.2/1.2, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Multifactorial, including sedation,
   volume-overload, right heart failure, perhaps component of pulmonary
   embolism/atalectasis.   Remains PEEP sensitive, may be related to
   volume expansion.  Continuye to allow to wake up, continue diuresis
   (gently given prior RV dysfxn before lysis).  Trial of pressure
   support, hope to work towards extubation.  Consider tracheotomy tube if
   progress limited.
   THROMBOEMBOLIC DISEASE
 s/p lysis for severe clot burden, with some
   response.  Unclear as to whether there is component of chronicity to to
   pulmonary emboli.
   RV DYSFUNCTION
 Severe; attributed to pulmonary emboli, right outflow
   obstruction.  Severe dysfunction.  No echo evidence for recovery of RV
   function.  Uncertain as to nature of chronicity (ex. Chronic
   thromboembolic disease, chronic thromboembolic pulmonary
   hypertension).
   ALETERED MENTAL STATUS --   Improved today, suspect slow clearance of
   benzodiazepines.  Monitor benzidiazepine periodically to monitor
   clearance.
   FEVER -- improved.  Completed iv antibiotics for pneumonia (MSSA and
   GNR) --> completed 8 days for presumed VAP.  Emirically started
   Ciprofloxicin
 plan to d/c as evidence for acitive pneumonia limited.
   Concern for line-related infection (a-line dc
 vanco.  Await line
   tip cultures.
   EPISTAXIS -- Appreciate ENT input.  Now w/ posterior nasal packing
   maintain.
   HEMATURIA -- likely Foley trauma in setting of heparin infusion.
   Improving.
   A-FIB -- possibly related to PE given present on admission (vs.
   alcohol).  Rate currently controlled.   Diltiazem standing dose and
   prn.
   ETOH AbUSE -- now beyond risk for acute withdrawal.  Social service.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-26**] 08:10 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-09-27 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - scheduled for tracheostomy on [** 1786**], likely will need to be done in
   OR because crycoid is low, do NOT bridge to coumadin before then
   - Diuresis goal 500cc-1L negative (CVP 5-9):
   - Weaned PEEP to 5, in PM was consistently tachypneic despite suction,
   increased PEEP to 10, RR remained in high 30s to 40s, Pressure support
   increased to 12, propofol increased to 30mcg/kg/hr.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-9-25**] 10:00 PM
   Vancomycin - [**2164-9-26**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-27**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 79 (73 - 105) bpm
   BP: 101/70(77) {99/60(71) - 125/95(100)} mmHg
   RR: 12 (11 - 41) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.3 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 10 (5 - 339)mmHg
   Total In:
                                                                  3,303 mL
                                                                    832 mL
   PO:
   TF:
                                                                  1,456 mL
                                                                    443 mL
   IVF:
                                                                  1,277 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  3,725 mL
                                                                    800 mL
   Urine:
                                                                  3,700 mL
                                                                    800 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -422 mL
                                                                     32 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 697 (245 - 697) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: 7.48/42/70/29/6
   Ve: 9.9 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General: intubated, alert and responsive to question, follows simple
   commands, trying to talk
   HEENT: pupils 2mm/equal, MMM
   Lungs: apices clear anteriorly, bibasilar crackles, difficult to assess
   CV: Irregularly irregular, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2+ pitting edema, no leg
   edema
   GU: foley with blood in urine
   Neuro: Able to follow commands
 squeeze fingers ([**5-13**]), plantar flex
   ([**5-13**]) and wiggle toes b/l
   Labs / Radiology
   447 K/uL
   9.7 g/dL
   108 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.7 mEq/L
   10 mg/dL
   99 mEq/L
   141 mEq/L
   29.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2164-9-24**]  02:54 PM
                             [**2164-9-25**]  01:22 AM
                             [**2164-9-25**]  02:16 AM
                             [**2164-9-25**]  03:05 AM
                             [**2164-9-25**]  05:33 PM
                             [**2164-9-25**]  05:35 PM
                             [**2164-9-26**]  04:59 AM
                             [**2164-9-26**]  03:34 PM
                             [**2164-9-26**]  11:57 PM
                             [**2164-9-27**]  04:26 AM
   WBC
   10.2
   9.0
   9.3
   Hct
   29.4
   28.1
   29.1
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   0.6
   0.4
   0.4
   0.5
   0.5
   TCO2
   33
   33
   31
   32
   32
   Glucose
   118
   104
   106
   108
   Other labs: PT / PTT / INR:13.8/72.9/1.2, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Antithrombin III
 pending
   Catheter tip ([**9-25**])
 prelim
 no growth
   Catheter tip ([**9-25**])
 pending
   Sputum ([**9-25**])
 gram stain shows 3+ GPC in clusters, 1+ GNR, culture
   pending
   Blood culture ([**9-25**], 19)
 pending
   CXR
 bibasilar atelectasis, small pleural effusions, unchanged from
   yesterday
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   remains on heparin drip therapeutic PTT
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   PS [**11-17**] intermittently tachypneic in the mid 40's, started on
   vancomcyin [**9-25**] for gram negative rods ? VAP, diuresed with lasix,
   patient is 10L positive for LOS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   patient intubated [**9-17**] - unresposive and no gag
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and more alert.  Became
   tachypneic to 40s on CPAP/PS of [**11-12**] yesterday despite aggressive
   suctioning, was increased to CPAP/PS of [**1-17**] and sedation increased.
   Will give pt some diaphragmatic rest today on AC and attempt CPAP/PS
   again in short trials to strengthen diaphragm.  Respiratory failure
   likely due to bilateral PEs, patient is s/p tPa treatment, now on
   heparin drip.  He has completed vanc/zosyn abx course for aspiration
   PNA but may have new VAP (see below). Also pt is still +11 L
   overloaded on this admission.
   - get patient out of bed to chair
   - wean down PEEP as tolerated.  Patient was able to tolerate PEEP of 5
   for most of yesterday, but became tachypneic overnight despite
   suctioning.  Likely due to increased secretions/intermittent plugging
   and muscle weakness.
   - IP consulted, scheduled for tracheostomy on [**Last Name (LF) 1786**], [**First Name3 (LF) 124**] likely have
   to be performed in OR
   - continue heparin drip for PE
   - continue to monitor PTT
   - diurese with lasix drip titrated to goal CVP of [**6-16**]. Do not
   overdiurese as pt has limited RV function. Goal negative 500cc -1L
   today.
   - frequent suctioning and pulmonary toliets
   - will attempt to suction and increase PEEP before increasing sedation.
    Try and wean off sedation as much as possible.
   - avoid versed for sedation
   - hold tube feeds and heparin drip at midnight for planned trach
   tomorrow
   - contact IP about PEG placement along with trach
   .
   # RV dysfunction
 Pt noted to have RV dilation with severe global free
   wall hypokinesis due to Right heart strain due to PE.
   -If BP decreases (MAP<60), call Cardiology for stat ECHO to evaluate
   for potential tamponade. Do not give fluids as this can cause RV to
   dilate further and impair what function is there.  Will need to start
   dobuatine or milronone.
   -Appreciate cardiology recs
 will follow up
   -Gently diurese
 keep CVP 5-9.
   - consider IVC filter placement to prevent further PEs, RV cannot incur
   any further insults
   .
   # Fever and [**Name (NI) 8344**] Pt now afebrile and Leukocytosis resolved.
   Sputum cultures 8/12 demonstrated MSSA and pan sensitive Klebsiella. UA
   suggested UTI but Ucx demonstrated no growth. PICC and A-line tips sent
   for culture and vanco empirically started. Antibiotics course for
   aspiration PNA completed, but pt may have developed new VAP given
   prolonged period on ventilator. New sputum cx demonstrates GPC and GNR
   which may be residual from prior infection or new VAP.
   -D/c cipro as Ucx negative
   -Continue vancomycin pending PICC and A-line cultures and speciation of
   sputum cultures
   -f/u cultures
   -tylenol for fever
   .
   # Alkalosis:  Pt with metabolic alkalosis and with resolving
   respiratory alkalosis, although he does become tachypneic when PEEP
   decreased to 5, perhaps due to intermitting mucous plugging as above.
   Metabolic alkalosis most likely due to contraction alkalosis as we are
   actively diuresing him, and he is not vomiting, not receiving bicarb,
   and is receiving TFs so OG not to suction.
   -Give KCl as we will continue diuresis
   -Follow ABGs
   .
   # Bleeding
 Hct slowly decreasing although nose now packed and
   hematuria resolving. Pt had bleeding from anterior pharyngeal area
   during tPa treatment.  Bleeding likely secondary to trauma sustained
   during aggressive suctioning prior to intubation.  Hematuria improving
 attributed to trauma from prior foley administration. UA negative for
   red cell casts suggestive of kidney emboli. Clot has been slow to
   clear.  Antithrombin is normal
   - reconsult ENT about nasal packing.
   - If rebleeds, give 3 sprays afrin b/l and hold pressure 15 min. If
   continues to bleed, call ENT.
   - Monitor Hct
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on admission
   and episodes of A flutter at night with HR 75-114. Pt on  diltizaem PO
   and metoprolol although heart rate still increases to 120s-140s.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - If in A-flutter and HR>120, give diltiazem 5mg IV PRN for better rate
   control given that pt already has severe heart strain.
   - continue diltiazem 90 mg PO QID given through NG
   - continue metoprolol 12.5 TID
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Pt more alert off sedation.  He did receive
   >400mg valium in the ICU during his stay with last dose 8/3. CT-head
   was negative.
   - Attempt to turn off propofol and use fentanyl boluses
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   .
   # Weakness
 patient has had prolonged stay in hospital
   - PT consult
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-27**] 12:39 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU

2164-09-27 10:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Up in chair.
   Experienced tachypnea last PM, attributed to reduced PEEP and reduced
   IPS --> resolved.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-9-25**] 10:00 PM
   Vancomycin - [**2164-9-27**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Heparin Sodium - 1,800 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-9-27**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.5
C (99.5
   HR: 102 (73 - 105) bpm
   BP: 117/90(104) {99/60(71) - 125/95(104)} mmHg
   RR: 34 (11 - 41) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.3 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 8 (6 - 339)mmHg
   Total In:
                                                                  3,303 mL
                                                                  1,394 mL
   PO:
   TF:
                                                                  1,456 mL
                                                                    595 mL
   IVF:
                                                                  1,277 mL
                                                                    639 mL
   Blood products:
   Total out:
                                                                  3,725 mL
                                                                  1,550 mL
   Urine:
                                                                  3,700 mL
                                                                  1,550 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -422 mL
                                                                   -154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 717 (245 - 717) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: 7.48/42/70/29/6
   Ve: 7.4 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube, Nasal packing in place
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   447 K/uL
   108 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.7 mEq/L
   10 mg/dL
   99 mEq/L
   141 mEq/L
   29.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2164-9-24**]  02:54 PM
                             [**2164-9-25**]  01:22 AM
                             [**2164-9-25**]  02:16 AM
                             [**2164-9-25**]  03:05 AM
                             [**2164-9-25**]  05:33 PM
                             [**2164-9-25**]  05:35 PM
                             [**2164-9-26**]  04:59 AM
                             [**2164-9-26**]  03:34 PM
                             [**2164-9-26**]  11:57 PM
                             [**2164-9-27**]  04:26 AM
   WBC
   10.2
   9.0
   9.3
   Hct
   29.4
   28.1
   29.1
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   0.6
   0.4
   0.4
   0.5
   0.5
   TCO2
   33
   33
   31
   32
   32
   Glucose
   118
   104
   106
   108
   Other labs: PT / PTT / INR:13.8/72.9/1.2, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:75.0 %, Lymph:15.1 %, Mono:8.0 %, Eos:1.2 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Multifactorial, including sedation,
   volume-overload, right heart failure, perhaps component of pulmonary
   embolism/atalectasis, and generalized weakness.   Remains PEEP
   sensitive, may be related to volume expansion.  Continue to allow to
   wake up, continue diuresis (gently given prior RV dysfxn before
   lysis).  Very limited progress with SBT.  Plan to move to tracheotomy
   tube (scheduled for tomorrow).
   THROMBOEMBOLIC DISEASE
 s/p lysis for severe clot burden, with some
   response.  Unclear as to whether there is component of chronicity to to
   pulmonary emboli.  Will need follow-up to assess for development of
   chronic thromboembolic pulmonary hypertension.  Would recommend
   placement IVC filter.
   RV DYSFUNCTION
 Severe; attributed to pulmonary emboli, right outflow
   obstruction.  Severe dysfunction.  No echo evidence for recovery of RV
   function since thrombectomy.  Uncertain as to nature of chronicity (ex.
   Chronic thromboembolic disease, chronic thromboembolic pulmonary
   hypertension).
   WEAKNESS, GENERALIZED -- deconditioning, ICU polyneuropathy.  No
   steroid or paralytic use in early portion of hospitalization.  Splints,
   consider specialized mattress.  Would proceed with PT consult.
   ALTERED MENTAL STATUS --   Improved today, suspect slow clearance of
   benzodiazepines.  Monitor benzidiazepine periodically to monitor
   clearance.  Hope to d/c propofol once tracheostomy tube placed.
   FEVER -- improved.  Completed iv antibiotics for pneumonia (MSSA and
   GNR) --> completed 8 days for presumed VAP.  Emirically started
   Ciprofloxicin
 plan to d/c as evidence for acitive pneumonia limited.
   Concern for line-related infection (a-line dc
 vanco.  Await line
   tip cultures.
   EPISTAXIS -- Appreciate ENT input.  Now w/ posterior nasal packing
   maintain.  Hope to discontinue nasal packing soon.
   HEMATURIA -- likely Foley trauma in setting of heparin infusion.
   Improving.
   A-FIB -- possibly related to PE given present on admission (vs.
   alcohol).  Rate currently controlled.   Diltiazem standing dose and
   prn.
   ETOH ABUSE -- now beyond risk for acute withdrawal.  Social service
   consult.
   NUTRITIONAL SUPPORT
 plan for PEG at time of trach.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-27**] 08:54 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-09-28 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2164-9-28**] 01:00 AM
   -PT recs: OOB--> chair for >1h daily
   -OT consulted
   -IVC filter [**Year (4 digits) 1786**] - already consented
   -Trach/PEG [**Year (4 digits) 1786**] (Bedside vs OR - IP to talk to anesthesia) - pending
   consent from sister; pt aware
   -Rested on AC all day given pt was on 15/10 PS on [**2164-9-27**] AM and needed
   rest. Changed back to PS at 40% 10/15, RR increased to 40s-50s. Pt put
   back on AC (550 x 14 with FiO2 40% and PEEP 15) and propofol increased
   to 30mcg to make pt more comfortable (pt still alert). Lots of
   secretions suctioned when tachypneic. Got down to PEEP 12 and propofol
   10 (did not realize we cannot trach someone at this PEEP--> continue
   decreasing).
   -I/O goal: -500-1L negative: even at 1800; increased lasix drip -->
   negative 370cc at MN.
   -Temp 102 and SBP dropped to 93-99. decreased lasix. this AM, since
   -1.1L, decreased lasix to 2-3ng/hr now b/c SBP in 100s.
   negative, THEN start ionotropic [**Doctor Last Name **]
   -ENT: nose packing is absorbable
   -A-line tip grew coag negative staph - pt already on vancomycin for
   empiric treatment of infected A-line
   -Triglycerides in AM as s/e of propofol is hypertriglyceridemia with
   subsequent pancreatitis. Serum triglyceride levels should be obtained
   prior to initiation of therapy and every 3-7 days thereafter.
   -T 102.2 - bcx, ucx, sputum sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-9-25**] 10:00 PM
   Vancomycin - [**2164-9-27**] 09:10 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-28**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.1
C (100.5
   HR: 109 (85 - 117) bpm
   BP: 106/71(80) {90/64(71) - 136/97(104)} mmHg
   RR: 22 (14 - 44) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 10 (8 - 15)mmHg
   Total In:
                                                                  3,032 mL
                                                                    174 mL
   PO:
   TF:
                                                                  1,345 mL
   IVF:
                                                                  1,327 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                  1,045 mL
   Urine:
                                                                  3,400 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -368 mL
                                                                   -871 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 303 (303 - 717) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 8.1 L/min
   Physical Examination
   General: intubated, alert and responsive to question, follows simple
   commands, trying to talk
   HEENT: pupils 2mm/equal, MMM
   Lungs: apices clear anteriorly, bibasilar crackles, difficult to assess
   CV: Irregularly irregular, no murmurs, rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2+ pitting edema, no leg
   edema
   GU: foley with blood in urine
   Neuro: Able to follow commands
 squeeze fingers ([**5-13**]), plantar flex
   ([**5-13**]) and wiggle toes b/l
   Labs / Radiology
   447 K/uL
   9.7 g/dL
   109 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   12 mg/dL
   98 mEq/L
   138 mEq/L
   29.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2164-9-25**]  01:22 AM
                             [**2164-9-25**]  02:16 AM
                             [**2164-9-25**]  03:05 AM
                             [**2164-9-25**]  05:33 PM
                             [**2164-9-25**]  05:35 PM
                             [**2164-9-26**]  04:59 AM
                             [**2164-9-26**]  03:34 PM
                             [**2164-9-26**]  11:57 PM
                             [**2164-9-27**]  04:26 AM
                             [**2164-9-27**]  05:07 PM
   WBC
   10.2
   9.0
   9.3
   Hct
   29.4
   28.1
   29.1
   Plt
   [**Telephone/Fax (3) 8364**]
   Cr
   0.6
   0.4
   0.4
   0.5
   0.5
   0.6
   TCO2
   33
   31
   32
   32
   Glucose
   118
   104
   106
   108
   109
   Other labs: PT / PTT / INR:13.8/72.9/1.2, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:70.2 %, Lymph:18.1 %, Mono:6.4 %, Eos:5.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Antithrombin III
 93 (normal)
   Catheter tip (PICC line)
 no growth
   Catheter tip (A-line)
 coag neg staph
   Sputum ([**9-25**])
 gram stain shows 3+ GPC in clusters, 1+ GNR, culture
   pending
   Sputum ([**9-28**])
 gram stain shows 4+ GPC in clusters, 1+ GNR, culture
   pending
   Blood culture ([**9-25**], 19)
 pending
   Assessment and Plan
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 PULMONARY EMBOLISM (PE), ACUTE
   remains on heparin drip therapeutic PTT
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   PS [**11-17**] intermittently tachypneic in the mid 40's, started on
   vancomcyin [**9-25**] for gram negative rods ? VAP, diuresed with lasix,
   patient is 10L positive for LOS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   patient intubated [**9-17**] - unresposive and no gag
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: Currently intubated and more alert.  Became
   tachypneic to 40s on CPAP/PS of [**11-12**] yesterday despite aggressive
   suctioning, was increased to CPAP/PS of [**1-17**] and sedation increased.
   Will give pt some diaphragmatic rest today on AC and attempt CPAP/PS
   again in short trials to strengthen diaphragm.  Respiratory failure
   likely due to bilateral PEs, patient is s/p tPa treatment, now on
   heparin drip.  He has completed vanc/zosyn abx course for aspiration
   PNA but may have new VAP (see below). Also pt is still +11 L
   overloaded on this admission.
   - get patient out of bed to chair
   - wean down PEEP as tolerated.  Patient was able to tolerate PEEP of 5
   for most of yesterday, but became tachypneic overnight despite
   suctioning.  Likely due to increased secretions/intermittent plugging
   and muscle weakness.
   - IP consulted, scheduled for tracheostomy on [**Last Name (LF) 1786**], [**First Name3 (LF) 124**] likely have
   to be performed in OR
   - continue heparin drip for PE
   - continue to monitor PTT
   - diurese with lasix drip titrated to goal CVP of [**6-16**]. Do not
   overdiurese as pt has limited RV function. Goal negative 500cc -1L
   today.
   - frequent suctioning and pulmonary toliets
   - will attempt to suction and increase PEEP before increasing
   sedation.  Try and wean off sedation as much as possible.
   - avoid versed for sedation
   - hold tube feeds and heparin drip at midnight for planned trach
   tomorrow
   - contact IP about PEG placement along with trach
   .
   # RV dysfunction
 Pt noted to have RV dilation with severe global free
   wall hypokinesis due to Right heart strain due to PE.
   -If BP decreases (MAP<60), call Cardiology for stat ECHO to evaluate
   for potential tamponade. Do not give fluids as this can cause RV to
   dilate further and impair what function is there.  Will need to start
   dobuatine or milronone.
   -Appreciate cardiology recs
 will follow up
   -Gently diurese
 keep CVP 5-9.
   - consider IVC filter placement to prevent further PEs, RV cannot incur
   any further insults
   .
   # Fever and [**Name (NI) 8344**] Pt now afebrile and Leukocytosis resolved.
   Sputum cultures 8/12 demonstrated MSSA and pan sensitive Klebsiella. UA
   suggested UTI but Ucx demonstrated no growth. PICC and A-line tips sent
   for culture and vanco empirically started. Antibiotics course for
   aspiration PNA completed, but pt may have developed new VAP given
   prolonged period on ventilator. New sputum cx demonstrates GPC and GNR
   which may be residual from prior infection or new VAP.
   -D/c cipro as Ucx negative
   -Continue vancomycin pending PICC and A-line cultures and speciation of
   sputum cultures
   -f/u cultures
   -tylenol for fever
   .
   # Alkalosis:  Pt with metabolic alkalosis and with resolving
   respiratory alkalosis, although he does become tachypneic when PEEP
   decreased to 5, perhaps due to intermitting mucous plugging as above.
   Metabolic alkalosis most likely due to contraction alkalosis as we are
   actively diuresing him, and he is not vomiting, not receiving bicarb,
   and is receiving TFs so OG not to suction.
   -Give KCl as we will continue diuresis
   -Follow ABGs
   .
   # Bleeding
 Hct slowly decreasing although nose now packed and
   hematuria resolving. Pt had bleeding from anterior pharyngeal area
   during tPa treatment.  Bleeding likely secondary to trauma sustained
   during aggressive suctioning prior to intubation.  Hematuria improving
 attributed to trauma from prior foley administration. UA negative for
   red cell casts suggestive of kidney emboli. Clot has been slow to
   clear.  Antithrombin is normal
   - reconsult ENT about nasal packing.
   - If rebleeds, give 3 sprays afrin b/l and hold pressure 15 min. If
   continues to bleed, call ENT.
   - Monitor Hct
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on admission
   and episodes of A flutter at night with HR 75-114. Pt on  diltizaem PO
   and metoprolol although heart rate still increases to 120s-140s.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - If in A-flutter and HR>120, give diltiazem 5mg IV PRN for better rate
   control given that pt already has severe heart strain.
   - continue diltiazem 90 mg PO QID given through NG
   - continue metoprolol 12.5 TID
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Pt more alert off sedation.  He did receive
   >400mg valium in the ICU during his stay with last dose 8/3. CT-head
   was negative.
   - Attempt to turn off propofol and use fentanyl boluses
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   .
   # Weakness
 patient has had prolonged stay in hospital
   - PT consult
   ICU Care
   Nutrition:
   Tube feeds held for trach, can restart after procedure
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU

2164-09-28 10:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilatedf.
   Experienced fever last PM, transient hypotension.
   Transient hypotension this AM.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-9-25**] 10:00 PM
   Vancomycin - [**2164-9-28**] 07:42 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-9-28**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.7
C (99.8
   HR: 100 (85 - 117) bpm
   BP: 94/60(68) {90/60(68) - 136/97(104)} mmHg
   RR: 15 (14 - 44) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 10 (8 - 15)mmHg
   Total In:
                                                                  3,032 mL
                                                                    471 mL
   PO:
   TF:
                                                                  1,345 mL
   IVF:
                                                                  1,327 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                  1,235 mL
   Urine:
                                                                  3,400 mL
                                                                  1,235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -368 mL
                                                                   -764 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 303 (303 - 576) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.49/44/113/32/9
   Ve: 11.2 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube, Nasal packing in place
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic), Heart sounds more distant on exam
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   477 K/uL
   103 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.7 mEq/L
   11 mg/dL
   94 mEq/L
   138 mEq/L
   28.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2164-9-25**]  03:05 AM
                             [**2164-9-25**]  05:33 PM
                             [**2164-9-25**]  05:35 PM
                             [**2164-9-26**]  04:59 AM
                             [**2164-9-26**]  03:34 PM
                             [**2164-9-26**]  11:57 PM
                             [**2164-9-27**]  04:26 AM
                             [**2164-9-27**]  05:07 PM
                             [**2164-9-28**]  06:04 AM
                             [**2164-9-28**]  08:00 AM
   WBC
   10.2
   9.0
   9.3
   11.9
   Hct
   29.4
   28.1
   29.1
   28.6
   Plt
   [**Telephone/Fax (3) 8397**]77
   Cr
   0.6
   0.4
   0.4
   0.5
   0.5
   0.6
   0.5
   TCO2
   32
   32
   34
   Glucose
   118
   104
   106
   108
   109
   103
   Other labs: PT / PTT / INR:13.2/22.8/1.1, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:70.2 %, Lymph:18.1 %, Mono:6.4 %, Eos:5.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Multifactorial, including sedation,
   volume-overload, right heart failure, perhaps component of pulmonary
   embolism/atalectasis, and generalized weakness.   Remains PEEP
   sensitive, may be related to volume expansion.  Continue to allow to
   wake up, continue diuresis (gently given prior RV dysfxn before
   lysis).  Very limited progress with SBT.  Plan to move to tracheotomy
   tube (scheduled for today).
   THROMBOEMBOLIC DISEASE
 s/p lysis for severe clot burden, with some
   response.  Unclear as to whether there is component of chronicity to to
   pulmonary emboli.  Will need follow-up to assess for development of
   chronic thromboembolic pulmonary hypertension.  Would recommend
   placement IVC filter to protect from recurrent emoblism.
   PERICARDIAL EFFUSION -- with recurrent hypotension and more distant
   heart sounds, would repeat ECHO to assess for increased pericardial
   effusion and evideince for tamponade.
   RV DYSFUNCTION
 Severe; attributed to pulmonary emboli, right outflow
   obstruction.  Severe dysfunction.  No echo evidence for recovery of RV
   function since thrombectomy.  Uncertain as to nature of chronicity (ex.
   Chronic thromboembolic disease, chronic thromboembolic pulmonary
   hypertension).
   WEAKNESS, GENERALIZED -- deconditioning, ICU polyneuropathy.  No
   steroid or paralytic use in early portion of hospitalization.  Splints,
   consider specialized mattress.  Would proceed with PT consult.
   ALTERED MENTAL STATUS --   Improved today, suspect slow clearance of
   benzodiazepines.  Monitor benzidiazepine periodically to monitor
   clearance.  Hope to d/c propofol once tracheostomy tube placed.
   FEVER -- Recurrent.  Concerns include evolving tracheobronchitis or
   pneumonia (VAP), line-related infection (+a-line culture), or sinusitis
   (nasal packing in place).  Check sputum culture, blood culture
   results.  Send stool for C. diff.  Plan emirical Ceftriaxone and
   Vanco.
   EPISTAXIS -- Appreciate ENT input.  Now w/ posterior nasal packing
   maintain.  Hope to discontinue nasal packing soon.
   HEMATURIA -- likely Foley trauma in setting of heparin infusion.
   Improving.
   A-FIB -- possibly related to PE given present on admission (vs.
   alcohol).  Rate currently controlled.   Diltiazem standing dose and
   prn.
   ETOH ABUSE -- now beyond risk for acute withdrawal.  Social service
   consult.
   NUTRITIONAL SUPPORT
 plan for PEG at time of trach.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-09-29 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2164-9-28**] 11:00 AM
 EKG - At [**2164-9-28**] 11:10 AM
 PERCUTANEOUS TRACHEOSTOMY - At [**2164-9-28**] 05:00 PM
   -per ENT all nasal packing is absorbable and does not need to be
   removed
   - per micro, sputum MRSA and GNR likely oropharyngeal flora/contaminate
   - Echo today: right ventricle is no longer dilated, and contractile
   function is markedly improved. The pericardial effusion is smaller.
   - changed Metoprolol Tartrate 12.5 mg PO TID to IV until PEG placed
   - Trach today; PEG and IVC filter after fever and blood cx resolved
   - briefly on levophed during trach (max rate at 0.06 mcg/kg/min) for
   SBP 86
   - restart heparin drip (WITHOUT bolus) in AM with goal PTT 60
   - vent settings 19:45- AC 550x14, 8 PEEP, 0.4 FiO2
   - changed settings to CPAP/PS 8/5 0.4 FiO2 at 0541
   - diuresis goal: -500-1L, at 11pm was -1.7L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-9-28**] 12:00 PM
   Vancomycin - [**2164-9-28**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2164-9-28**] 04:43 PM
   Propofol - [**2164-9-28**] 04:50 PM
   Fentanyl - [**2164-9-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-29**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.6
   HR: 98 (94 - 113) bpm
   BP: 111/71(79) {86/56(64) - 135/89(100)} mmHg
   RR: 30 (8 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.8 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 10 (10 - 12)mmHg
   Total In:
                                                                  1,298 mL
                                                                    615 mL
   PO:
   TF:
                                                                    240 mL
                                                                    417 mL
   IVF:
                                                                    868 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,220 mL
   Urine:
                                                                  2,900 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,602 mL
                                                                   -605 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 696 (320 - 696) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.49/44/113/32/9
   Ve: 10.1 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General: intubated, trach site clean, alert and responsive to question,
   follows simple commands, trying to talk
   HEENT: pupils 2mm/equal, MMM
   Lungs: apices clear anteriorly, bibasilar crackles, difficult to assess
   CV: distant heart sounds, Irregularly irregular, no murmurs, rubs,
   gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2+ pitting edema, no leg
   edema
   Back: slight tenderness to palpation over spinal processes of lower
   back
   GU: foley with blood in urine
   Neuro: Able to follow commands
 squeeze fingers ([**5-13**]), plantar flex
   ([**5-13**]) and wiggle toes b/l
   Labs / Radiology
   437 K/uL
   9.9 g/dL
   110 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.7 mEq/L
   11 mg/dL
   98 mEq/L
   139 mEq/L
   29.0 %
   9.6 K/uL
        [image002.jpg]
                             [**2164-9-25**]  05:35 PM
                             [**2164-9-26**]  04:59 AM
                             [**2164-9-26**]  03:34 PM
                             [**2164-9-26**]  11:57 PM
                             [**2164-9-27**]  04:26 AM
                             [**2164-9-27**]  05:07 PM
                             [**2164-9-28**]  06:04 AM
                             [**2164-9-28**]  08:00 AM
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
   WBC
   9.0
   9.3
   11.9
   9.6
   Hct
   28.1
   29.1
   28.6
   29.0
   Plt
   445
   447
   477
   437
   Cr
   0.4
   0.5
   0.5
   0.6
   0.5
   0.5
   0.5
   TCO2
   32
   32
   34
   Glucose
   104
   106
   108
   109
   103
   106
   110
   Other labs: PT / PTT / INR:13.3/23.7/1.1, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:70.2 %, Lymph:18.1 %, Mono:6.4 %, Eos:5.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   A line tip
 positive for coag negative staph
   Sputum ([**9-28**])
 4+ gram positive cocci in pairs and clusters, 1+ gram
   negative rods
   Respiratory culture ([**9-25**])
 coag positive staph aureus
                STAPH AUREUS COAG +
                             |
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S
   Echo ([**9-28**]) - The left atrium is dilated. The right atrium is
   moderately dilated. Left ventricular wall thicknesses are normal. The
   left ventricular cavity is small. Left ventricular systolic function is
   hyperdynamic (EF 70-80%). The right ventricular cavity is dilated with
   borderline normal free wall function. The aortic valve leaflets (3)
   appear structurally normal with good leaflet excursion and no aortic
   regurgitation. The mitral valve leaflets are mildly thickened. There is
   no mitral valve prolapse. Mild (1+) mitral regurgitation is seen. The
   estimated pulmonary artery systolic pressure is normal. There is a
   trivial/physiologic pericardial effusion. There are no
   echocardiographic signs of tamponade.
   Compared with the findings of the prior study (images reviewed) of [**2164-9-24**], the right ventricle is no longer dilated, and contractile
   function is markedly improved. The pericardial effusion is smaller.
   Assessment and Plan
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 PULMONARY EMBOLISM (PE), ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   PS [**11-17**] intermittently tachypneic in the mid 40's, started on
   vancomcyin [**9-25**] for gram negative rods ? VAP, diuresed with lasix,
   patient is 10L positive for LOS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   patient intubated [**9-17**] - unresposive and no gag
   tracheostomy [**9-27**]
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   #. Respiratory Failure: s/p tracheostomy on [**9-27**].  Pt is alert and
   cooperative.  Became tachypneic to 40s on CPAP/PS of [**11-22**] yesterday
   despite aggressive suctioning, was placed back on AC for diaphragmatic
   rest.  Currently on AC: Vt 550, RR 14, PEEP 12, FiO2 0.4.  Respiratory
   failure likely due to bilateral Pes.  Patient is s/p tPa treatment,
   maintained on heparin drip which was held for tracheostomy yesterday.
   Pt may have new VAP (see below).  Also pt
s fluid balance is still +9
   L  over course of admission.
   - Out of bed to chair
   - PEG tube placement to be scheduled once fevers and cultures resolve
   - restart heparin drip for PE, monitor PTT
   - diurese with lasix drip titrated to goal CVP of [**6-16**]. Goal negative
   500cc -1L today.
   - frequent suctioning and pulmonary toliets.
   - avoid versed for sedation
   .
   # RV dysfunction
 Pt noted to have RV dilation with severe global free
   wall hypokinesis due to Right heart strain due to PE on initial echo.
   Repeat echo shows right ventricle is no longer dilated and contractile
   function is markedly improved.  Heart sounds sound distant but echo
   shows that pericardial effusion is also improved.
   - Cardiology signing off - if hypotensive, stop diuresis, do ECHO; if
   Echo negative, THEN start ionotropic [**Doctor Last Name **]
   - Gently diurese
 keep CVP 5-9.
   - consider IVC filter placement, patient
s right RV function has
   recovered
   .
   # Fever and Leukocytosis
 Afebrile overnight.  Was pan-cultured
   yesterday.  Antibiotics course for aspiration PNA completed, but pt may
   have developed new VAP given prolonged period on ventilator, currently
   on vancomycin. New sputum cx demonstrates GPC and GNR which may be
   residual from prior infection or new VAP.  Consider possibility of
   sinusitis because of gauze packing in nostril.
   - broaden coverage with ceftriaxone for positive sputum culture and
   spiking fever despite on vancomycin
   - Continue vancomycin pending PICC and A-line cultures and speciation
   of sputum cultures
   - f/u cultures
   - tylenol for fever
   .
   # Alkalosis:  Pt with metabolic alkalosis and with resolving
   respiratory alkalosis.  Metabolic alkalosis most likely due to
   contraction alkalosis as we are actively diuresing him, and he is not
   vomiting, not receiving bicarb, and is receiving TFs so OG not to
   suction.
   -Give KCl as we will continue diuresis
   -Follow ABGs
   .
   # Bleeding
 Hct stable at 29.0 today.  Nose still packed, no signs of
   further bleeding.  Pt had bleeding from anterior pharyngeal area during
   tPa treatment, packed with absorbable packing by ENT.  Bleeding likely
   secondary to trauma sustained during aggressive suctioning prior to
   intubation.  Hematuria resolving, attributed to trauma from prior foley
   administration. UA negative for red cell casts suggestive of kidney
   emboli. Clot has been slow to clear.  Antithrombin is normal.
   - concerns for possible sinusitis given fever.  Packing appears to be
   gauze, but ENT assures us that it
s absorbable.
   - If rebleeds, give 3 sprays afrin b/l and hold pressure 15 min. If
   continues to bleed, call ENT.
   - Monitor Hct
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on admission
   and episodes of A flutter at night with HR 75-114. Pt on  diltizaem PO
   and metoprolol although heart rate still increases to 120s-140s.
   CHADS-2 score of zero.  Would benefit from ASA for long-term
   thromboembolic ppx, but will hold off in acute setting.
   - If in A-flutter and HR>120, give diltiazem 5mg IV PRN for better rate
   control given that pt already has severe heart strain.
   - continue diltiazem 90 mg PO QID given through NG
   - continue metoprolol 12.5 TID
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Pt more alert off sedation.  He did receive
   >400mg valium in the ICU during his stay with last dose 8/3. CT-head
   was negative.
   - Consider discontinuing propofol for fentanyl as pt will need pain
   control s/p trach/PEG
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   .
   # Weakness
 patient has had prolonged stay in hospital
   - PT recommendations
 out of bed to chair > 1 hr a day
   - OT consult
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-29**] 01:41 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU

2164-09-29 11:52:00 Physician Attending Progress Note
Chief Complaint: large bilateral PE
s, s/p hypoxemic respiratory
   failure now with trach placement
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    58 yo M admitted for etoh withdrawal, course c/b benzo toxicity, acute
   hypoxic respiratory failure, large bilateral PE
s with marked RV
   dysfunction, now with trach placed.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2164-9-28**] 11:00 AM - improved contractile
   function, less RV dilation.
 EKG - At [**2164-9-28**] 11:10 AM
 PERCUTANEOUS TRACHEOSTOMY - At [**2164-9-28**] 05:00 PM
   peg/IVC filter will need to wait until fevers resolve
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-9-28**] 12:00 PM
   Vancomycin - [**2164-9-29**] 08:07 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Heparin Sodium - 1,350 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2164-9-28**] 04:43 PM
   Propofol - [**2164-9-28**] 04:50 PM
   Pantoprazole (Protonix) - [**2164-9-29**] 07:54 AM
   Fentanyl - [**2164-9-29**] 10:09 AM
   Other medications:
   diltiazem
   chlorhexadine
   thiamine
   folic acid
   mvi
   senna
   lasix
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: packing in place, no further bleeding
   Nutritional Support: Tube feeds
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-9-29**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 108 (94 - 113) bpm
   BP: 119/71(81) {86/56(64) - 135/89(99)} mmHg
   RR: 14 (8 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 80.8 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 7 (7 - 12)mmHg
   Total In:
                                                                  1,298 mL
                                                                  1,471 mL
   PO:
   TF:
                                                                    240 mL
                                                                    672 mL
   IVF:
                                                                    868 mL
                                                                    479 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  2,165 mL
   Urine:
                                                                  2,900 mL
                                                                  2,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,602 mL
                                                                   -694 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 780 (320 - 780) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: mild prox muscle weakness, but able to lift all ext
   off bed
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   437 K/uL
   110 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.7 mEq/L
   11 mg/dL
   98 mEq/L
   139 mEq/L
   29.0 %
   9.6 K/uL
        [image002.jpg]
                             [**2164-9-25**]  05:35 PM
                             [**2164-9-26**]  04:59 AM
                             [**2164-9-26**]  03:34 PM
                             [**2164-9-26**]  11:57 PM
                             [**2164-9-27**]  04:26 AM
                             [**2164-9-27**]  05:07 PM
                             [**2164-9-28**]  06:04 AM
                             [**2164-9-28**]  08:00 AM
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
   WBC
   9.0
   9.3
   11.9
   9.6
   Hct
   28.1
   29.1
   28.6
   29.0
   Plt
   445
   447
   477
   437
   Cr
   0.4
   0.5
   0.5
   0.6
   0.5
   0.5
   0.5
   TCO2
   32
   32
   34
   Glucose
   104
   106
   108
   109
   103
   106
   110
   Other labs: PT / PTT / INR:13.3/23.7/1.1, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:70.2 %, Lymph:18.1 %, Mono:6.4 %, Eos:5.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Imaging: TTE - RV dilation improved with improved systolic function.
   Minimal effusion.
   Microbiology: sputum 4+ GPC's, 1+ GNR- MRSA
   Aline- coag neg staph
   Assessment and Plan
   58 yo M admitted for etoh withdrawal, course c/b benzo toxicity, acute
   hypoxic respiratory failure, large bilateral PE
s with marked RV
   dysfunction, now with trach placed.
 PULMONARY EMBOLISM (PE), ACUTE
   remains on heparin drip therapeutic PTT; hemodynamically stable - TTE
   showed improvement in RV function
   IVC filter now that he is afebrile - with goal for removal once cardiac
   improvement and stability
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]) - trached yesterday.
   PS 12/5 - continue to wean, FiO2 0.3
   continued diuresis - I/O goal -1L today
   wean propofol - switch to fentanyl bolus, add low dose seroquel in an
   effort to avoid benzos for agitation.
   Bacteremia, ?VAP - MRSA from sputum and coag neg staph
   CTX (day [**3-17**]) and vancomycin (day [**5-15**]).
   Nasal bleeding- absorbable packing- no evidence of further bleeding
   awaiting PEG
   Generalized Weakness
 ICU polyneuropathy.  PT.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-29**] 10:08 AM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-09-30 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started on seroquel, trying to wean off propofol
   - diuresis goal: -500-1L, at MN was +329cc and even since midnight.
   - rested on AC overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-9-29**] 12:11 PM
   Vancomycin - [**2164-9-29**] 07:34 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-9-29**] 07:54 AM
   Fentanyl - [**2164-9-29**] 09:00 PM
   Heparin Sodium - [**2164-9-29**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-30**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 117 (79 - 117) bpm
   BP: 128/78(91) {87/55(62) - 131/83(91)} mmHg
   RR: 21 (13 - 38) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80.8 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 11 (5 - 17)mmHg
   Total In:
                                                                  3,273 mL
                                                                    622 mL
   PO:
   TF:
                                                                  1,521 mL
                                                                    440 mL
   IVF:
                                                                  1,062 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  2,944 mL
                                                                    700 mL
   Urine:
                                                                  2,944 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    329 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 348 (248 - 831) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 94%
   ABG: ///31/
   Ve: 12 L/min
   94% on AC 550 x 14 with FiO2 40% and PEEP 5. No ABG.
   Physical Examination
   General: intubated, trach site clean, alert and responsive to question,
   follows simple commands, trying to talk
   HEENT: pupils 2mm/equal, MMM
   Lungs: apices clear anteriorly, bibasilar crackles, difficult to assess
   CV: distant heart sounds, Irregularly irregular, no murmurs, rubs,
   gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2+ pitting edema, no leg
   edema
   Back: slight tenderness to palpation over spinal processes of lower
   back
   GU: foley with blood in urine
   Neuro: Able to follow commands
 squeeze fingers ([**5-13**]), plantar flex
   ([**5-13**]) and wiggle toes b/l
   Labs / Radiology
   438 K/uL
   9.9 g/dL
   107 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   12 mg/dL
   98 mEq/L
   140 mEq/L
   28.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2164-9-26**]  03:34 PM
                             [**2164-9-26**]  11:57 PM
                             [**2164-9-27**]  04:26 AM
                             [**2164-9-27**]  05:07 PM
                             [**2164-9-28**]  06:04 AM
                             [**2164-9-28**]  08:00 AM
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
   WBC
   9.3
   11.9
   9.6
   8.6
   Hct
   29.1
   28.6
   29.0
   28.5
   Plt
   447
   477
   437
   438
   Cr
   0.5
   0.5
   0.6
   0.5
   0.5
   0.5
   0.6
   0.5
   TCO2
   32
   34
   Glucose
   106
   108
   109
   103
   106
   110
   111
   107
   Other labs: PT / PTT / INR:14.0/67.2/1.2,
   Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   .
   [**9-25**], [**9-26**], [**9-28**] BCx
 NGTD
   [**9-28**] Ucx
 no growth.
[**9-28**] Sputum - STAPH AUREUS COAG +.    MODERATE GROWTH.
         SENSITIVITIES PERFORMED ON CULTURE # 279-6969W [**2164-9-25**].
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   Respiratory culture ([**9-25**])
 coag positive staph aureus (MRSA)
                STAPH AUREUS COAG +
                             |
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S
[**9-25**] A-line catheter tip
 coag negative staphylococcus
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------     1 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------     2 S
VANCOMYCIN------------     2 S
   Assessment and Plan
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 PULMONARY EMBOLISM (PE), ACUTE
   remains on heparin drip therapeutic PTT
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   PS [**11-17**] intermittently tachypneic in the mid 40's, started on
   vancomcyin [**9-25**] for gram negative rods ? VAP, diuresed with lasix,
   patient is still 10L positive for LOS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   patient intubated [**9-17**] - unresposive and no gag
   .
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR,
   bilateral PEs, RV  dysfunction which has improved s/p trach for
   prolonged respiratory failure.
   .
   #. Respiratory Failure: s/p tracheostomy on [**9-27**].  Pt is alert and
   cooperative.  Was on PSV at 8/5 and was placed back on AC for
   diaphragmatic rest.  Currently on AC: Vt 550, RR 14, PEEP 5, FiO2 0.4.
   Respiratory failure likely due to bilateral Pes and fluid overload.
   Also, as he has been on vent for prolonged period, he is most likely
   weak and will require prolonged weaning course. Patient is s/p tPa
   treatment, maintained on heparin drip.  Pt may have new VAP (see
   below).  Also pt
s fluid balance is still +9 L  over course of
   admission.
   - Out of bed to chair
   - PEG tube placement to be scheduled once fevers and cultures resolve
   - restart heparin drip for PE, monitor PTT
 begin bridge to coumadin
   - diurese with lasix drip titrated to goal CVP of [**6-16**]. Goal negative 1L
   today.
   - frequent suctioning and pulmonary toliets.
   - avoid versed for sedation
   - decrease pressure support and FiO2 as tolerated with periods of AC to
   rest vs diaphragmatic rest overnight on AC
   .
   # RV dysfunction
 due to R heart strain after bilateral PE
s. Repeat
   echo shows right ventricle is no longer dilated and contractile
   function is markedly improved.  Heart sounds sound distant but echo
   shows that pericardial effusion is also improved.
   - Cardiology signed off - if hypotensive, stop diuresis, do ECHO; if
   Echo negative, THEN start ionotropic [**Doctor Last Name **]
   - Can diurese a bit more aggressively, but [**Male First Name (un) **]
t let CVP <5.
   - Cards unsure about utility of IVC filter placement but will still
   pursue filter as RV has just started to recover.
   .
   # Fever and Leukocytosis
 Afebrile overnight and leukocytosis
   resolved.  Was pan-cultured [**9-28**].  Antibiotics course for aspiration
   PNA completed, but pt may have developed new VAP given prolonged period
   on ventilator, currently on vancomycin. New sputum cx demonstrates GPC
   and GNR which may be residual from prior infection or new VAP.
   Consider possibility of sinusitis because of gauze packing in nostril.
   - Continue ceftriaxone (day [**4-14**]) for positive sputum culture and
   spiking fever despite being on vancomycin
   - Continue vancomycin (day [**6-14**]) for staph in A-line cultures and MRSA
   in sputum
   - f/u cultures
   - tylenol for fever
   .
   # Alkalosis:  No new ABG. Pt with metabolic alkalosis and with
   resolving respiratory alkalosis.  Metabolic alkalosis most likely due
   to contraction alkalosis as we are actively diuresing him, and he is
   not vomiting, not receiving bicarb, and is receiving TFs so OG not to
   suction.
   -Give KCl as we will continue diuresis
   -Follow ABGs
   .
   # Bleeding
 Hct stable at 28.5 today.  Nose still packed, no signs of
   further bleeding.  Pt had bleeding from anterior pharyngeal area during
   tPa treatment, packed with absorbable packing by ENT.  Bleeding likely
   secondary to trauma sustained during aggressive suctioning prior to
   intubation.  Hematuria resolving, attributed to trauma from prior foley
   administration. UA negative for red cell casts suggestive of kidney
   emboli. Clot has been slow to clear.  Antithrombin is normal.
   - concerns for possible sinusitis given fever.  Packing appears to be
   gauze, but ENT assures us that it
s absorbable.
   - If rebleeds, give 3 sprays afrin b/l and hold pressure 15 min. If
   continues to bleed, call ENT.
   - Monitor Hct
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on admission
   and episodes of A flutter at night with HR 79-117. Pt on  diltizaem PO
   and metoprolol. CHADS-2 score of zero.  Would benefit from ASA for
   long-term thromboembolic ppx, but will hold off in acute setting.
   - If in A-flutter and HR>120, give diltiazem 5mg IV PRN for better rate
   control given that pt already has severe heart strain.
   - continue diltiazem 90 mg PO QID given through NG
   - continue metoprolol 12.5 TID
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Pt more alert off sedation.  He did receive
   >400mg valium in the ICU during his stay with last dose 8/3. CT-head
   was negative.
   -          wean patient off propofol as tolerated
   -          avoid benzos
   -          start low dose seroquel
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   .
   # Weakness
 patient has had prolonged stay in hospital
   - PT recommendations
 out of bed to chair > 1 hr a day
   - OT consult
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2164-9-30**] 04:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Prophylaxis:
   DVT (treatment): heparin drip
   Stress ulcer: lansoprazole PO
   VAP:  bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU

2164-09-30 12:31:00 Physician Attending Progress Note
Chief Complaint: respiratory failure s/p trach, bilateral PE
   HPI:
   58 yo M with etoh withdrawal, course c/b by massive bilateral PE
s. Now
   s/p trach.
   24 Hour Events:
   started seroquel- propofol gtt stopped
   rested on AC overnight
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: trached
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-9-29**] 12:11 PM
   Vancomycin - [**2164-9-30**] 07:52 AM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2164-9-29**] 11:00 PM
   Lansoprazole (Prevacid) - [**2164-9-30**] 07:52 AM
   Fentanyl - [**2164-9-30**] 08:12 AM
   Other medications:
   chlorhex
   thiamine
   folic acid
   MVI
   vanco
   CTX
   heparin gtt
   lasix gtt
   colace
   senna
   ppi
   diltiazem
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Complaining of back pain, denies dyspnea
   Flowsheet Data as of  [**2164-9-30**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 112 (79 - 126) bpm
   BP: 127/79(91) {87/55(62) - 132/83(93)} mmHg
   RR: 26 (13 - 38) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 75.2 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 11 (5 - 21)mmHg
   Total In:
                                                                  3,273 mL
                                                                  1,394 mL
   PO:
   TF:
                                                                  1,521 mL
                                                                    699 mL
   IVF:
                                                                  1,062 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                  2,944 mL
                                                                  1,290 mL
   Urine:
                                                                  2,944 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    329 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 547 (248 - 831) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 11.9 L/min
   Physical Examination
   Mild respiratory distress
   Alert and following commands
   Lungs with palpable rhonchi and mild exp wheezes
   Tachycardic
   Abdomen is benign
   Strength is 4+/5 upper and lower ext
   Labs / Radiology
   9.9 g/dL
   438 K/uL
   107 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   12 mg/dL
   98 mEq/L
   140 mEq/L
   28.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2164-9-26**]  03:34 PM
                             [**2164-9-26**]  11:57 PM
                             [**2164-9-27**]  04:26 AM
                             [**2164-9-27**]  05:07 PM
                             [**2164-9-28**]  06:04 AM
                             [**2164-9-28**]  08:00 AM
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
   WBC
   9.3
   11.9
   9.6
   8.6
   Hct
   29.1
   28.6
   29.0
   28.5
   Plt
   447
   477
   437
   438
   Cr
   0.5
   0.5
   0.6
   0.5
   0.5
   0.5
   0.6
   0.5
   TCO2
   32
   34
   Glucose
   106
   108
   109
   103
   106
   110
   111
   107
   Other labs: PT / PTT / INR:14.0/67.2/1.2, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:70.2 %, Lymph:18.1 %, Mono:6.4 %, Eos:5.0 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Microbiology: MRSA in sputum
   coag neg staph from aline
   Assessment and Plan
   58 yo M with etoh withdrawal, course c/b by massive bilateral PE
s and
   hypoxic respiratory failure. Now s/p trach.
   Acute Respiratory Failure - s/p trach, doing well, although remains
   tachypneic with high minute ventilation- suggesting continued alveolar
   dead space. Feels comfortable despite RR in 30's. Being treated also
   for [**Year (4 digits) 3005**] continues to have secretions, similar in color but increased in
   amount.
   - can control agitation with seroquel (was on as an outpatient)
   - continued diuresis on lasix gtt
   - PS trials daily, now back on A/c
   - peg pending
   Bilateral PE's - RV function is much improved via repeat TTE. Continues
   on heparin gtt - will not place IVC filter.
   Afib with RVR - simplify regimen to dilt only, fairly tachycardic on
   trach collar trial
   Low grade fever
 source unclear, consider Pes, [**Name (NI) 3005**], sinusitis (packing
   in place) and drug reaction (elevated eos on [**9-27**]).
   - treating for incomplete treatment of [**Month/Year (2) 3005**] with vanco ([**6-14**]) and CTX
   ([**4-14**])
   - recheck diff
   Mental Status - improves daily - on seroquel, off propofol.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2164-9-30**] 04:00 AM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2164-9-17**] 09:56 AM
   Comments: place piv's pull cvl today
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   [**Year (4 digits) 3005**]: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-10-01 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2164-9-30**] 08:00 PM
   -Agitated during day. Pt still alert and responsive - states he feels
   agitated. Exam unchanged. Pt states he took ativan prior to coming to
   hospital (denied valium). ?[**Month (only) 8**] be withdrawing from benzo's. Given
   ativan x1 for agitation at 1730 with some calming. Received PM seroquel
   and fell asleep. D/w attending - perhaps standing ativan dose (0.5mg
   TID).
   -Temp 101.3 - not cultured as we have positive cultures and he is on
   Abx - will follow; CVL should be pulled and tip cultured.
   -Pt very agitated- NSG concerned about obtaining peripheral access and
   removing central line. Placing PIV x2 and removing central line not
   done.
   -Diuresis: goal -1L; pt -50cc at 2100 but CVP 5-6. Lasix at 3mg/hr.
   -Tube feeds held, heparin not held for possible PEG.
   -changed to PSV 10/5 at 5AM. doing well. no ABG.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-9-30**] 12:26 PM
   Vancomycin - [**2164-9-30**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2164-9-30**] 07:52 AM
   Diltiazem - [**2164-9-30**] 01:40 PM
   Lorazepam (Ativan) - [**2164-9-30**] 01:57 PM
   Heparin Sodium - [**2164-9-30**] 05:49 PM
   Fentanyl - [**2164-9-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-1**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.2
C (100.8
   HR: 93 (86 - 129) bpm
   BP: 110/73(82) {93/64(71) - 139/95(103)} mmHg
   RR: 28 (17 - 42) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.5 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 7 (1 - 236)mmHg
   Total In:
                                                                  2,880 mL
                                                                    293 mL
   PO:
   TF:
                                                                  1,460 mL
                                                                      9 mL
   IVF:
                                                                  1,010 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                  1,060 mL
   Urine:
                                                                  3,120 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                   -767 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 314 (314 - 547) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.52/39/126/30/8
   Ve: 12.4 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General: intubated, trach site clean, alert and responsive to question,
   follows simple commands, trying to talk
   HEENT: pupils 2mm/equal, MMM
   Lungs: apices clear anteriorly, bibasilar crackles, difficult to assess
   CV: distant heart sounds, Irregularly irregular, no murmurs, rubs,
   gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2+ pitting edema, no leg
   edema
   Back: slight tenderness to palpation over spinal processes of lower
   back
   GU: foley with clear yellow urine, no blood
   Neuro: Able to follow commands
 squeeze fingers ([**5-13**]), plantar flex
   ([**5-13**]) and wiggle toes b/l
   Labs / Radiology
   492 K/uL
   10.5 g/dL
   119 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   9 mg/dL
   102 mEq/L
   143 mEq/L
   30.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2164-9-27**]  04:26 AM
                             [**2164-9-27**]  05:07 PM
                             [**2164-9-28**]  06:04 AM
                             [**2164-9-28**]  08:00 AM
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
                             [**2164-10-1**]  12:26 AM
                             [**2164-10-1**]  05:31 AM
   WBC
   9.3
   11.9
   9.6
   8.6
   9.3
   Hct
   29.1
   28.6
   29.0
   28.5
   30.9
   Plt
   447
   477
   437
   438
   492
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   0.6
   0.5
   0.6
   TCO2
   34
   33
   Glucose
   108
   109
   103
   106
   110
   111
   107
   119
   Other labs: PT / PTT / INR:14.0/68.1/1.2, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:68.9 %, Lymph:20.9 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   .
   [**9-25**], [**9-26**], [**9-28**] BCx
 NGTD
   [**9-28**] Ucx
 negative
Sputum   GRAM STAIN (Final [**2164-9-28**]):
      <10 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      Oropharyngeal flora.
      STAPH AUREUS COAG +.    MODERATE GROWTH.
         SENSITIVITIES PERFORMED ON CULTURE # 279-6969W [**2164-9-25**].
      KLEBSIELLA PNEUMONIAE.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------    16 I
CIPROFLOXACIN---------     1 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
   No CXR today
   Assessment and Plan
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR,
   bilateral PEs, RV  dysfunction which has improved s/p trach for
   prolonged respiratory failure.
   .
   #. Respiratory Failure: s/p tracheostomy on [**9-27**].  Pt is alert and
   cooperative.  Was on PSV at 8/5 and was placed back on AC for
   diaphragmatic rest (Vt 550, RR 14, PEEP 5, FiO2 0.4) overnight. Back on
   PSV 5/5 this morning. Respiratory failure likely due to bilateral Pes
   and fluid overload.  Also, as he has been on vent for prolonged period,
   he is most likely weak and will require prolonged weaning course. He
   has high minute ventilations but SaO2 is good, suggesting he has lots
   of dead space and has increased RR to ventilate alveoli that are
   perfused. Patient is s/p tPa treatment, maintained on heparin drip.
   [**Month (only) 8**] also have new VAP (see below).  Also pt
s fluid balance is still +9
   L  over course of admission.
   - Out of bed to chair
   - PEG tube placement to be scheduled once fevers and cultures resolve
   - heparin drip for PE, monitor PTT
   - diurese with lasix drip titrated to goal CVP of [**6-16**]. Goal negative 1L
   today.
   - frequent suctioning and pulmonary toliets.
   - avoid versed for sedation
   - decrease pressure support and FiO2 as tolerated with periods of AC to
   rest
   .
   # RV dysfunction
 due to R heart strain after bilateral PE
s. Repeat
   echo shows right ventricle is no longer dilated (? still dilated-
   discrepancy in Echo report) and contractile function is markedly
   improved.  Heart sounds sound distant but echo shows that pericardial
   effusion is also improved.
   - Cardiology signed off - if hypotensive, stop diuresis, do ECHO; if
   Echo negative, THEN start ionotropic [**Doctor Last Name **]
   - Can diurese a bit more aggressively, but [**Male First Name (un) **]
t let CVP <5.
   - No IVC filter given RV function has improved.
   .
   # Fever and Leukocytosis
 Afebrile overnight and leukocytosis
   resolved.  Was pan-cultured [**9-28**].  Antibiotics course for aspiration
   PNA completed. New sputum cx demonstrates GPC and GNR which may be
   residual from prior infection or new VAP.
   - Continue ceftriaxone (day [**4-14**]) for positive sputum culture and
   spiking fever despite being on vancomycin
   - Continue vancomycin (day [**6-14**]) for staph in A-line cultures and MRSA
   in sputum
   - f/u cultures
   - tylenol for fever
   .
   # Bleeding
 Hct stable at 28.5 today.  Nose still packed, no signs of
   further bleeding.  Pt had bleeding from anterior pharyngeal area during
   tPa treatment, packed with absorbable packing by ENT.  Bleeding likely
   secondary to trauma sustained during aggressive suctioning prior to
   intubation.  Hematuria resolving, attributed to trauma from prior foley
   administration. UA negative for red cell casts suggestive of kidney
   emboli. Clot has been slow to clear.  Antithrombin is normal.
   - concerns for possible sinusitis given fever.  Packing appears to be
   gauze, but ENT assures us that it
s absorbable.
   - remove small amount of packing that is sticking out
 may not absorb
   - If rebleeds, give 3 sprays afrin b/l and hold pressure 15 min. If
   continues to bleed, call ENT.
   - Monitor Hct
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on admission
   and episodes of A flutter at night with HR 79-117. Pt on  diltizaem PO
   and metoprolol. CHADS-2 score of zero.  Would benefit from ASA for
   long-term thromboembolic ppx, but will hold off in acute setting.
   - If in A-fib/flutter and HR>120, give diltiazem 5mg IV PRN for better
   rate control given that pt already has severe heart strain.
   - continue diltiazem 90 mg PO QID given through NG
   - d/c metoprolol 12.5 TID
   - hold on ASA for now given acute setting
   .
   #. Change in Mental Status: Pt more alert off sedation.  He did receive
   >400mg valium in the ICU during his stay with last dose 8/3. CT-head
   was negative. Pt received benzos for trach on [**9-28**] so no utility in
   checking urine benzos at this time.
   -          Keep propofol off
   -          avoid benzos
   -          increase seroquel to home dose 50 mg PO BID: PRN agitation
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   .
   # Weakness
 patient has had prolonged stay in hospital
   - PT recommendations
 out of bed to chair > 1 hr a day
   - OT consult
   ICU Care
   Nutrition: NPO for PEG
   Glycemic Control:  monitoring
   Lines:
   Multi Lumen - [**2164-9-17**] 09:[**Street Address(2) 8432**] PIV x 2 and remove IJ
   (send tip for culture)
   Prophylaxis:
   DVT (treatment): heparin drip
   Stress ulcer: lansoprazole PO
   VAP:  bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU

2164-10-01 12:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Continues to experience fevers.
   States back pain is chronic, and unchanged from chronic symptoms.  No
   new associated symptoms.  Somewhat worse when sitting in chair.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-9-30**] 12:26 PM
   Vancomycin - [**2164-9-30**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Diltiazem - [**2164-9-30**] 01:40 PM
   Lorazepam (Ativan) - [**2164-9-30**] 01:57 PM
   Heparin Sodium - [**2164-9-30**] 05:49 PM
   Fentanyl - [**2164-9-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-1**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.3
C (99.1
   HR: 96 (85 - 129) bpm
   BP: 108/74(81) {93/63(71) - 139/95(103)} mmHg
   RR: 29 (17 - 42) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.5 kg (admission): 84.9 kg
   Height: 70 Inch
   CVP: 10 (1 - 236)mmHg
   Total In:
                                                                  2,880 mL
                                                                    460 mL
   PO:
   TF:
                                                                  1,460 mL
                                                                      9 mL
   IVF:
                                                                  1,010 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                  1,360 mL
   Urine:
                                                                  3,120 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 755 (314 - 755) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.52/39/126/30/8
   Ve: 8.2 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   492 K/uL
   119 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   9 mg/dL
   102 mEq/L
   143 mEq/L
   30.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2164-9-27**]  04:26 AM
                             [**2164-9-27**]  05:07 PM
                             [**2164-9-28**]  06:04 AM
                             [**2164-9-28**]  08:00 AM
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
                             [**2164-10-1**]  12:26 AM
                             [**2164-10-1**]  05:31 AM
   WBC
   9.3
   11.9
   9.6
   8.6
   9.3
   Hct
   29.1
   28.6
   29.0
   28.5
   30.9
   Plt
   447
   477
   437
   438
   492
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   0.6
   0.5
   0.6
   TCO2
   34
   33
   Glucose
   108
   109
   103
   106
   110
   111
   107
   119
   Other labs: PT / PTT / INR:14.0/68.1/1.2, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:37/52, Alk Phos / T Bili:77/0.4,
   Differential-Neuts:68.9 %, Lymph:20.9 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   58 yo M admitted for etoh withdrawal, course c/b benzo toxicity, acute
   hypoxic respiratory failure, large bilateral PE
s with marked RV
   dysfunction, now with trach placed.
   PULMONARY EMBOLISM, ACUTE -- massive.  Remains on heparin drip with
   therapeutic PTT.  Hemodynamically stable.  Repeat echol demonstrates
   improvement in RV function.  [**Month (only) 8**] hold on IVC filter placement as RV
   improving.
   RV DYSFUNCTION -- attributed primarily to pulmonary emboli, clot
   burden.  Unclear whether component of chronic thromboembolic disease.
   Some improvement in RV function.
   RESPIRATORY FAILURE -- Multifactorial.  s/p tracheostomy.  Continue to
   work towards gradual wean to trach collar.  Currently receivieng
   treatment for VAP.
   FEVERS -- continue to monitor.  Stool for C. diff.  Consider drug
   fever.
   GENERALIZED WEAKNESS -- slowly improving.  Attributed to ICU
   polyneuropathy.  Continue PT consult.
   BACTEREMIA -- attributed to line-related infection.
   FLUIDS -- desire net negative, maintain lasix drip.
   EPISTAXIS -- absorbable packing in place.  No evidence of further
   bleeding
   NUTRITIONAL SUPPORT -- Tolerating TF.  Awaiting PEG.
   EtOH -- s/p withdrawal.  Monitor for benzodiazepine withdrawal
   (received large doses at time of admission)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-9-17**] 09:56 AM
   20 Gauge - [**2164-10-1**] 04:58 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-10-02 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2164-10-1**] 04:56 PM
   - plan for sister to be his HCP, just need to fill out paperwork
   - doing cycles of CPAP/PS for 2 hours, then 1 hour break with AC; plan
   for AC rest overnight (no need for gas in between as long as good
   sats)- Pressure support level: 10 cm/h2o PEEP: 5 cm/h2o FIO2: 40 %
   Please alternate with periods of resting on AC TV 550, R 14, PEEP 5
   FiO2 40
   - PIV x2 placed and d/c central line- tip sent for cx
   - pan cx for continual fever spikes and changed ceftriaxone to cipro
   - -1.48L at 8 pm
   - SBPs down to 70s after fentanyl 50mg bolus and dilt dose; responded
   to 250 NS bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-9-30**] 12:26 PM
   Vancomycin - [**2164-10-1**] 08:00 PM
   Ciprofloxacin - [**2164-10-1**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2164-10-1**] 07:59 PM
   Diazepam (Valium) - [**2164-10-2**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-2**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.3
C (97.3
   HR: 92 (85 - 129) bpm
   BP: 117/86(94) {76/28(55) - 144/90(99)} mmHg
   RR: 21 (10 - 29) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.5 kg (admission): 84.9 kg
   Height: 70 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  1,701 mL
                                                                    287 mL
   PO:
   TF:
                                                                    146 mL
                                                                      0 mL
   IVF:
                                                                  1,045 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  2,530 mL
                                                                    600 mL
   Urine:
                                                                  2,530 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -829 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 491 (491 - 834) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 93%
   ABG: ///19/
   Ve: 12 L/min
   Physical Examination
   General: intubated, trach site clean, alert and responsive to question,
   follows simple commands
   Lungs: apices clear anteriorly, difficult to assess
   CV: distant heart sounds, Irregularly irregular, no murmurs, rubs,
   gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arms with 2+ pitting edema, no leg
   edema
   Neuro: Able to follow commands
 squeeze fingers ([**5-13**]), plantar flex
   ([**5-13**]) and wiggle toes b/l
   Labs / Radiology
   354 K/uL
   13.0 g/dL
   138 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.9 mEq/L
   10 mg/dL
   100 mEq/L
   138 mEq/L
   38.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2164-9-27**]  05:07 PM
                             [**2164-9-28**]  06:04 AM
                             [**2164-9-28**]  08:00 AM
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
                             [**2164-10-1**]  12:26 AM
                             [**2164-10-1**]  05:31 AM
                             [**2164-10-2**]  03:51 AM
   WBC
   11.9
   9.6
   8.6
   9.3
   6.7
   Hct
   28.6
   29.0
   28.5
   30.9
   38.7
   Plt
   477
   437
   438
   492
   354
   Cr
   0.6
   0.5
   0.5
   0.5
   0.6
   0.5
   0.6
   0.7
   TCO2
   34
   33
   Glucose
   109
   103
   106
   110
   111
   107
   119
   138
   Other labs: PT / PTT / INR:15.1/85.1/1.3, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:31/37, Alk Phos / T Bili:82/0.5,
   Differential-Neuts:68.9 %, Lymph:20.9 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:10.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Respiratory culture ([**9-28**])
 staph aureus coag +, klebsiella
   Sputum culture ([**10-2**])
 pending
   Central line culture ([**10-1**])
 pending
   Blood cultures
 pending, NGTD
   No CXR
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 PULMONARY EMBOLISM (PE), ACUTE
   remains on heparin drip therapeutic PTT
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   PS [**11-17**] intermittently tachypneic in the mid 40's, started on
   vancomcyin [**9-25**] for gram negative rods ? VAP, diuresed with lasix,
   patient is 10L positive for LOS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   patient intubated [**9-17**] - unresposive and no gag
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR,
   bilateral PEs, RV  dysfunction which has improved s/p trach for
   prolonged respiratory failure.
   .
   #. Respiratory Failure: s/p tracheostomy on [**9-27**].  Pt is alert and
   cooperative.  Was on CPAP/PS at 10/5 and was placed back on AC for
   diaphragmatic rest (Vt 550, RR 14, PEEP 5, FiO2 0.4) overnight.
   Respiratory failure likely due to bilateral Pes and fluid overload.
   Also, as he has been on vent for prolonged period, he is most likely
   weak and will require prolonged weaning course. He has high minute
   ventilations but SaO2 is good, suggesting he has lots of dead space and
   has increased RR to ventilate alveoli that are perfused. Patient is s/p
   tPa treatment, maintained on heparin drip.  [**Month (only) 8**] also have new VAP (see
   below).  Also pt
s fluid balance is still + over course of admission.
   - Out of bed to chair
   - PEG tube placement to be scheduled once fevers and cultures resolve
   (earliest tomorrow)
   - heparin drip for PE, monitor PTT
   - diurese with lasix drip titrated to goal CVP of [**6-16**]. Goal negative 1L
   today.
   - frequent suctioning and pulmonary toliets.
   - avoid versed for sedation
   - decrease pressure support and FiO2 as tolerated with periods of AC to
   rest- plan for 2 hours CPAP/PS then 1 hour AC with AC o/n
   .
   # RV dysfunction
 due to R heart strain after bilateral PE
s. Repeat
   echo shows right ventricle is no longer dilated (? still dilated-
   discrepancy in Echo report) and contractile function is markedly
   improved.  Heart sounds sound distant but echo shows that pericardial
   effusion is also improved.
   - if hypotensive, stop diuresis, do ECHO; if Echo negative, THEN start
   ionotropic [**Doctor Last Name **]
   - Can diurese a bit more aggressively, but [**Male First Name (un) **]
t let CVP <5.
   - No IVC filter given RV function has improved.
   .
   # Fever and Leukocytosis
 Afebrile overnight and leukocytosis
   resolved.  Was pan-cultured [**9-28**].  Antibiotics course for aspiration
   PNA completed. New sputum cx demonstrates GPC and GNR which may be
   residual from prior infection or new VAP.  Chronic level of back pain
   makes acute process such as osteo less likely.
   - s/p 4 days of ceftriaxone for positive sputum culture and spiking
   fever despite being on vancomycin
   - off ceftriaxone [**3-12**] concern for drug fever; started cipro
   - Continue vancomycin (day [**7-15**]) for staph in A-line cultures and MRSA
   in sputum
   - pan-culture today given recent T spikes
   - f/u cultures
   - tylenol for fever
   .
   # Bleeding
 Hct stable today.  Nose still packed, no signs of further
   bleeding.  Pt had bleeding from anterior pharyngeal area during tPa
   treatment, packed with absorbable packing by ENT.  Bleeding likely
   secondary to trauma sustained during aggressive suctioning prior to
   intubation.  Hematuria resolved, attributed to trauma from prior foley
   administration. Antithrombin is normal.
   - concern for possible sinusitis given fever.  Packing appears to be
   gauze, but ENT assures us that it
s absorbable.
   - remove small amount of packing that is sticking out
 may not absorb
   - If rebleeds, give 3 sprays afrin b/l and hold pressure 15 min. If
   continues to bleed, call ENT.
   - Monitor Hct
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on admission
   and episodes of A flutter. Pt on diltizaem PO. CHADS-2 score of zero.
   Would benefit from ASA for long-term thromboembolic ppx, but will hold
   off in acute setting.
   - If in A-fib/flutter and HR>120, give diltiazem 5mg IV PRN for better
   rate control given that pt already has severe heart strain.
   - continue diltiazem 90 mg PO QID given through NG
   - d/c metoprolol 12.5 TID
   - hold on ASA for now given acute setting
   .
   #. Agitation/Change in Mental Status: Pt more alert off sedation but
   getting more agitated.  He did receive >400mg valium in the ICU during
   his stay with last dose 8/3. CT-head was negative. Pt received benzos
   for trach on [**9-28**] so no utility in checking urine benzos at this time.
   Agitated yesterday but pt still alert and responsive - states he feels
   agitated. Exam unchanged. Pt states he took ativan prior to coming to
   hospital (denied valium). ?[**Month (only) 8**] be withdrawing from benzo's. Given
   ativan x1 for agitation yesterday with some calming but quickly wore
   off. Received PM seroquel and fell asleep. D/w attending - perhaps
   standing ativan dose (0.5mg TID).
   -          Keep propofol off
   -          Valium 5mg IV BID PRN agitation assuming he is withdrawing
   from benzos
   -          increase seroquel to home dose 50 mg PO BID: PRN agitation
   .
   # Alcohol detoxification:  Pt past the withdrawal window. Prior to
   intubation was lethargic, presumably from large valium dose.
   - Thiamine, folate, MVI
   - Social work following
   .
   # Weakness
 patient has had prolonged stay in hospital
   - PT recommendations
 out of bed to chair > 1 hr a day
   - OT consult
   ICU Care
   Nutrition: NPO for PEG but will restart TFs as no PEG today
   Glycemic Control:  monitoring
   Lines:
   Multi Lumen - [**2164-9-17**] 09:[**Street Address(2) 8432**] PIV x 2 and remove IJ
   (send tip for culture)
   Prophylaxis:
   DVT (treatment): heparin drip
   Stress ulcer: lansoprazole PO
   VAP:  bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU

2164-10-02 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Experienced transient hypotension, responded to iv fluid bolus.
   Attributed to pharmacological agents (related to fentanyl iv bolus).
   Continues to experience daily fever.
   Remains on lasix infusion.
   States he is unaware of fevers -- no rigors.  Notes cough, but
   otherwise no new symptoms and WBC WNL.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: mechanically ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-9-30**] 12:26 PM
   Ciprofloxacin - [**2164-10-1**] 10:00 PM
   Vancomycin - [**2164-10-2**] 08:09 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2164-10-1**] 07:59 PM
   Diazepam (Valium) - [**2164-10-2**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechnical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-11**] Mild
   Pain location: Back pain
   Flowsheet Data as of  [**2164-10-2**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 39.4
C (102.9
   HR: 125 (85 - 129) bpm
   BP: 126/86(95) {76/28(55) - 150/90(99)} mmHg
   RR: 22 (10 - 27) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.5 kg (admission): 84.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,701 mL
                                                                    720 mL
   PO:
             TF:
                                                                    146 mL
                                                                      0 mL
   IVF:
                                                                  1,045 mL
                                                                    545 mL
   Blood products:
   Total out:
                                                                  2,530 mL
                                                                  1,170 mL
   Urine:
                                                                  2,530 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -829 mL
                                                                   -449 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 491 (491 - 834) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 14.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube, Trach tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   13.0 g/dL
   354 K/uL
   109 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   8 mg/dL
   96 mEq/L
   135 mEq/L
   38.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2164-9-27**]  05:07 PM
                             [**2164-9-28**]  06:04 AM
                             [**2164-9-28**]  08:00 AM
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
                             [**2164-10-1**]  12:26 AM
                             [**2164-10-1**]  05:31 AM
                             [**2164-10-2**]  03:51 AM
   WBC
   11.9
   9.6
   8.6
   9.3
   6.7
   Hct
   28.6
   29.0
   28.5
   30.9
   38.7
   Plt
   477
   437
   438
   492
   354
   Cr
   0.6
   0.5
   0.5
   0.5
   0.6
   0.5
   0.6
   0.7
   TCO2
   34
   33
   Glucose
   109
   103
   106
   110
   111
   107
   119
   109
   Other labs: PT / PTT / INR:15.1/85.1/1.3, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:31/37, Alk Phos / T Bili:82/0.5,
   Differential-Neuts:68.9 %, Lymph:20.9 %, Mono:7.6 %, Eos:2.0 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   58 yo M admitted for etoh withdrawal, course c/b benzo toxicity, acute
   hypoxic respiratory failure, large bilateral PE
s with marked RV
   dysfunction, now with trach placed.
   PULMONARY EMBOLISM, ACUTE -- massive.  Remains on heparin drip with
   therapeutic PTT.  Hemodynamically stable.  Repeat echo demonstrates
   improvement in RV function.  [**Month (only) 8**] hold on IVC filter placement as RV
   improving.
   RV DYSFUNCTION -- attributed primarily to pulmonary emboli, clot
   burden.  Unclear whether component of chronic thromboembolic disease.
   Some improvement in RV function.
   RESPIRATORY FAILURE -- Multifactorial.  s/p tracheostomy.  Continue to
   work towards gradual wean to trach collar.  Currently receivieng
   treatment for VAP.
   ACIDOSIS -- +AG.  Unclear etiology.  Evaluation in progress.
   TACHYCARDIA -- likely related to reduced pulmonary vascular bed.
   FEVERS -- continue to monitor.  Stool for C. diff.  Consider drug
   fever.  No clinical signs, other than cough and back pain (chronic)
   repeat CXR and check spine MRI.  Unclear sinusitis as etiology.
   Consider echo to assess for vegetations.
   GENERALIZED WEAKNESS -- slowly improving.  Attributed to ICU
   polyneuropathy.  Continue PT consult.
   BACTEREMIA -- attributed to line-related infection.  Line d/c'd.
   Complete course of antibiotic.
   FLUIDS -- desire net negative, maintain lasix drip.
   EPISTAXIS -- absorbable packing in place.  No evidence of further
   bleeding
   NUTRITIONAL SUPPORT -- Tolerating TF.  Awaiting PEG once fevers
   resolve.
   EtOH -- s/p withdrawal.  Monitor for benzodiazepine withdrawal
   (received large doses at time of admission)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-1**] 08:14 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-10-03 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.9
F - [**2164-10-2**] 10:00 AM
   .
   - a lot of secretion on suction and also in ventilator tubing
   - consented for HIV test
   - MRI spine ordered for continued spiking fevers and back pain
   - received seroquel, morphine and dilt around the same time, SBP
   dropped to 70s, responded to 1250 cc of NS
   -Diltiazem increased to 120mg PO QID yesteryday. Pt
s last two doses
   held due to BP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-9-30**] 12:26 PM
   Ciprofloxacin - [**2164-10-1**] 10:00 PM
   Vancomycin - [**2164-10-2**] 08:28 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Diltiazem - [**2164-10-2**] 12:40 PM
   Morphine Sulfate - [**2164-10-3**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-3**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.1
C (98.7
   HR: 93 (80 - 151) bpm
   BP: 95/73(79) {80/45(58) - 150/86(98)} mmHg
   RR: 22 (11 - 45) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.2 kg (admission): 84.9 kg
   Height: 70 Inch
              No central line.
   Total In:
                                                                  2,857 mL
                                                                    324 mL
   PO:
                              TF:
                                                                      0 mL
   IVF:
                                                                  2,441 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    480 mL
   Urine:
                                                                  1,750 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,107 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   Compliance: 91.7 cmH2O/mL
   SpO2: 99%
   Ve: 11.3 L/min
   99% on AC 550 x 14 with FiO2 40% and PEEP 5. No ABG.
   Physical Examination
   General: intubated, trach site clean, alert and responsive to question,
   follows simple commands
   Lungs: apices clear anteriorly, difficult to assess bases
   CV: distant heart sounds, Irregularly irregular, no murmurs, rubs,
   gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arm edema has resolved; no leg
   edema
   Neuro: Able to follow commands
 able to raise arms, squeeze fingers
   ([**5-13**]), plantar flex ([**5-13**]) and wiggle toes b/l
   Labs / Radiology
   429 K/uL
   10.4 g/dL
   109 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   10 mg/dL
   101 mEq/L
   136 mEq/L
   31.0 %
   11.9 K/uL
        [image002.jpg]
   Hct stable from [**2164-10-1**] AM.
                             [**2164-9-28**]  08:00 AM
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
                             [**2164-10-1**]  12:26 AM
                             [**2164-10-1**]  05:31 AM
                             [**2164-10-2**]  03:51 AM
                             [**2164-10-2**]  04:43 PM
                             [**2164-10-3**]  03:30 AM
   WBC
   9.6
   8.6
   9.3
   6.7
   11.9
   Hct
   29.0
   28.5
   30.9
   38.7
   31.0
   Plt
   437
   438
   492
   354
   429
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   0.7
   0.6
   0.5
   TCO2
   34
   33
   Glucose
   106
   110
   111
   107
   119
   109
   119
   109
   Other labs:
   PT / PTT / INR:16.4/97.2/1.5,
    Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Lactate 1.4
   .
   HIV: negative
   .
   Respiratory culture ([**9-28**])
 staph aureus coag +, klebsiella
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |          KLEBSIELLA PNEUMONIAE
                             |          |
AMPICILLIN/SULBACTAM--                8 S
CEFAZOLIN-------------              <=4 S
CEFEPIME--------------              <=1 S
CEFTAZIDIME-----------              <=1 S
CEFTRIAXONE-----------              <=1 S
CEFUROXIME------------               16 I
CIPROFLOXACIN---------                1 S
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S      <=1 S
LEVOFLOXACIN----------   =>8 R
MEROPENEM-------------           <=0.25 S
OXACILLIN-------------   =>4 R
PIPERACILLIN/TAZO-----              <=4 S
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TOBRAMYCIN------------              <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S      <=1 S
VANCOMYCIN------------   <=1 S
   .
   Sputum culture ([**10-2**])
 pending
>25 PMNs and <10 epithelial cells/100X field.
      2+ GRAM NEGATIVE ROD(S).
      2+ GRAM POSITIVE COCCI. IN CLUSTERS.
      1+ GRAM POSITIVE ROD(S).
  RESPIRATORY CULTURE (Preliminary):
   .
   Central line culture ([**10-1**])
 coag negative staph
   Blood cultures ([**9-28**], [**10-1**], [**10-2**])
 NGTD
   Urine Cx ([**10-2**]) - pending
   .
   No CXR [**2164-10-3**]
   MRI [**2164-10-3**]: pending
   Assessment and Plan
   .
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR,
   bilateral PEs, RV  dysfunction which has improved s/p trach for
   prolonged respiratory failure.
   .
   #. Respiratory Failure: s/p tracheostomy on [**9-28**].  Pt is alert and
   cooperative. Pt remains on AC and no vent changes made overnight.
   Respiratory failure likely due to bilateral PE
s (RV dysfunction now
   improved) and fluid overload.  Also, as he has been on vent for
   prolonged period, he is most likely weak and will require prolonged
   weaning course. Patient is s/p tPa treatment, maintained on heparin
   drip.  [**Month (only) 8**] also have new VAP (see below).  Also pt
s fluid balance is
   still +9.6L over course of admission but given hypotension will be more
   gentle with diuresis today.
   - Out of bed to chair
   - PEG tube tomorrow AM if pt does not spike fever (hold TFs at MN, hold
   heparin at 6AM).
   - heparin drip for PE, monitor PTT
 transition to coumadin pending PEG
   placement
   - diurese with lasix drip titrated to UOP>50-100cc/hr. Monitor BP
   closely as no Central line. Goal negative 500ccL today.
   - frequent suctioning and pulmonary toliets.
   - avoid versed for sedation
   - decrease pressure support and FiO2 as tolerated with periods of AC to
   rest- plan for 2 hours CPAP/PS then 1 hour AC with AC o/n
   .
   # Fever and Leukocytosis
 Febrile yesterday AM to 102.9.  Pan-cultured
   again on [**10-2**].  Pt
s A-line and central line both grew Coag negative
   staph aureus. Antibiotics course for aspiration PNA completed.  Pt c/o
   cough yesterday and sputum cx ([**10-2**]) demonstrates GPC, GPR (most likely
   diptheria from oropharynx) and GNR which may be new VAP or pt may be
   colonized with these organisms now. Possible sinusitis as pt had
   packing in nose. Chronic level of back pain makes acute process such as
   osteo less likely but MRI ordered as no other source for fever. CTX
   discontinued in concern for drug fever and changed to cipro.
   - Continue vancomycin (day 8) to cover MRSA
   - Continue cipro (day 3 + 3 days of CTX) for Klebsiella coverage
   - f/u cultures;
   - stop pan-culturing every time he spikes
   - tylenol for fever
   .
   #. Agitation: Pt still agitated requiring extra doses of valium
   yesterday. Pt calms down with valium suggesting agitation may be due to
   benzo withdrawal.
   -Valium 5mg IV BID PRN agitation assuming he is withdrawing from
   benzos; will give extra doses PRN after evaluation
   -Continue seroquel at home dose 50 mg PO BID: PRN agitation
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on admission
   and episodes of A flutter. Pt on diltizaem PO, increased yesterday but
   pt had episodes of hypotension when given in combination with morphine
   and seroquel. CHADS-2 score of zero.
   - If in A-fib/flutter and HR>120, give diltiazem 5mg IV PRN for better
   rate control given that pt already has some heart strain.
   - Decrease diltiazem increased to 90 mg PO QID given through NG
   - Will be coumadin for PE. [**Month (only) 8**] do Aspirin once coumadin course
   completed.
   .
   # Bleeding
 Hct stable today.  No signs of further bleeding from nose
   with packing removed or hematuria.
   - Monitor Hct
   .
   # Alcohol abuse
 thiamine, folate, MVI
   .
   # Weakness
 improving.
   - PT recommendations
 out of bed to chair > 1 hr a day
   - OT consult
 no note yet
   ICU Care
   Nutrition: Restart TF
s today;  hold at MN for PEG tomorrow if pt does
   not spike.
   Glycemic Control:  monitoring
   Lines:
   20 Gauge - [**2164-10-1**] 08:14 PM
   Prophylaxis:
   DVT treatment: heparin drip
   Stress ulcer: lasoprazole PO
   VAP:  bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU
 pt is being screened for LTACs pending PEG placement
   ------ Protected Section ------
   If MRI negative, will obtain ECHO to evaluate for endocarditis.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1588**] [**Last Name (NamePattern1) 8328**], MD
   on:[**2164-10-3**] 15:09 ------

2164-10-03 12:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubate, mechanically ventilated.
   Experienced transient hypotension last PM --> occured following
   diltiazem and morphine --> responded to iv fluid bolus.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-9-30**] 12:26 PM
   Ciprofloxacin - [**2164-10-1**] 10:00 PM
   Vancomycin - [**2164-10-3**] 08:04 AM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Diltiazem - [**2164-10-2**] 12:40 PM
   Morphine Sulfate - [**2164-10-3**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-11**] Mild
   Pain location: back pain (back)
   Flowsheet Data as of  [**2164-10-3**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.6
C (97.9
   HR: 89 (80 - 146) bpm
   BP: 103/69(76) {80/45(60) - 123/83(89)} mmHg
   RR: 16 (11 - 45) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.2 kg (admission): 84.9 kg
   Height: 70 Inch
             Total In:
                                                                  2,857 mL
                                                                    707 mL
   PO:
             TF:
                                                                      0 mL
   IVF:
                                                                  2,441 mL
                                                                    527 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    795 mL
   Urine:
                                                                  1,750 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,107 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 98%
   ABG: ///25/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal, Somnulant, but easy to arrouse.  Appropriate.
   Labs / Radiology
   10.4 g/dL
   429 K/uL
   109 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   10 mg/dL
   101 mEq/L
   136 mEq/L
   31.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2164-9-28**]  08:00 AM
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
                             [**2164-10-1**]  12:26 AM
                             [**2164-10-1**]  05:31 AM
                             [**2164-10-2**]  03:51 AM
                             [**2164-10-2**]  04:43 PM
                             [**2164-10-3**]  03:30 AM
   WBC
   9.6
   8.6
   9.3
   6.7
   11.9
   Hct
   29.0
   28.5
   30.9
   38.7
   31.0
   Plt
   437
   438
   492
   354
   429
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   0.7
   0.6
   0.5
   TCO2
   34
   33
   Glucose
   106
   110
   111
   107
   119
   109
   119
   109
   Other labs: PT / PTT / INR:16.4/97.2/1.5, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:31/37, Alk Phos / T Bili:82/0.5,
   Differential-Neuts:64.3 %, Lymph:25.6 %, Mono:5.9 %, Eos:3.8 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   58 yo M admitted for etoh withdrawal, course c/b benzo toxicity, acute
   hypoxic respiratory failure, large bilateral PE
s with marked RV
   dysfunction, now with trach placed.
   PULMONARY EMBOLISM, ACUTE -- massive.  Remains on heparin drip with
   therapeutic PTT.  Hemodynamically stable.  Repeat echo demonstrates
   improvement in RV function.  [**Month (only) 8**] hold on IVC filter placement as RV
   improving.  Hope to transition to coumadin once PEG placed.
   RV DYSFUNCTION -- attributed primarily to pulmonary emboli, clot
   burden.  Unclear whether component of chronic thromboembolic disease.
   Some improvement in RV function.
   RESPIRATORY FAILURE -- Multifactorial.  s/p tracheostomy.  Continue to
   work towards gradual wean to trach collar.  Currently receivieng
   treatment for VAP.
   ACIDOSIS -- +AG.  Unclear etiology.  Evaluation in progress.
   TACHYCARDIA -- likely related to reduced pulmonary vascular bed.
   FEVERS -- continue to monitor.  [**Month (only) 8**] be related to line-infection (+
   line-tip cultures).  Stool for C. diff.  Consider drug fever.  No
   clinical signs, other than cough and back pain (chronic)
 repeat CXR
   and check spine MRI.  Unclear sinusitis as etiology.  Consider echo to
   assess for vegetations.
   GENERALIZED WEAKNESS -- slowly improving.  Attributed to ICU
   polyneuropathy.  Continue PT consult.
   LINE-RELATED INFECTION -- both a-line and central line tip demonstrate
   Staph Coag NEgative.  Lines d/c'd.  Complete course of Vanco.
   FLUIDS -- desire net negative if possible, resume lasix drip.
   EPISTAXIS -- absorbable packing in place.  No evidence of further
   bleeding.
   NUTRITIONAL SUPPORT -- Tolerating TF.  Awaiting PEG once fevers
   resolve.
   EtOH -- s/p withdrawal.  Monitor for benzodiazepine withdrawal
   (received large doses at time of admission)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-1**] 08:14 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-10-04 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2164-10-3**] 09:30 AM
   -Hold TF's at MN
   -Hold Heparin at 6AM
   -PEG placement tomorrow afternoon unless spikes temp.
   -HIV negative
   -switch to PSV and if tachypneic, increase PSV. If unable to do, then
   will go back to AC, but you can ventilate someone on PSV. Pt on CPAP/PS
   [**11-12**] - has episodes of tachypnea and apnea (occur at least 1x/hr, last
   >25 sec b/c alarm at 25 sec and hesitant to make it longer) but pt does
   not appear to be in distress and does not desat (very odd). Change back
   to AC 550 x 14 at 40% and [**Last Name (un) 8521**] 5 and will try PSV during daytime.
   -MRI negative (PRELIM)
   -ECHO ordered to evaluate for vegetations
   -Has had vanco for 9 days now - can we d/c it??
   -Developed looser stools. Sent for c. diff.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-10-1**] 10:00 PM
   Vancomycin - [**2164-10-3**] 07:50 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2164-10-3**] 07:50 PM
   Morphine Sulfate - [**2164-10-4**] 03:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-4**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 89 (74 - 100) bpm
   BP: 109/80(88) {100/51(68) - 122/81(92)} mmHg
   RR: 21 (13 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81 kg (admission): 84.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,611 mL
                                                                    233 mL
   PO:
             TF:
                                                                    245 mL
                                                                      5 mL
   IVF:
                                                                    966 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    770 mL
   Urine:
                                                                  1,770 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -159 mL
                                                                   -537 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 575 (575 - 575) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 7.4 L/min
   Physical Examination
   General: intubated, trach site clean, alert and responsive to question,
   follows simple commands
   Lungs: apices clear anteriorly, difficult to assess bases
   CV: distant heart sounds, Irregularly irregular, no murmurs, rubs,
   gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arm edema has resolved; no leg
   edema
   Neuro: Able to follow commands
 able to raise arms, squeeze fingers
   ([**5-13**]), plantar flex ([**5-13**]) and wiggle toes b/l
   Labs / Radiology
   423 K/uL
   10.6 g/dL
   109 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   10 mg/dL
   101 mEq/L
   136 mEq/L
   30.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
                             [**2164-10-1**]  12:26 AM
                             [**2164-10-1**]  05:31 AM
                             [**2164-10-2**]  03:51 AM
                             [**2164-10-2**]  04:43 PM
                             [**2164-10-3**]  03:30 AM
                             [**2164-10-4**]  05:46 AM
   WBC
   9.6
   8.6
   9.3
   6.7
   11.9
   7.5
   Hct
   29.0
   28.5
   30.9
   38.7
   31.0
   30.7
   Plt
   437
   438
   492
   354
   429
   423
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   0.7
   0.6
   0.5
   TCO2
   33
   Glucose
   106
   110
   111
   107
   119
   109
   119
   109
   Other labs: PT / PTT / INR:16.4/79.2/1.5, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:31/37, Alk Phos / T Bili:82/0.5,
   Differential-Neuts:64.3 %, Lymph:25.6 %, Mono:5.9 %, Eos:3.8 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   C diff ([**10-4**])
 pending
Resp gram stain ([**10-2**])
 2+ GNR, 2+ GPC, 1+ GPR
   BCx ([**10-2**])
 pending
   Ucx ([**10-2**])
 no growth
   Central line
 coag neg staph
   Assessment and Plan
 DIARRHEA
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 PULMONARY EMBOLISM (PE), ACUTE
   remains on heparin drip therapeutic PTT
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   PS [**11-17**] intermittently tachypneic in the mid 40's, started on
   vancomcyin [**9-25**] for gram negative rods ? VAP, diuresed with lasix,
   patient is 10L positive for LOS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   patient intubated [**9-17**] - unresposive and no gag
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR,
   bilateral PEs, RV  dysfunction which has improved s/p trach for
   prolonged respiratory failure.
   .
   #. Respiratory Failure: s/p tracheostomy on [**9-28**].  Pt is alert and
   cooperative. Pt remains on AC and no vent changes made overnight.
   Respiratory failure likely due to bilateral PE
s (RV dysfunction now
   improved) and fluid overload.  Also, as he has been on vent for
   prolonged period, he is most likely weak and will require prolonged
   weaning course. Patient is s/p tPa treatment, maintained on heparin
   drip.  [**Month (only) 8**] also have new VAP (see below).  Also pt
s fluid balance is
   still +9.6L over course of admission but given hypotension will be more
   gentle with diuresis today.
   - Out of bed to chair
   - PEG tube tomorrow AM if pt does not spike fever (hold TFs at MN, hold
   heparin at 6AM).
   - heparin drip for PE, monitor PTT
 transition to coumadin pending PEG
   placement
   - diurese with lasix drip titrated to UOP>50-100cc/hr. Monitor BP
   closely as no Central line. Goal negative 500ccL today.
   - frequent suctioning and pulmonary toliets.
   - avoid versed for sedation
   - decrease pressure support and FiO2 as tolerated with periods of AC to
   rest- plan for 2 hours CPAP/PS then 1 hour AC with AC o/n
   .
   # Fever and Leukocytosis
 Febrile yesterday AM to 102.9.  Pan-cultured
   again on [**10-2**].  Pt
s A-line and central line both grew Coag negative
   staph aureus. Antibiotics course for aspiration PNA completed.  Pt c/o
   cough yesterday and sputum cx ([**10-2**]) demonstrates GPC, GPR (most likely
   diptheria from oropharynx) and GNR which may be new VAP or pt may be
   colonized with these organisms now. Possible sinusitis as pt had
   packing in nose. Chronic level of back pain makes acute process such as
   osteo less likely but MRI ordered as no other source for fever. CTX
   discontinued in concern for drug fever and changed to cipro.
   - Continue vancomycin (day 8) to cover MRSA
   - Continue cipro (day 3 + 3 days of CTX) for Klebsiella coverage
   - f/u cultures;
   - stop pan-culturing every time he spikes
   - tylenol for fever
   .
   #. Agitation: Pt still agitated requiring extra doses of valium
   yesterday. Pt calms down with valium suggesting agitation may be due to
   benzo withdrawal.
   -Valium 5mg IV BID PRN agitation assuming he is withdrawing from
   benzos; will give extra doses PRN after evaluation
   -Continue seroquel at home dose 50 mg PO BID: PRN agitation
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on admission
   and episodes of A flutter. Pt on diltizaem PO, increased yesterday but
   pt had episodes of hypotension when given in combination with morphine
   and seroquel. CHADS-2 score of zero.
   - If in A-fib/flutter and HR>120, give diltiazem 5mg IV PRN for better
   rate control given that pt already has some heart strain.
   - Decrease diltiazem increased to 90 mg PO QID given through NG
   - Will be coumadin for PE. [**Month (only) 8**] do Aspirin once coumadin course
   completed.
   .
   # Bleeding
 Hct stable today.  No signs of further bleeding from nose
   with packing removed or hematuria.
   - Monitor Hct
   .
   # Alcohol abuse
 thiamine, folate, MVI
   .
   # Weakness
 improving.
   - PT recommendations
 out of bed to chair > 1 hr a day
   - OT consult
 no note yet
   ICU Care
   Nutrition: hold
   Glycemic Control:  monitoring
   Lines:
   20 Gauge - [**2164-10-1**] 08:14 PM
   Prophylaxis:
   DVT treatment: heparin drip
   Stress ulcer: lasoprazole PO
   VAP:  bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU
 pt is being screened for LTACs pending PEG placement

2164-10-04 11:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Up in chair today, tolerating trach collar.
   Passe-Muir valve in place, vocalizing.
   No fever overnight.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-10-1**] 10:00 PM
   Vancomycin - [**2164-10-3**] 07:50 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2164-10-3**] 07:50 PM
   Morphine Sulfate - [**2164-10-4**] 03:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-4**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 96 (74 - 100) bpm
   BP: 117/81(90) {100/51(68) - 122/81(92)} mmHg
   RR: 21 (13 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81 kg (admission): 84.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,611 mL
                                                                    332 mL
   PO:
             TF:
                                                                    245 mL
                                                                      5 mL
   IVF:
                                                                    966 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    770 mL
   Urine:
                                                                  1,770 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -159 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 744 (575 - 744) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 0x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   423 K/uL
   103 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   8 mg/dL
   102 mEq/L
   140 mEq/L
   30.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2164-9-28**]  06:15 PM
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
                             [**2164-10-1**]  12:26 AM
                             [**2164-10-1**]  05:31 AM
                             [**2164-10-2**]  03:51 AM
                             [**2164-10-2**]  04:43 PM
                             [**2164-10-3**]  03:30 AM
                             [**2164-10-4**]  05:46 AM
   WBC
   9.6
   8.6
   9.3
   6.7
   11.9
   7.5
   Hct
   29.0
   28.5
   30.9
   38.7
   31.0
   30.7
   Plt
   437
   438
   492
   354
   429
   423
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   0.7
   0.6
   0.5
   0.5
   TCO2
   33
   Glucose
   106
   110
   111
   107
   119
   109
   119
   109
   103
   Other labs: PT / PTT / INR:15.2/77.3/1.3, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:31/37, Alk Phos / T Bili:82/0.5,
   Differential-Neuts:64.3 %, Lymph:25.6 %, Mono:5.9 %, Eos:3.8 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   58 yo M admitted for etoh withdrawal, course c/b benzo toxicity, acute
   hypoxic respiratory failure, large bilateral PE
s with marked RV
   dysfunction, now with trach placed.
   PULMONARY EMBOLISM, ACUTE -- massive.  Remains on heparin drip with
   therapeutic PTT.  Hemodynamically stable.  Repeat echo demonstrates
   improvement in RV function.  [**Month (only) 8**] hold on IVC filter placement as RV
   improving.  Hope to transition to coumadin once PEG placed.
   RV DYSFUNCTION -- attributed primarily to pulmonary emboli, clot
   burden.  Unclear whether component of chronic thromboembolic disease.
   Some improvement in RV function.
   RESPIRATORY FAILURE -- Multifactorial.  s/p tracheostomy.  Continue to
   work towards gradual wean to trach collar.  Completed treatment for
   VAP.
   ACIDOSIS -- +AG.  Unclear etiology, but may be related to infection
   (i.e. line-related).  Evaluation in progress.
   TACHYCARDIA -- likely related to reduced pulmonary vascular bed.
   FEVERS -- Resolved.  Attributed to line-related infection.  Continue
   Vanco to complete course.
   GENERALIZED WEAKNESS -- continues to improve.  Attributed to ICU
   polyneuropathy.  Continue PT consult.
   LINE-RELATED INFECTION -- both a-line and central line tip demonstrate
   Staph Coag NEgative.  Lines d/c'd.  Complete course of Vanco.  Echo
   (TTE) suggests abnormality of tricuspid valve
 plan TEE to further
   define, as presence of vegetation will define longer course of
   antimicriobials.
   FLUIDS -- desire net negative if possible, resume lasix drip.
   EPISTAXIS -- absorbable packing in place.  No evidence of further
   bleeding.
   NUTRITIONAL SUPPORT -- Tolerating TF.  Awaiting PEG.  [**Month (only) 8**] be able to
   avoid PEG if able to tolerate trach collar and passes speech and
   swallowing study.
   EtOH -- s/p withdrawal.  Monitor for benzodiazepine withdrawal
   (received large doses at time of admission)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-3**] 09:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-10-05 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2164-10-4**] 08:30 AM
   - can d/c cipro, finished 7 day course
   - tricuspid veg seen on TTE (vanc was started on [**9-26**])
   - c diff positive.  started PO vancomycin.  ID approval obtained
   - restarted heparin drip
   - plan for IR placed PICC tomorrow as PICC nurse unsuccessful today
   - likely to rehab tomorrow
   - pt was difficult stick last night and required arterial stick for PTT
   around midnight; now refusing AM lab draw
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-10-4**] 10:15 PM
   Vancomycin - [**2164-10-5**] 06:37 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-5**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 85 (78 - 110) bpm
   BP: 113/83(90) {86/56(54) - 121/97(104)} mmHg
   RR: 41 (14 - 43) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.9 kg (admission): 84.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,274 mL
                                                                    141 mL
   PO:
                                                                    540 mL
             TF:
                                                                      5 mL
   IVF:
                                                                    639 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    660 mL
   Urine:
                                                                  1,300 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -26 mL
                                                                   -519 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 744 (744 - 744) mL
   FiO2: 40%
   SpO2: 94%
   ABG: ////
   Physical Examination
   General: intubated, trach site clean, alert and responsive to question,
   follows simple commands
   Lungs: apices clear anteriorly, difficult to assess bases
   CV: distant heart sounds, Irregularly irregular, no murmurs, rubs,
   gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses; arm edema has resolved; no leg
   edema
   Neuro: 5/5 strength throughout, CNII-XII intact
   Labs / Radiology
   473 K/uL
   11.0 g/dL
   103 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   8 mg/dL
   102 mEq/L
   140 mEq/L
   32.3 %
   8.8 K/uL
        [image002.jpg]
                             [**2164-9-29**]  04:48 AM
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
                             [**2164-10-1**]  12:26 AM
                             [**2164-10-1**]  05:31 AM
                             [**2164-10-2**]  03:51 AM
                             [**2164-10-2**]  04:43 PM
                             [**2164-10-3**]  03:30 AM
                             [**2164-10-4**]  05:46 AM
                             [**2164-10-4**]  11:29 PM
   WBC
   9.6
   8.6
   9.3
   6.7
   11.9
   7.5
   8.8
   Hct
   29.0
   28.5
   30.9
   38.7
   31.0
   30.7
   32.3
   Plt
   437
   438
   492
   354
   429
   423
   473
   Cr
   0.5
   0.6
   0.5
   0.6
   0.7
   0.6
   0.5
   0.5
   TCO2
   33
   Glucose
   110
   111
   107
   119
   109
   119
   109
   103
   Other labs: PT / PTT / INR:15.2/69.2/1.3, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:31/37, Alk Phos / T Bili:82/0.5,
   Differential-Neuts:64.3 %, Lymph:25.6 %, Mono:5.9 %, Eos:3.8 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   C diff ([**10-4**])
 positive
   Blood Culture (8/24,25) - pending
   Assessment and Plan
 DIARRHEA
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 PULMONARY EMBOLISM (PE), ACUTE
   remains on heparin drip therapeutic PTT
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   PS [**11-17**] intermittently tachypneic in the mid 40's, started on
   vancomcyin [**9-25**] for gram negative rods ? VAP, diuresed with lasix,
   patient is 10L positive for LOS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   patient intubated [**9-17**] - unresposive and no gag
   58 year old with a history of polysubstance abuse here for ETOH
   detoxfication and found to have atrial fibrillation with RVR, bilateral
   PEs, RV  dysfunction which has improved s/p trach for prolonged
   respiratory failure.
   .
   #. Respiratory Failure: s/p tracheostomy on [**9-28**].  Had episodes of
   apnea yesterday while wide awake, did not desaturate.  Pt endorses a
   past history of apnea.  Pt remains on AC overnight and switched to
   pressure support in the AM.  Was comfortable on trach mask this
   morning.  Passed speech and swallow assessment.   Pt
s fluid balance is
   still +9L over course of admission but given hypotension will be more
   gentle with diuresis today.
   - Out of bed to chair
   - defer PEG tube placement as patient is able to take
   - continue heparin drip as [**Doctor First Name 8545**] to coumadin
   - diurese with lasix drip titrated to UOP>50-100cc/hr.
   - frequent suctioning and pulmonary toliets.
   - avoid versed for sedation
   .
   # Fever and Leukocytosis
 Febrile yesterday AM to 102.9.  Pan-cultured
   again on [**10-2**].  Pt
s A-line and central line both grew Coag negative
   staph aureus. Antibiotics course for aspiration PNA completed.  Pt c/o
   cough yesterday and sputum cx ([**10-2**]) demonstrates GPC, GPR (most likely
   diptheria from oropharynx) and GNR which may be new VAP or pt may be
   colonized with these organisms now. Possible sinusitis as pt had
   packing in nose. Chronic level of back pain makes acute process such as
   osteo less likely but MRI ordered as no other source for fever. CTX
   discontinued in concern for drug fever and changed to cipro.
   - continue vancomycin for coag neg staph from central line culture on
   [**10-1**], for 5 more days
   - check vanco trough
   - Continue cipro (day 4 + 3 days of CTX) for Klebsiella coverage
   - f/u cultures
   - stop pan-culturing every time he spikes
   - tylenol for fever
   - echo for vegetations
   .
   #. Agitation: Pt still agitated requiring extra doses of valium
   yesterday. Pt calms down with valium suggesting agitation may be due to
   benzo withdrawal.
   -Valium 5mg IV BID PRN agitation assuming he is withdrawing from
   benzos; will give extra doses PRN after evaluation
   -Continue seroquel at home dose 50 mg PO BID: PRN agitation
   .
   # Atrial fibrillation:  With new onset atrial fibrillation on admission
   and episodes of A flutter. Pt on diltizaem PO, increased yesterday but
   pt had episodes of hypotension when given in combination with morphine
   and seroquel. CHADS-2 score of zero.
   - If in A-fib/flutter and HR>120, give diltiazem 5mg IV PRN for better
   rate control given that pt already has some heart strain.
   - continue diltiazem 90 mg PO QID
   - coumadin after PEG placement
   .
   # Bleeding
 No signs of further bleeding from nose
   .
   # Alcohol abuse
 thiamine, folate, MVI
   .
   # Weakness
 much improved
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-3**] 09:15 PM
   Prophylaxis:
   DVT treatment: heparin drip
   Stress ulcer: lasoprazole PO
   VAP:  bundle
   Comments:
   Communication:  Comments: sister [**Name (NI) 8264**] [**Name (NI) **]: [**Telephone/Fax (1) 8265**]
   Code status: Full code
   Disposition: ICU
 pt is being screened for LTACs

2164-10-05 10:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory disctress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains on trach collar > 24 hours.
   Tolerating Passe-Muir valve.
   Ambulating with assistance.
   PICC line placed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2164-10-4**] 10:15 PM
   Vancomycin - [**2164-10-5**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-10-5**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.4
   HR: 115 (78 - 115) bpm
   BP: 120/87(91) {86/56(54) - 125/97(104)} mmHg
   RR: 27 (14 - 43) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.9 kg (admission): 84.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,274 mL
                                                                    770 mL
   PO:
                                                                    540 mL
                                                                    360 mL
   TF:
                                                                      5 mL
   IVF:
                                                                    639 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    760 mL
   Urine:
                                                                  1,300 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -26 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   428 K/uL
   112 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.5 mEq/L
   8 mg/dL
   101 mEq/L
   139 mEq/L
   30.9 %
   6.6 K/uL
        [image002.jpg]
                             [**2164-9-29**]  02:17 PM
                             [**2164-9-30**]  04:21 AM
                             [**2164-10-1**]  12:26 AM
                             [**2164-10-1**]  05:31 AM
                             [**2164-10-2**]  03:51 AM
                             [**2164-10-2**]  04:43 PM
                             [**2164-10-3**]  03:30 AM
                             [**2164-10-4**]  05:46 AM
                             [**2164-10-4**]  11:29 PM
                             [**2164-10-5**]  08:00 AM
   WBC
   8.6
   9.3
   6.7
   11.9
   7.5
   8.8
   6.6
   Hct
   28.5
   30.9
   38.7
   31.0
   30.7
   32.3
   30.9
   Plt
   [**Telephone/Fax (3) 8570**]29
   423
   473
   428
   Cr
   0.6
   0.5
   0.6
   0.7
   0.6
   0.5
   0.5
   0.7
   TCO2
   33
   Glucose
   111
   107
   119
   109
   119
   109
   103
   112
   Other labs: PT / PTT / INR:15.8/77.1/1.4, CK / CKMB /
   Troponin-T:88//0.01, ALT / AST:31/37, Alk Phos / T Bili:82/0.5,
   Differential-Neuts:64.3 %, Lymph:25.6 %, Mono:5.9 %, Eos:3.8 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   58 yo M admitted for etoh withdrawal, course c/b benzo toxicity, acute
   hypoxic respiratory failure, large bilateral PE
s with marked RV
   dysfunction, now with trach placed.
   PULMONARY EMBOLISM, ACUTE -- massive.  Remains on heparin drip with
   therapeutic PTT.  Hemodynamically stable.  Repeat echo demonstrates
   improvement in RV function.  [**Month (only) 8**] hold on IVC filter placement as RV
   improving.  Hope to transition to coumadin once PEG placed.
   RV DYSFUNCTION -- attributed primarily to pulmonary emboli, clot
   burden.  Unclear whether component of chronic thromboembolic disease.
   Some improvement in RV function.
   RESPIRATORY FAILURE -- Multifactorial.  s/p tracheostomy.  Continue to
   work towards gradual wean to trach collar.  Completed treatment for
   VAP.
   ACIDOSIS -- +AG.  Unclear etiology, but may be related to infection
   (i.e. line-related).  Evaluation in progress.
   TACHYCARDIA -- likely related to reduced pulmonary vascular bed.
   ENDOCARDITIS -- Fevers resolved.  Attributed to line-related infection,
   but now with evidence for endovascular infecton (vegetation on
   tricuspid valve).  Continue Vanco to complete course.
   C. Diff -- enterocolitis.  Vanco
   GENERALIZED WEAKNESS -- continues to improve.  Attributed to ICU
   polyneuropathy.  Continue Physical therapy.
   LINE-RELATED INFECTION -- both a-line and central line tip demonstrate
   Staph Coag NEgative.  Lines d/c'd.  Complete course of Vanco.  Echo
   (TTE) suggests abnormality of tricuspid valve
 plan TEE to further
   define, as presence of vegetation will define longer course of
   antimicriobials.
   FLUIDS -- desire net negative if possible, resume lasix drip.
   EPISTAXIS -- absorbable packing in place.  No evidence of further
   bleeding.
   NUTRITIONAL SUPPORT -- PO.
   EtOH -- s/p withdrawal.  Monitor for benzodiazepine withdrawal
   (received large doses at time of admission)
   DISPOSITION [**Hospital **] transfer to rehbilitation facility
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-3**] 09:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 45 minutes
   Patient is critically ill